2144-07-13 16:01:00 Physician Attending Progress Note
Chief Complaint: resp failure, tumor lysis,
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2144-7-13**] 05:30 AM
 NASAL SWAB - At [**2144-7-13**] 06:00 AM
 FEVER - 101.5
F - [**2144-7-13**] 05:30 AM
   This AM - after intubation pt had severe resp acidosis, dschynchony,
   req heavy sedation
   then acute hypotension- ? due to acidosis - right Ij and right fem line
   placed for access, aline, bicarb pushed, tarbnsiently paced, and able
   to get more stable hemodynamically
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2144-7-13**] 06:39 AM
   Ciprofloxacin - [**2144-7-13**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Phenylephrine - 0.5 mcg/Kg/min
   Propofol - 75 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2144-7-13**] 04:00 AM
   Metoprolol - [**2144-7-13**] 04:00 AM
   Morphine Sulfate - [**2144-7-13**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-7-13**] 03:54 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 38.9
C (102
   HR: 138 (108 - 145) bpm
   BP: 86/48(61) {86/43(59) - 140/78(95)} mmHg
   RR: 33 (18 - 37) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
   CVP: 11 (11 - 11)mmHg
   Mixed Venous O2% Sat: 81 - 81
   Total In:
                                                                  2,324 mL
   PO:
   TF:
   IVF:
                                                                  2,324 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,115 mL
   Urine:
                                                                    865 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,209 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 650 (500 - 650) mL
   Vt (Spontaneous): 614 (614 - 1,427) mL
   PS : 18 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 37 cmH2O
   Plateau: 18 cmH2O
   Compliance: 54.2 cmH2O/mL
   SpO2: 97%
   ABG: 7.18/57/126/23/-7
   Ve: 20.4 L/min
   PaO2 / FiO2: 126
   Physical Examination
   General Appearance: Thin, Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   266 K/uL
   117 mg/dL
   1.5 mg/dL
   23 mEq/L
   5.7 mEq/L
   51 mg/dL
   109 mEq/L
   149 mEq/L
   28.5 %
   14.2 K/uL
        [image002.jpg]
                             [**2144-7-13**]  05:57 AM
                             [**2144-7-13**]  07:27 AM
                             [**2144-7-13**]  08:47 AM
                             [**2144-7-13**]  10:43 AM
                             [**2144-7-13**]  11:30 AM
                             [**2144-7-13**]  11:34 AM
                             [**2144-7-13**]  11:44 AM
                             [**2144-7-13**]  12:46 PM
                             [**2144-7-13**]  02:39 PM
                             [**2144-7-13**]  02:57 PM
   WBC
   11.5
   14.2
   Hct
   24.5
   28.5
   Plt
   240
   266
   Cr
   1.6
   1.5
   TropT
   0.01
   TCO2
   27
   25
   26
   25
   24
   24
   22
   Glucose
   110
   117
   Other labs: PT / PTT / INR:14.5/28.5/1.3, CK / CKMB /
   Troponin-T:57/3/0.01, ALT / AST:20/52, Alk Phos / T Bili:146/0.7,
   Lactic Acid:4.8 mmol/L, LDH:5780 IU/L, Ca++:9.0 mg/dL, Mg++:2.3 mg/dL,
   PO4:11.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 TACHYCARDIA, OTHER
   1. Resp Failure: profound dysnchonry suspect underlying COPD, must
   become passive on vent, sedating at max levels and will paralyze if
   needed. Nebs, and will add steroids
   2. Hypotension: DDX shock due to sepsis or hypovolemia or acidosis.
   Will Rx with d5 w 3 amps, get CVP into 12 range, check SCVO2. empiric
   ABX. Correct acidosis.
   3. ARF: poor urine output- bladder scan neg, IVF and trned but shock
   and dense pre renal likely. Watch K and Rx as needed, renally dose all
   meds.
   4. Onc: prelim maybe ALL_ will work with Drs [**Last Name (STitle) 2803**] and [**Name5 (PTitle) 6993**].
   Start with dexamethasone and may need Onc RN to come from East for
   urgent Rx
   5. Tumor Lysis: Getting IVF bicarb and will add rasburicase. Trend
   lytes q4 hrs. Allopruniol.
   5. Acromegatly: work up proceeding
   Remaining issues per Housestaff
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2144-7-13**] 04:31 AM
   Multi Lumen - [**2144-7-13**] 10:03 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Communication: trying to reach sister for updates
   Code status: Full code
   Disposition :ICU
   Total time spent: 80 minutes
   Patient is critically ill

2144-07-14 04:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - remains intubated, on 8 of versed, 200 fentanyl, and 50 propofol
   - pressors: levo weaned to 0.03 and neo at 1.5
   - cvp 9-13
   - uop 150-250 ml/hr
   - remains on vanc and cipro
   - rasbiricase started, as per onc
   - had extensive family meeting. Met with HCP [**Name (NI) 1068**], whose contact info
   is now provided above.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2144-7-13**] 08:00 PM
   Ciprofloxacin - [**2144-7-13**] 09:55 PM
   Infusions:
   Phenylephrine - 1.5 mcg/Kg/min
   Fentanyl (Concentrate) - 200 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2144-7-13**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-7-14**] 04:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.5
C (103.1
   Tcurrent: 37.8
C (100
   HR: 106 (103 - 138) bpm
   BP: 104/47(66) {86/43(59) - 140/78(95)} mmHg
   RR: 26 (18 - 37) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
    CVP: 9 (8 - 13)mmHg
   Mixed Venous O2% Sat: 81 - 81
   Total In:
                                                                  4,153 mL
                                                                    786 mL
   PO:
   TF:
   IVF:
                                                                  4,153 mL
                                                                    786 mL
   Blood products:
   Total out:
                                                                  2,750 mL
                                                                    405 mL
   Urine:
                                                                  2,150 mL
                                                                    405 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                  1,403 mL
                                                                    381 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 650 (500 - 650) mL
   Vt (Spontaneous): 844 (614 - 844) mL
   PS : 18 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 29 cmH2O
   Plateau: 18 cmH2O
   Compliance: 61.9 cmH2O/mL
   SpO2: 96%
   ABG: 7.34/51/98.[**Numeric Identifier 500**]/25/0
   Ve: 17.6 L/min
   PaO2 / FiO2: 196
   Physical Examination
   General: Alert, oriented, in respiratory distress
   HEENT: Sclera anicteric, MMM, oropharynx clear, frontal bossing,
   maxillary protrusion
   Neck: supple, JVP elevated, no LAD
   Lungs: gurgle apparent from door, diffuse b/l rales, using accessory
   muscles
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: exam limited [**2-17**] acute respiratory distress, + right facial
   droop
   Labs / Radiology
   254 K/uL
   9.2 g/dL
   188 mg/dL
   1.2 mg/dL
   25 mEq/L
   5.1 mEq/L
   62 mg/dL
   104 mEq/L
   144 mEq/L
   26.6 %
   7.6 K/uL
        [image002.jpg]
                             [**2144-7-13**]  12:46 PM
                             [**2144-7-13**]  02:39 PM
                             [**2144-7-13**]  02:57 PM
                             [**2144-7-13**]  07:09 PM
                             [**2144-7-13**]  07:53 PM
                             [**2144-7-13**]  08:10 PM
                             [**2144-7-13**]  08:14 PM
                             [**2144-7-13**]  11:55 PM
                             [**2144-7-14**]  02:35 AM
                             [**2144-7-14**]  02:53 AM
   WBC
   14.2
   8.9
   7.6
   Hct
   28.5
   28.2
   26.6
   Plt
   266
   234
   254
   Cr
   1.5
   1.5
   1.2
   TropT
   0.02
   TCO2
   24
   22
   24
   25
   27
   29
   Glucose
   117
   102
   138
   188
   Other labs: PT / PTT / INR:14.0/32.2/1.2, CK / CKMB /
   Troponin-T:138/3/0.02, ALT / AST:20/52, Alk Phos / T Bili:146/0.7,
   Lactic Acid:3.0 mmol/L, LDH:7740 IU/L, Ca++:8.4 mg/dL, Mg++:2.7 mg/dL,
   PO4:8.5 mg/dL
   Assessment and Plan
   1. Resp Failure: profound dysnchonry suspect underlying COPD, must
   become passive on vent, sedating at max levels and will paralyze if
   needed. Nebs, and will add steroids
   2. Hypotension: DDX shock due to sepsis or hypovolemia or acidosis.
   Will Rx with d5 w 3 amps, get CVP into 12 range, check SCVO2. empiric
   ABX. Correct acidosis.
   3. ARF: poor urine output- bladder scan neg, IVF and trned but shock
   and dense pre renal likely. Watch K and Rx as needed, renally dose all
   meds.
   4. Onc: prelim maybe ALL_ will work with Drs [**Last Name (STitle) 2803**] and [**Name5 (PTitle) 6993**].
   Start with dexamethasone and may need Onc RN to come from East for
   urgent Rx
   5. Tumor Lysis: Getting IVF bicarb and will add rasburicase. Trend
   lytes q4 hrs. Allopruniol.
   6. Tachycardia -
   7. Acromegatly: work up proceeding
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2144-7-13**] 04:31 AM
   Multi Lumen - [**2144-7-13**] 10:03 AM
   Arterial Line - [**2144-7-13**] 02:00 PM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   40 yo M w/ likely new diagnosis of acromegaly, persistent tachycardia
   and tumor lysis who developed worsening respiratory distress despite
   lasix, failed NPPV, intubated. in the setting of IVF administration.
   # Respiratory Distress - Exam and history consistent with pulmonary
   edema. Concern for tachycardia induce cardiomyopathy causing inability
   to tolerate fluid challenge. Also evolving LLL PNA in CTA from [**2144-7-12**].
   Had been on ceftriaxone/azithro on floor. No evidence of
   - intubated, sedate w/ fentyl/versed
   - hold further IVF
   - bolus lasix, consider gtt
   - continue nitro gtt to get SBP<130
   - ECHO in am
   - broaden ABX coverage to ceftriaxone/cipro/vanco
   - obtain sputum cx
   .
   # Tachycardia, sinus - persistent despite significant volume
   resuscitation. TSH nl. Infection vs. high outpt heart failure from
   acromegaly vs. pain. Cardiology consulted on [**2144-7-12**] recommending
   initiation of BB.
   - continue metoprolol 50mg [**Hospital1 **], uptitrate as tolerated
   - echo in am
   - r/o MI tropsX3 in setting of acute decompenstation
   - monitor with tele
   - treat underlying infectious process as above
   - appreciate cardiology recs
   - pain control w/ fentyl gtt
   .
   # ? tumor lysis syndrome: suggested by significantly elevated LDH,
   hypercalcemia, hyperkalemia, hyperphosphatemia. Imaging concerning
   underlying malignant process in spine - lymphoma, testicular cancer,
   and granulomatous disease are possibilities
   - follow [**Hospital1 **] tumor lysis labs
   - resume hydration as soon as cardiac status/respiratory status
   stabilize
   - appreciate onc recs
   .
   # B/L LE weakness - w/diffuse nerve root enhancement of lumbar spine
   and epidural signal changes at T9, T12, L2. Consider infiltrative
   process. Thoracic Epidural Enhancement on MRA, MRI prelim without
   evidence of cord compression - Neuro [**Doctor First Name **] following
   - f/u final MR of T spine
   - appreciate neurosurg recs
   .
   # pituitary macroadenoma invading the cavernous sinus (left):w/
   acromegaly on exam
   - f/u neurosurgery recs
   - f/u endocrine recs,
   - f/u total Test, SHBG, LH, FSH, Prolactin, AM cortisol, ACTH, TSH,
   free T4, IGF-1, [**Hospital1 **] to determine if adenoma is functional
   .
   # urinary retention - ? related to spinal process causing LE weakness,
   although imaging negative for cord compression
   - work up as above for LE weakness, foley in place
   .
   # tender scrotal swelling. Epididymitis and orchitis on scrotal US.
   - cover with cipro 500mg [**Hospital1 **] for 10-14 days from day #1 [**7-11**]
   - f/u CG/chlamydia
   .
   # bell's palsy and right sided facial numbness:  no clear relation to
   pituitary macroadenoma. ? CN outlet compresion vs. viral etiology
   - resume acyclovir, continue steroids
   .
   # joint pain - related to acromegaly bony change vs. infiltrative bone
   process
   - pain control w/ fentnyl
   .
   # FEN: resume IVF once cardiac/respiratory status stabilizes, replete
   electrolytes, npo overnight
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: peripherals x2
   .
   # Code: full
   .
   # Communication: Patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control: Regular insulin sliding scale
   Lines:
   18 Gauge - [**2144-7-13**] 04:31 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   MICU ATTENDING ADDENDUM
   40M homeless, acromegaly / macroadenoma p/w respiratory failure. W/u
   notable to date notable for elvated LDH / tumor lysis syndrome, thecal
   enhancement on MRI, sinus tachycardia, Bell's palsy, orchitis. This AM,
   developed worsening respiratory distress despite lasix, failed NPPV,
   intubated.
   Exam notable for Tm 101.5 BP 130/40 HR 130 RR 25 with sat 94 on VAC
   600x25/18 5 1.0. Prominent brow. Coarse BS B. RRR s1s2. Soft, scaphoid.
   Labs notable for WBC 11K, HCT 34, K+ 3.9, Cr 0.7, lactate 5.4, BNP
   1600, LDH 6800. CT c pronounced bronchovascular thickening but no focal
   ASD.
   Agree with plan to manage respiratory failure with ongoing VAC support,
   may need to increase PEEP and RR for ongoing respiratory distress.
   Cause unclear, suspect some component may be infectious or related to
   tachycardia induced cardiogenic edema, but the CT is most concerning
   for infiltrating malignancy. Will continue vanco / CTX / cipro, and
   will hydrate for now while following up echo. Will need BMBx to r/o
   marrow infiltration given tumor lysis labs, onc following. Tachycardia
   may be due to high output heart failure from acromegaly, cards,
   neurosurg and endocrine following. Await IGF-1 and TSH levels. Would
   also consider fat pad bx for possible amyloidosis, though it wouldn't
   explain everything. Remainder of plan as outlined above.

2144-07-14 09:04:00 Physician Attending Progress Note
Chief Complaint: tumor lysis, resp failure, shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2144-7-13**] 09:53 AM
 MULTI LUMEN - START [**2144-7-13**] 10:03 AM
 ARTERIAL LINE - START [**2144-7-13**] 10:36 AM
 ARTERIAL LINE - STOP [**2144-7-13**] 10:41 AM
 ARTERIAL LINE - START [**2144-7-13**] 02:00 PM
 URINE CULTURE - At [**2144-7-13**] 07:20 PM
   Cloudy urine--> UA/UCx sent
 FEVER - 103.1
F - [**2144-7-13**] 04:00 PM
   Wenaing vent
   Weaning Levophed
   Urinating
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2144-7-13**] 09:55 PM
   Vancomycin - [**2144-7-14**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Phenylephrine - 0.5 mcg/Kg/min
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2144-7-14**] 08:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.5
C (103.1
   Tcurrent: 38
C (100.4
   HR: 108 (103 - 138) bpm
   BP: 108/49(68) {86/43(59) - 140/78(95)} mmHg
   RR: 26 (22 - 37) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
   CVP: 7 (7 - 13)mmHg
   Mixed Venous O2% Sat: 81 - 81
                                Total In:
                                                                  4,153 mL
                                                                  1,627 mL
   PO:
                                TF:
   IVF:
                                                                  4,153 mL
                                                                  1,627 mL
   Blood products:
   Total out:
                                                                  2,750 mL
                                                                    825 mL
   Urine:
                                                                  2,150 mL
                                                                    775 mL
   NG:
                                                                    400 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,403 mL
                                                                    802 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 650 (650 - 650) mL
   Vt (Spontaneous): 844 (614 - 844) mL
   PS : 18 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 31 cmH2O
   Plateau: 20 cmH2O
   Compliance: 52 cmH2O/mL
   SpO2: 97%
   ABG: 7.34/51/98.[**Numeric Identifier 500**]/25/0
   Ve: 17.3 L/min
   PaO2 / FiO2: 196
   Physical Examination
   Gen: intubated and sedated
   CV: RR
   Chest: barel chest clear air movement
   Abd: soft +BS
   Ext: 2+ pedal edema
   Neuro: sedated
   Labs / Radiology
   9.2 g/dL
   254 K/uL
   188 mg/dL
   1.2 mg/dL
   25 mEq/L
   5.1 mEq/L
   62 mg/dL
   104 mEq/L
   144 mEq/L
   26.6 %
   7.6 K/uL
        [image002.jpg]
                             [**2144-7-13**]  12:46 PM
                             [**2144-7-13**]  02:39 PM
                             [**2144-7-13**]  02:57 PM
                             [**2144-7-13**]  07:09 PM
                             [**2144-7-13**]  07:53 PM
                             [**2144-7-13**]  08:10 PM
                             [**2144-7-13**]  08:14 PM
                             [**2144-7-13**]  11:55 PM
                             [**2144-7-14**]  02:35 AM
                             [**2144-7-14**]  02:53 AM
   WBC
   14.2
   8.9
   7.6
   Hct
   28.5
   28.2
   26.6
   Plt
   266
   234
   254
   Cr
   1.5
   1.5
   1.2
   TropT
   0.02
   TCO2
   24
   22
   24
   25
   27
   29
   Glucose
   117
   102
   138
   188
   Other labs: PT / PTT / INR:14.0/32.2/1.2, CK / CKMB /
   Troponin-T:138/3/0.02, ALT / AST:20/52, Alk Phos / T Bili:146/0.7,
   Lactic Acid:3.0 mmol/L, LDH:7120 IU/L, Ca++:8.4 mg/dL, Mg++:2.7 mg/dL,
   PO4:8.5 mg/dL
   Cortisol 26
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 TACHYCARDIA, OTHER
   1. Resp Failure: profound dysynchrony with underlying COPD, improved
   once he could become passive on the vent. Will try to wean to PSV
   today. Need to wean sedation carefully as we do this.
   2. Fevers: B symptoms versus infectious, pan cultured Empiric ABX
   Vanco, ceftriaxone, Cipro
   3. Hypotension: DDX shock due to sepsis or hypovolemia or acidosis.
   Improving and off Levophed, weaning Neo
 CVP 10-12. Watch UOP
   4. ARF: improving after resuscitation. Renal following no acute
   iundicatin for HD, renally dose all meds.
   5. Onc: prelim maybe ALL/AML- await final path. Will work with Drs
   [**Last Name (STitle) 2803**] and [**Name5 (PTitle) 6993**]. Start with dexamethasone and may need Onc RN to
   come from East for urgent Rx.
   6. Tumor Lysis:  rasburicase. Trend lytes q4-6 hrs. Allopurinol.
   7. Acromegaly: work up proceeding
   Remaining issues per Housestaff
   ICU Care
   Nutrition: likely TF later today if bowels moving.
   Glycemic Control:
   Lines:
   18 Gauge - [**2144-7-13**] 04:31 AM
   Multi Lumen - [**2144-7-13**] 10:03 AM
   Arterial Line - [**2144-7-13**] 02:00 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   VAP: chlorhex, elevate HOB
   Comments:
   Communication:  family meeting today
 identified HCP
   [**Name (NI) 129**] status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2144-07-14 17:32:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2144-7-14**] 08:00 AM
   Ciprofloxacin - [**2144-7-14**] 10:00 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze, ETT
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2144-7-14**] 05:31 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 38
C (100.4
   HR: 109 (98 - 131) bpm
   BP: 146/82(98) {97/45(62) - 146/82(98)} mmHg
   RR: 22 (20 - 28) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
   CVP: 353 (7 - 353)mmHg
   Total In:
                                                                  4,153 mL
                                                                  2,824 mL
   PO:
   TF:
   IVF:
                                                                  4,153 mL
                                                                  2,824 mL
   Blood products:
   Total out:
                                                                  2,750 mL
                                                                  1,790 mL
   Urine:
                                                                  2,150 mL
                                                                  1,690 mL
   NG:
                                                                    400 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,403 mL
                                                                  1,034 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 650 (650 - 650) mL
   Vt (Spontaneous): 844 (844 - 844) mL
   RR (Set): 22
   RR (Spontaneous): 1
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   Compliance: 44.8 cmH2O/mL
   SpO2: 99%
   ABG: 7.34/51/98.[**Numeric Identifier 500**]/27/0
   Ve: 17 L/min
   PaO2 / FiO2: 163
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , Bronchial: Right,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand,
   Acromegally
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, bronzed in sun exposed areas
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.2 g/dL
   254 K/uL
   148 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.5 mEq/L
   75 mg/dL
   105 mEq/L
   145 mEq/L
   26.6 %
   7.6 K/uL
        [image002.jpg]
                             [**2144-7-13**]  02:39 PM
                             [**2144-7-13**]  02:57 PM
                             [**2144-7-13**]  07:09 PM
                             [**2144-7-13**]  07:53 PM
                             [**2144-7-13**]  08:10 PM
                             [**2144-7-13**]  08:14 PM
                             [**2144-7-13**]  11:55 PM
                             [**2144-7-14**]  02:35 AM
                             [**2144-7-14**]  02:53 AM
                             [**2144-7-14**]  02:50 PM
   WBC
   14.2
   8.9
   7.6
   Hct
   28.5
   28.2
   26.6
   Plt
   266
   234
   254
   Cr
   1.5
   1.5
   1.2
   1.1
   TropT
   0.02
   TCO2
   22
   24
   25
   27
   29
   Glucose
   117
   102
   138
   188
   148
   Other labs: PT / PTT / INR:14.0/32.2/1.2, CK / CKMB /
   Troponin-T:138/3/0.02, ALT / AST:20/52, Alk Phos / T Bili:146/0.7,
   Lactic Acid:3.0 mmol/L, LDH:5652 IU/L, Ca++:8.4 mg/dL, Mg++:3.1 mg/dL,
   PO4:7.9 mg/dL
   Assessment and Plan
   1. Resp Failure: profound dysynchrony with underlying COPD, improved
   once he could become passive on the vent. Will try to wean to PSV
   today. Need to wean sedation carefully as we do this.
   2. Fevers: B symptoms versus infectious, pan cultured Empiric ABX
   Vanco, ceftriaxone, Cipro
   3. Hypotension: DDX shock due to sepsis or hypovolemia or acidosis.
   Improving and off Levophed, weaning Neo
 CVP 10-12. Watch UOP
   4. ARF: improving after resuscitation. Renal following no acute
   iundicatin for HD, renally dose all meds.
   5. Onc: prelim maybe ALL/AML- await final path. Will work with Drs
   [**Last Name (STitle) 2803**] and [**Name5 (PTitle) 6993**]. Start with dexamethasone and may need Onc RN to
   come from East for urgent Rx.
   6. Tumor Lysis:  rasburicase. Trend lytes q4-6 hrs. Allopurinol.
   7. Acromegaly: work up proceeding
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2144-7-13**] 04:31 AM
   Multi Lumen - [**2144-7-13**] 10:03 AM
   Arterial Line - [**2144-7-13**] 02:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2144-07-14 18:10:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   40 yom acromegaly, persistent tachycardia and evidence for tumor lysis
   syndrome, admitted to MICU with respiratory failure, now transferred
   from [**Hospital Ward Name **] MICU to [**Hospital Ward Name **] MICU for initiation of
   chemotherapy.
   Transferred intubated, mechanically ventilated, and remains intubated
   and mechanically ventilated.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2144-7-14**] 08:00 AM
   Ciprofloxacin - [**2144-7-14**] 10:00 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze, ETT
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2144-7-14**] 06:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 38
C (100.4
   HR: 109 (98 - 131) bpm
   BP: 146/82(98) {97/45(64) - 146/82(98)} mmHg
   RR: 22 (20 - 28) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
   CVP: 353 (7 - 353)mmHg
   Total In:
                                                                  4,153 mL
                                                                  2,876 mL
   PO:
   TF:
   IVF:
                                                                  4,153 mL
                                                                  2,876 mL
   Blood products:
   Total out:
                                                                  2,750 mL
                                                                  1,790 mL
   Urine:
                                                                  2,150 mL
                                                                  1,690 mL
   NG:
                                                                    400 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,403 mL
                                                                  1,086 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 650 (650 - 650) mL
   Vt (Spontaneous): 844 (844 - 844) mL
   RR (Set): 22
   RR (Spontaneous): 1
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   Compliance: 44.8 cmH2O/mL
   SpO2: 99%
   ABG: 7.34/51/98.[**Numeric Identifier 500**]/27/0
   Ve: 17 L/min
   PaO2 / FiO2: 163
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Disshevled
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: No(t) Normocephalic, Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube, Acromegally
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.2 g/dL
   254 K/uL
   148 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.5 mEq/L
   75 mg/dL
   105 mEq/L
   145 mEq/L
   26.6 %
   7.6 K/uL
        [image002.jpg]
                             [**2144-7-13**]  02:39 PM
                             [**2144-7-13**]  02:57 PM
                             [**2144-7-13**]  07:09 PM
                             [**2144-7-13**]  07:53 PM
                             [**2144-7-13**]  08:10 PM
                             [**2144-7-13**]  08:14 PM
                             [**2144-7-13**]  11:55 PM
                             [**2144-7-14**]  02:35 AM
                             [**2144-7-14**]  02:53 AM
                             [**2144-7-14**]  02:50 PM
   WBC
   14.2
   8.9
   7.6
   Hct
   28.5
   28.2
   26.6
   Plt
   266
   234
   254
   Cr
   1.5
   1.5
   1.2
   1.1
   TropT
   0.02
   TCO2
   22
   24
   25
   27
   29
   Glucose
   117
   102
   138
   188
   148
   Other labs: PT / PTT / INR:14.0/32.2/1.2, CK / CKMB /
   Troponin-T:138/3/0.02, ALT / AST:20/52, Alk Phos / T Bili:146/0.7,
   Lactic Acid:3.0 mmol/L, LDH:5652 IU/L, Ca++:8.4 mg/dL, Mg++:3.1 mg/dL,
   PO4:7.9 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE --  multifactorial, suspect pneumonia LLL (possible
   aspiration), diffuse bronchovascular disease with lymphangitic
   engorgement, and possible underlying COPD (tobacco abuse history,
   enlarged lung fields).   Improved on mechanical ventilation.  Monitor
   ABG, maintain pH 7.35-7.40, pO2 >60 mmHg.  Continue antimicrobials.
   FEVERS
 persistent, possible underlying systemic process (such as
   symptoms from maligancy) or infection (ex. Pneumonia).  Unrevealing
   imaging.  Cultures pending.  Monitor fevers, use coolig blanket.
   Continue empiric antimicrobials (Vanco, ceftriaxone, Ciprofloxicin)
   HYPOTENSION
 concern for sepsis and component of hypovolemia.  No
   evidence for adrenal insufficiency.  Improved, and now off
   vasopressors.   Maintain = CVP 10-12 cm H2O.
   FLUIDS
 need to further assess intravascular status.  [**Month (only) 11**] require iv
   fluid bolus to maintain.  Follow CVP= 10-12 cm H2O.
   ACUTE RENAL FAILURE -- Improving following resuscitation.  Attributed
   to ATN, possible tumor lysis syndrome, bilateral obstruction, drug
   effect.  Renal dose all medications.
   TUMOR LYSIS SYNDROME
  unclear etiology.  Continue Rasburicase,
   Allopurinol.  Trend electrolytes q4-6 hrs.  Oncology preliminary
   impression favors ALL/AML
 bone marrow results pending.  Continue
   dexamethasone.
   ACROMEGALLY
 Reportedly with evidnece for Pituitary adenoma.
   Evaluation in progresss.
   NUTRITIONAL SUPPORT
 initiate TF if no plans for procedures.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2144-7-13**] 04:31 AM
   Multi Lumen - [**2144-7-13**] 10:03 AM
   Arterial Line - [**2144-7-13**] 02:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2144-07-15 06:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 40M with tumor lysis syndrome, being worked up for
   acromegaly and possible lymphoma, in ICU after respiratory distress
   leading to intubation and one episode hypotensive bradycardia, in the
   setting of pneumonia and respiratory/lactic acidosis.
   24 Hour Events:
   - 250 cc "bile" drawn out of NG tube overnight
   - On CXR, ETT noted to be 6cm above the carina. Was advanced 2cm. Film
   repeated this morning.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2144-7-14**] 10:10 PM
   Ciprofloxacin - [**2144-7-14**] 11:32 PM
   Ceftriaxone - [**2144-7-15**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2144-7-15**] 05:00 AM
   Fentanyl - [**2144-7-15**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-7-15**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 36.8
C (98.2
   HR: 98 (98 - 116) bpm
   BP: 113/62(76) {97/49(65) - 146/82(98)} mmHg
   RR: 21 (20 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CVP: 8 (2 - 14)mmHg
   Total In:
                                                                  5,491 mL
                                                                  1,554 mL
   PO:
   TF:
   IVF:
                                                                  5,411 mL
                                                                  1,554 mL
   Blood products:
   Total out:
                                                                  2,825 mL
                                                                    770 mL
   Urine:
                                                                  2,475 mL
                                                                    770 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  2,666 mL
                                                                    784 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 650 (650 - 650) mL
   RR (Set): 22
   RR (Spontaneous): 23-24
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 32 cmH2O
   Plateau: 23 cmH2O
   SpO2: 99%
   ABG: 7.39/48/133/25/3
   Ve: 14.8 L/min
   PaO2 / FiO2: 266
   Physical Examination
   GENERAL: bearded male appearing older than stated age, sedated,
   intubated, minimally responsive to verbal stimulus
   HEENT: No scleral icterus. Pupils 1mm and sluggish bilaterally. ETT in
   place, OP otherwise clear. Prominent frontal bossing and
   maxillary/mandibular protrusion; large coarse facial features. Wasting
   noted particularly in temporal regions.  Neck supple, No LAD, trachea
   midline. Fullness of thyroid gland without distinct nodules.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs,
   gallops appreciated although barrel-shaped chest makes heart sounds
   distant
   LYMPH: No axillary, inguinal, supraclavicular LAD.
   LUNGS: mild rhonchi and wheezing at bases, left greater than right.
   ABDOMEN: +bowel sounds. Soft, ND.  Liver 1cm below costal margin. No
   appreciable splenomegaly.
   EXTREMITIES: prominent and enlarged hands/feet, LEs appear edematous,
   2+ radial/dorsalis /pedis pulses. No cyanosis.
   SKIN: No rashes. Small bruises on R arm, tattoo on L forearm.
   NEURO: Limited secondary to sedation. Cannot appreciate R facial droop.
   Labs / Radiology
   148 K/uL
   7.9 g/dL
   159 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.0 mEq/L
   60 mg/dL
   102 mEq/L
   143 mEq/L
   23.6 %
   5.6 K/uL
        [image002.jpg]
                             [**2144-7-13**]  08:10 PM
                             [**2144-7-13**]  08:14 PM
                             [**2144-7-13**]  11:55 PM
                             [**2144-7-14**]  02:35 AM
                             [**2144-7-14**]  02:53 AM
                             [**2144-7-14**]  02:50 PM
                             [**2144-7-14**]  09:37 PM
                             [**2144-7-14**]  11:47 PM
                             [**2144-7-15**]  04:46 AM
                             [**2144-7-15**]  05:01 AM
   WBC
   8.9
   7.6
   6.1
   5.6
   Hct
   28.2
   26.6
   23.9
   23.6
   Plt
   [**Telephone/Fax (3) 7022**]48
   Cr
   1.5
   1.2
   1.1
   0.8
   TCO2
   25
   27
   29
   30
   30
   Glucose
   138
   188
   148
   159
   Other labs: PT / PTT / INR:12.3/24.6/1.0, CK / CKMB /
   Troponin-T:138/3/0.02, ALT / AST:18/31, Alk Phos / T Bili:104/0.3,
   Differential-Neuts:66.0 %, Band:2.0 %, Lymph:16.0 %, Mono:8.0 %,
   Eos:1.0 %, Lactic Acid:3.0 mmol/L, Albumin:2.9 g/dL, LDH:5652 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.9 mg/dL, PO4:4.1 mg/dL, Uric acid 6.5
   Assessment and Plan
   40M with tumor lysis syndrome, being worked up for new diagnoses of
   acromegaly and possible lymphoma, in ICU after respiratory distress
   leading to intubation and one episode hypotensive bradycardia, in the
   setting of pneumonia and respiratory/lactic acidosis. Original
   presenting complaint was Bell
s Palsy and urinary retention.
   Current work-up is considering ALL vs Burkitts.
   By system:
   Respiratory: Respiratory distress on [**7-13**] attributed to his
   respiratory/lactic acidosis with LLL PNA, possible infiltrative
   lymphangitic malignant process in both lungs, in the setting of
   aggressive fluid resuscitation. Patient also has a question of a
   history of COPD with significant smoking history (50+ pack years)
   -Advance ETT 1cm more because cuff appears to be above thoracic inlet
   -Switched from AC mode to pressure support [**5-19**] and well tolerated this
   morning. Given that and ABG as well as patient being more alert on
   increased sedation, work toward weaning the vent today.
   -sedation with fentanyl/midazolam, continue until ready to wean vent.
   -Continue antibiotics for PNA: CTX + Cipro
   -Repeat CXR for ETT placement
   -Repeat ABG today after changing vent settings.
   -f/u blood and sputum cx
   Cardiovascular: Persistent tachycardia to 120s for first couple days of
   admission on telemetry and EKG despite significant volume
   resuscitation. TSH WNL, TTE showed normal EF and no evidence of heart
   failure. Cardiology recommended metoprolol but this was d/c
ed after an
   episode of serious bradycardia requiring transcutaneous pacing on [**7-13**]
   as well as pressors. Cardiac enzymes not concerning for MI, slight
   elevation in troponin likely secondary to ARF.
   -Follow EKGs
   -Follow cardiology recs if they still would like to follow the patient
   -Avoid beta-blockers
   -Monitor CVP with fluids to a goal of [**10-26**] to protect his kidneys.
   -If becomes hypotensive and tachycardic, first choice pressor would be
   phenylephrine.
   Heme-Onc: Labs at admission included significantly elevated LDH,
   hypercalcemia, hyperkalemia, hyperphosphatemia, hyperuricemia. All
   trending down with IVF and single dose of rasbiricase. CT c/w
   lymphangitic spread of diffuse malignant process and patient also with
   concerning thickening in stomach, ureters, and possible mass at bottom
   of thoracic spine per MRI.
   -f/u Heme/Onc recs (bone marrow biopsy pending, current thinking is ALL
   versus Burkitt
s. challenging review in setting of steroid
   administration) and discuss chemotherapy plans
   -trend lysis labs (uric acid, LDH, K, phos, Ca) Q8H
   -start allopurinol given normalized Cr
   -repeat dose of rasbiracase 6mg x 1
   -EBV results
   -SPEP results
   -continue hydration
   -guaiac stools (Hct trending down since admission)
   Renal/FEN: Creatinine went from 0.6 at admission to max of 1.6,
   currently 0.8. ARF was attributed to ATN in the setting of high uric
   acid levels to 12 range.  Patient
s initial presentation was also
   urinary retention. U/S at OSH was reportedly normal. CT shows
   urothelial thickening and prostate may also be enlarged in the setting
   of acromegaly.
   -monitor BUN and Cr
   -continue fluids to CVP 10-12
   -avoid IV contrast, nephrotoxic meds until Cr stabilized
   -Electrolyte abnormalities all improving. Replete as needed.
   Endocrine: Per OSH records, he had an MRI/MRA head [**7-11**] which revealed
   a 19 x30x 15mm pituitary macroadenoma which had some invasion of left
   cavernous sinus. Acromegaly suspected and could help explain appearance
   and intial complaints of cranial nerve palsies, LE weakness, and
   urinary retention. Endocrinology consult called and patient has had
   normal TSH, low testosterone, LH elevated, slightly high cortisol
   levels. Prolactin is normal. PTH is normal. High [**Hospital1 **] at 11.2 and IGF was
   188.
   - f/u endocrine recs  (do they still want the following labs: free
   IGF-1(lab can instruct how to do this), IGFBP, repeat [**Hospital1 **], possible OGTT
   with [**Hospital1 **] levels 2hrs post 75g load, pituitary MRI, Vit D labs, UPEP
   - call for full opthalmology consult once alert and awake for thorough
   visual field tests
   -When stabilized, consider repeat Ca and PTH drawn at same time (PTH
   was normal in setting of high Ca)
   Neuro: MRI T-spine done and showed no overt compressions, but diffuse
   nerve root enhancement of lumbar spine and epidural signal changes at
   T9, T12, L2. Most likely from his overall infiltrative
   process/malignancy. Thoracic epidural enhancement on MRA, MRI
   concerning for possible masses.  Neurosurgery team is  following.
   Patient already on dexamethasone for malignancy treatment. No reported
   incontinence, only retention of urine but may be due to enlarged
   prostate from acromegaly vs additional obstruction at the level of
   ureter as imaging noted thickening of urothelial linings ( likely also
   related to underlying malignancy). Patient also initially presented
   with a Bell
s palsy, possibly related to acromegaly.
   -f/u with neurosurgery regarding T-spine mass and MRI of lumbar spine
   -better neuro exam as we wean sedation, particularly focused on cranial
   nerve
s V and VII
   -continue acyclovir
   ID: CXR on [**7-12**] showed LLL PNA, being treated with vanc and CTX.
   Patient also on Cipro for question of STI orchitis.
   -consider HIV test in setting of possible aggressive lymphoma
   -f/u EBV PCR
   -HIV test when patient alert and able to consent
   -d/c cipro
   -continue vanc and CTX for hospital-acquired PNA
   GU:  Initial complaint was urinary retention. Possibly secondary to
   enlarged prostate from acromegaly and/or urothelial thickening on CT.
   Tender scrotal swelling also noted on admission and scrotal US
   suggested epididymitis/orchitis. No clear mass was identified and G&C
   swab was negative. [**Month (only) 11**] be related to anasarca and malignancy work-up.
   Hcg and AFP negative.
   -Foley in place
   -Closely monitor UOP given recent h/o retention.
   MSK: Patient complained of diffuse arthralgias, most likely secondary
   to hypertrophic arthropathy from acromegaly, possible infiltrative
   process.
   -avoiding NSAIDs
   -tylenol when awake
   -continue pain control with fentanyl
   ICU Care
   Nutrition:  NPO overnight. Consult in for tube feeding recs. If
   extubated, consider advancing to clears when mental status is ok.
   Glycemic Control:
   Lines:
   18 Gauge
 L antecubital [**2144-7-13**] 04:31 AM
   18 Gauge
 RL post forearm
   Multi Lumen - [**2144-7-13**] 10:03 AM
   Arterial Line - [**2144-7-13**] 02:00 PM
   Prophylaxis:
   DVT: Subcutaneous Heparin
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  [**Name (NI) 1068**] [**Name (NI) 7003**] (HCP) at [**Telephone/Fax (1) 7004**] or [**Telephone/Fax (1) 7020**]
   Code status: full code
   Disposition: [**Hospital Unit Name 10**] for now, pending above assessments and additional
   workup for malignancy
   ------ Protected Section ------
   I have seen and examined the patient and agree with the above plan
   ------ Protected Section Addendum Entered By:[**Name (NI) 7035**] [**Name8 (MD) **], MD
   on:[**2144-7-15**] 14:58 ------

2144-07-15 11:52:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Responds appropriately to questions, although remains sedated.
   Tolerating SBT this AM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2144-7-14**] 10:10 PM
   Ciprofloxacin - [**2144-7-14**] 11:32 PM
   Ceftriaxone - [**2144-7-15**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Fentanyl - [**2144-7-15**] 08:00 AM
   Midazolam (Versed) - [**2144-7-15**] 08:52 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   ETT
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2144-7-15**] 11:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 36.5
C (97.7
   HR: 102 (98 - 116) bpm
   BP: 141/76(96) {107/50(67) - 146/82(98)} mmHg
   RR: 18 (18 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
   CVP: 7 (2 - 14)mmHg
   Total In:
                                                                  5,491 mL
                                                                  2,129 mL
   PO:
   TF:
   IVF:
                                                                  5,411 mL
                                                                  2,129 mL
   Blood products:
   Total out:
                                                                  2,825 mL
                                                                  1,370 mL
   Urine:
                                                                  2,475 mL
                                                                  1,370 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  2,666 mL
                                                                    759 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 650 (650 - 650) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 29 cmH2O
   Plateau: 19 cmH2O
   SpO2: 98%
   ABG: 7.39/48/133/25/3
   Ve: 15.7 L/min
   PaO2 / FiO2: 266
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube, Acromegally
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.9 g/dL
   148 K/uL
   159 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.0 mEq/L
   60 mg/dL
   102 mEq/L
   143 mEq/L
   23.6 %
   5.6 K/uL
        [image002.jpg]
                             [**2144-7-13**]  08:10 PM
                             [**2144-7-13**]  08:14 PM
                             [**2144-7-13**]  11:55 PM
                             [**2144-7-14**]  02:35 AM
                             [**2144-7-14**]  02:53 AM
                             [**2144-7-14**]  02:50 PM
                             [**2144-7-14**]  09:37 PM
                             [**2144-7-14**]  11:47 PM
                             [**2144-7-15**]  04:46 AM
                             [**2144-7-15**]  05:01 AM
   WBC
   8.9
   7.6
   6.1
   5.6
   Hct
   28.2
   26.6
   23.9
   23.6
   Plt
   [**Telephone/Fax (3) 7022**]48
   Cr
   1.5
   1.2
   1.1
   0.8
   TCO2
   25
   27
   29
   30
   30
   Glucose
   138
   188
   148
   159
   Other labs: PT / PTT / INR:12.3/24.6/1.0, CK / CKMB /
   Troponin-T:138/3/0.02, ALT / AST:18/31, Alk Phos / T Bili:104/0.3,
   Differential-Neuts:66.0 %, Band:2.0 %, Lymph:16.0 %, Mono:8.0 %,
   Eos:1.0 %, Lactic Acid:3.0 mmol/L, Albumin:2.9 g/dL, LDH:5301 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.9 mg/dL, PO4:4.1 mg/dL
   Fluid analysis / Other labs: Uric acid= 7.2 --> 6.5
   Assessment and Plan
   RESPIRATORY FAILURE --  multifactorial, suspect pneumonia LLL (possible
   aspiration), diffuse bronchovascular disease with lymphangitic
   engorgement, and possible underlying COPD (tobacco abuse history,
   enlarged lung fields).   Improved on mechanical ventilation.  Monitor
   ABG, maintain pH 7.35-7.40, pO2 >60 mmHg.  Continue antimicrobials.
   Hope to work towards SBT and extubation trial.
   FEVERS
 persistent, possible underlying systemic process (such as
   symptoms from maligancy) or infection (ex. Pneumonia).  Unrevealing
   imaging.  Cultures pending.  Monitor fevers, use coolig blanket.
   Continue empiric antimicrobials (Vanco, ceftriaxone, Ciprofloxicin)
   HYPOTENSION
 concern for sepsis and component of hypovolemia.  No
   evidence for adrenal insufficiency.  Improved, and now off
   vasopressors.   Maintain = CVP 10-12 cm H2O.
   FLUIDS
 need to further assess intravascular status.  [**Month (only) 11**] require iv
   fluid bolus to maintain.  Follow CVP= 10-12 cm H2O.
   ACUTE RENAL FAILURE -- Improving following resuscitation.  Attributed
   to ATN, possible tumor lysis syndrome, bilateral obstruction, drug
   effect.  Renal dose all medications.
   TUMOR LYSIS SYNDROME
  unclear etiology.  Continue Rasburicase,
   Allopurinol.  Trend electrolytes q8 hrs.  Oncology preliminary
   impression favors ALL/AML
 bone marrow results pending.  Continue
   dexamethasone.
   ACROMEGALLY
 Reportedly with evidnece for Pituitary adenoma.
   Evaluation in progresss.
   NUTRITIONAL SUPPORT
 initiate TF if no plans for procedures.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2144-7-13**] 04:31 AM
   Multi Lumen - [**2144-7-13**] 10:03 AM
   Arterial Line - [**2144-7-13**] 02:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2144-07-16 06:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 40M with tumor lysis syndrome, being worked up for
   acromegaly and possible lymphoma, in ICU after respiratory distress
   leading to intubation and one episode hypotensive bradycardia, in the
   setting of pneumonia and respiratory/lactic acidosis.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2144-7-15**] 04:06 PM
 INVASIVE VENTILATION - START [**2144-7-15**] 11:00 PM
   - Extubated [**2144-7-15**] at 4pm, followed by reintubation at 11pm due to
   tachypnea and increased work of breathing
   -Tumor lysis labs improved: given another dose raspuricase then
   transitioned to allopurinol as per heme-onc recs
   -Resent peripheral blood for flow cytometry because necrosis of bone
   marrow rendered biopsy inadequate for results
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2144-7-14**] 11:32 PM
   Vancomycin - [**2144-7-15**] 08:30 PM
   Ceftriaxone - [**2144-7-16**] 04:29 AM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl (Concentrate) - 350 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2144-7-15**] 02:00 PM
   Fentanyl - [**2144-7-15**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2144-7-15**] 10:20 PM
   Famotidine (Pepcid) - [**2144-7-16**] 04:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-7-16**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.4
C (97.5
   HR: 109 (98 - 122) bpm
   BP: 115/57(75) {106/49(70) - 160/79(104)} mmHg
   RR: 22 (13 - 29) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
    CVP: 6 (6 - 8)mmHg
   Total In:
                                                                  3,398 mL
                                                                    678 mL
   PO:
   TF:
                                                                    105 mL
   IVF:
                                                                  3,398 mL
                                                                    213 mL
   Blood products:
   Total out:
                                                                  2,540 mL
                                                                    680 mL
   Urine:
                                                                  2,540 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    858 mL
                                                                     -2 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 650 (600 - 650) mL
   Vt (Spontaneous): 740 (740 - 1,052) mL
   PS : 5 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 29 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: 7.37/48/109/27/2
   Ve: 14.5 L/min
   PaO2 / FiO2: 218
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 29 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: 7.37/48/109/27/2
   Ve: 14.5 L/min
   PaO2 / FiO2: 218
   Physical Examination
   GENERAL: bearded male appearing older than stated age, sedated,
   intubated, minimally responsive to verbal stimulus
   HEENT: No scleral icterus. Pupils 1mm and sluggish bilaterally. ETT in
   place, OP otherwise clear. Prominent frontal bossing and
   maxillary/mandibular protrusion; large coarse facial features. Wasting
   noted particularly in temporal regions.  Neck supple, No LAD, trachea
   midline. Fullness of thyroid gland without distinct nodules.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs,
   gallops appreciated although barrel-shaped chest makes heart sounds
   distant
   LYMPH: No axillary, inguinal, supraclavicular LAD.
   LUNGS: mild rhonchi and wheezing at bases, left greater than right.
   ABDOMEN: +bowel sounds. Soft, ND.  Liver 1cm below costal margin. No
   appreciable splenomegaly.
   EXTREMITIES: prominent and enlarged hands/feet, LEs appear edematous,
   2+ radial/dorsalis /pedis pulses. No cyanosis.
   SKIN: No rashes. Small bruises on R arm, tattoo on L forearm.
   NEURO: Limited secondary to sedation. Cannot appreciate R facial droop.
   Labs / Radiology
   144 K/uL
   8.0 g/dL
   120 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.3 mEq/L
   41 mg/dL
   106 mEq/L
   144 mEq/L
   23.8 %
   5.5 K/uL
        [image002.jpg]
                             [**2144-7-14**]  11:47 PM
                             [**2144-7-15**]  04:46 AM
                             [**2144-7-15**]  05:01 AM
                             [**2144-7-15**]  03:21 PM
                             [**2144-7-15**]  04:46 PM
                             [**2144-7-15**]  06:06 PM
                             [**2144-7-15**]  10:41 PM
                             [**2144-7-16**]  02:24 AM
                             [**2144-7-16**]  03:50 AM
                             [**2144-7-16**]  04:30 AM
   WBC
   6.1
   5.6
   5.5
   Hct
   23.9
   23.6
   27
   23.8
   Plt
   157
   148
   144
   Cr
   0.8
   0.5
   TCO2
   30
   28
   31
   31
   30
   30
   29
   Glucose
   159
   120
   Other labs: PT / PTT / INR:12.3/24.6/1.0, CK / CKMB /
   Troponin-T:138/3/0.02, ALT / AST:18/31, Alk Phos / T Bili:104/0.3,
   Differential-Neuts:66.0 %, Band:2.0 %, Lymph:16.0 %, Mono:8.0 %,
   Eos:1.0 %, Lactic Acid:3.9 mmol/L, Albumin:2.9 g/dL, LDH:3684 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.6 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   40M with tumor lysis syndrome, being worked up for new diagnoses of
   acromegaly and possible lymphoma, in ICU after respiratory distress
   leading to intubation and one episode hypotensive bradycardia, in the
   setting of pneumonia and respiratory/lactic acidosis. Original
   presenting complaint was Bell
s Palsy and urinary retention.
   Current work-up is considering ALL vs Burkitts.
   By system:
   Respiratory: Respiratory distress on [**7-13**] attributed to his
   respiratory/lactic acidosis with LLL PNA, possible infiltrative
   lymphangitic malignant process in both lungs, in the setting of
   aggressive fluid resuscitation. Patient also has a question of a
   history of COPD with significant smoking history (50+ pack years)
   -Advance ETT 1cm more because cuff appears to be above thoracic inlet
   -Switched from AC mode to pressure support [**5-19**] and well tolerated this
   morning. Given that and ABG as well as patient being more alert on
   increased sedation, work toward weaning the vent today.
   -sedation with fentanyl/midazolam, continue until ready to wean vent.
   -Continue antibiotics for PNA: CTX + Cipro
   -Repeat CXR for ETT placement
   -Repeat ABG today after changing vent settings.
   -f/u blood and sputum cx
   Cardiovascular: Persistent tachycardia to 120s for first couple days of
   admission on telemetry and EKG despite significant volume
   resuscitation. TSH WNL, TTE showed normal EF and no evidence of heart
   failure. Cardiology recommended metoprolol but this was d/c
ed after an
   episode of serious bradycardia requiring transcutaneous pacing on [**7-13**]
   as well as pressors. Cardiac enzymes not concerning for MI, slight
   elevation in troponin likely secondary to ARF.
   -Follow EKGs
   -Follow cardiology recs if they still would like to follow the patient
   -Avoid beta-blockers
   -Monitor CVP with fluids to a goal of [**10-26**] to protect his kidneys.
   -If becomes hypotensive and tachycardic, first choice pressor would be
   phenylephrine.
   Heme-Onc: Labs at admission included significantly elevated LDH,
   hypercalcemia, hyperkalemia, hyperphosphatemia, hyperuricemia. All
   trending down with IVF and single dose of rasbiricase. CT c/w
   lymphangitic spread of diffuse malignant process and patient also with
   concerning thickening in stomach, ureters, and possible mass at bottom
   of thoracic spine per MRI.
   -f/u Heme/Onc recs (bone marrow biopsy pending, current thinking is ALL
   versus Burkitt
s. challenging review in setting of steroid
   administration) and discuss chemotherapy plans
   -trend lysis labs (uric acid, LDH, K, phos, Ca) Q8H
   -start allopurinol given normalized Cr
   -repeat dose of rasbiracase 6mg x 1
   -EBV results
   -SPEP results
   -continue hydration
   -guaiac stools (Hct trending down since admission)
   Renal/FEN: Creatinine went from 0.6 at admission to max of 1.6,
   currently 0.8. ARF was attributed to ATN in the setting of high uric
   acid levels to 12 range.  Patient
s initial presentation was also
   urinary retention. U/S at OSH was reportedly normal. CT shows
   urothelial thickening and prostate may also be enlarged in the setting
   of acromegaly.
   -monitor BUN and Cr
   -continue fluids to CVP 10-12
   -avoid IV contrast, nephrotoxic meds until Cr stabilized
   -Electrolyte abnormalities all improving. Replete as needed.
   Endocrine: Per OSH records, he had an MRI/MRA head [**7-11**] which revealed
   a 19 x30x 15mm pituitary macroadenoma which had some invasion of left
   cavernous sinus. Acromegaly suspected and could help explain appearance
   and intial complaints of cranial nerve palsies, LE weakness, and
   urinary retention. Endocrinology consult called and patient has had
   normal TSH, low testosterone, LH elevated, slightly high cortisol
   levels. Prolactin is normal. PTH is normal. High [**Hospital1 **] at 11.2 and IGF was
   188.
   - f/u endocrine recs  (do they still want the following labs: free
   IGF-1(lab can instruct how to do this), IGFBP, repeat [**Hospital1 **], possible OGTT
   with [**Hospital1 **] levels 2hrs post 75g load, pituitary MRI, Vit D labs, UPEP
   - call for full opthalmology consult once alert and awake for thorough
   visual field tests
   -When stabilized, consider repeat Ca and PTH drawn at same time (PTH
   was normal in setting of high Ca)
   Neuro: MRI T-spine done and showed no overt compressions, but diffuse
   nerve root enhancement of lumbar spine and epidural signal changes at
   T9, T12, L2. Most likely from his overall infiltrative
   process/malignancy. Thoracic epidural enhancement on MRA, MRI
   concerning for possible masses.  Neurosurgery team is  following.
   Patient already on dexamethasone for malignancy treatment. No reported
   incontinence, only retention of urine but may be due to enlarged
   prostate from acromegaly vs additional obstruction at the level of
   ureter as imaging noted thickening of urothelial linings ( likely also
   related to underlying malignancy). Patient also initially presented
   with a Bell
s palsy, possibly related to acromegaly.
   -f/u with neurosurgery regarding T-spine mass and MRI of lumbar spine
   -better neuro exam as we wean sedation, particularly focused on cranial
   nerve
s V and VII
   -continue acyclovir
   ID: CXR on [**7-12**] showed LLL PNA, being treated with vanc and CTX.
   Patient also on Cipro for question of STI orchitis.
   -consider HIV test in setting of possible aggressive lymphoma
   -f/u EBV PCR
   -HIV test when patient alert and able to consent
   -d/c cipro
   -continue vanc and CTX for hospital-acquired PNA
   GU:  Initial complaint was urinary retention. Possibly secondary to
   enlarged prostate from acromegaly and/or urothelial thickening on CT.
   Tender scrotal swelling also noted on admission and scrotal US
   suggested epididymitis/orchitis. No clear mass was identified and G&C
   swab was negative. [**Month (only) 11**] be related to anasarca and malignancy work-up.
   Hcg and AFP negative.
   -Foley in place
   -Closely monitor UOP given recent h/o retention.
   MSK: Patient complained of diffuse arthralgias, most likely secondary
   to hypertrophic arthropathy from acromegaly, possible infiltrative
   process.
   -avoiding NSAIDs
   -tylenol when awake
   -continue pain control with fentanyl
   ICU Care
   Nutrition:  Tube feeds
   Glycemic Control:
   Lines:
   18 Gauge
 L antecubital [**2144-7-13**] 04:31 AM
   18 Gauge
 RL post forearm
   Multi Lumen - [**2144-7-13**] 10:03 AM
   Arterial Line - [**2144-7-13**] 02:00 PM
   Prophylaxis:
   DVT: Subcutaneous Heparin
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  [**Name (NI) 1068**] [**Name (NI) 7003**] (HCP) at [**Telephone/Fax (1) 7004**] or [**Telephone/Fax (1) 7020**]
   Code status: full code
   Disposition: [**Hospital Unit Name 10**] for now, pending above assessments and additional
   workup for malignancy

2144-07-16 11:04:00 Physician Attending Progress Note
Chief Complaint: Respriatory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated yesterday afternoon.  Copious oral secretions developed
   throughout day, poor handling with poorly effective cough requiring
   frequent suctioning and declining SaO2.
   Re-intubated last PM.
   Remains intubated, mechanically ventilated.
   Numerous ventricular ectopy, non-malignant.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ett
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2144-7-14**] 11:32 PM
   Ceftriaxone - [**2144-7-16**] 04:29 AM
   Vancomycin - [**2144-7-16**] 07:57 AM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl (Concentrate) - 350 mcg/hour
   Other ICU medications:
   Fentanyl - [**2144-7-15**] 09:00 PM
   Famotidine (Pepcid) - [**2144-7-16**] 04:29 AM
   Heparin Sodium (Prophylaxis) - [**2144-7-16**] 07:58 AM
   Midazolam (Versed) - [**2144-7-16**] 08:48 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2144-7-16**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 35.8
C (96.5
   HR: 112 (98 - 122) bpm
   BP: 126/58(75) {106/49(70) - 160/79(104)} mmHg
   RR: 24 (13 - 29) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 81.9 kg (admission): 81.7 kg
   Height: 69 Inch
   CVP: 8 (6 - 8)mmHg
   Total In:
                                                                  3,398 mL
                                                                  1,326 mL
   PO:
   TF:
                                                                    230 mL
   IVF:
                                                                  3,398 mL
                                                                    516 mL
   Blood products:
   Total out:
                                                                  2,540 mL
                                                                  1,070 mL
   Urine:
                                                                  2,540 mL
                                                                  1,070 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    858 mL
                                                                    256 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 650 (600 - 650) mL
   Vt (Spontaneous): 740 (740 - 1,052) mL
   PS : 5 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   Plateau: 19 cmH2O
   SpO2: 98%
   ABG: 7.37/48/109/27/2
   Ve: 15.3 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: No(t) Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube, Acromegally
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , Crackles : , No(t) Bronchial: , No(t) Wheezes
   : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.0 g/dL
   144 K/uL
   120 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.3 mEq/L
   41 mg/dL
   106 mEq/L
   144 mEq/L
   23.8 %
   5.5 K/uL
        [image002.jpg]
                             [**2144-7-14**]  11:47 PM
                             [**2144-7-15**]  04:46 AM
                             [**2144-7-15**]  05:01 AM
                             [**2144-7-15**]  03:21 PM
                             [**2144-7-15**]  04:46 PM
                             [**2144-7-15**]  06:06 PM
                             [**2144-7-15**]  10:41 PM
                             [**2144-7-16**]  02:24 AM
                             [**2144-7-16**]  03:50 AM
                             [**2144-7-16**]  04:30 AM
   WBC
   6.1
   5.6
   5.5
   Hct
   23.9
   23.6
   27
   23.8
   Plt
   157
   148
   144
   Cr
   0.8
   0.5
   TCO2
   30
   28
   31
   31
   30
   30
   29
   Glucose
   159
   120
   Other labs: PT / PTT / INR:12.3/24.6/1.0, CK / CKMB /
   Troponin-T:138/3/0.02, ALT / AST:18/31, Alk Phos / T Bili:104/0.3,
   Differential-Neuts:62.0 %, Band:8.0 %, Lymph:18.0 %, Mono:9.0 %,
   Eos:2.0 %, Lactic Acid:3.9 mmol/L, Albumin:2.9 g/dL, LDH:3684 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.6 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE --  multifactorial.  Re-intubated for difficulty
   handling copious oral secretions.  Also contibution of pneumonia LLL
   (possible aspiration), diffuse bronchovascular disease with
   lymphangitic engorgement, and possible underlying COPD (tobacco abuse
   history, enlarged lung fields).   Improved on mechanical ventilation.
   Monitor ABG, maintain pH 7.35-7.40, pO2 >60 mmHg.  Continue
   antimicrobials.  Hope to work towards SBT and extubation trial.
   FEVERS
 persistent, possible underlying systemic process (such as
   symptoms from maligancy) or infection (ex. Pneumonia).  Unrevealing
   imaging.  Cultures pending.  Monitor fevers, use coolig blanket.
   Continue empiric antimicrobials (Vanco, ceftriaxone, Ciprofloxicin)
   ABN BONE MARROW -- biopsy unrevealing for specific diagnosis.  Necrosis
   and many small cells of unclear etiology.  Next plan for peripherlal
   blood sample for flow cytometry analysis.  Will also send bronchoscopy
   BAL for flow cytometry.  Consider repeat Bone Marrow Bx.
   TACHYCARDIA -- consistent with sinus tachycardia with APCs.  Monitor.
   HYPOTENSION
 concern for sepsis and component of hypovolemia.  No
   evidence for adrenal insufficiency.  Improved, and now off
   vasopressors.   Maintain = CVP 10-12 cm H2O.
   FLUIDS
 need to further assess intravascular status.  [**Month (only) 11**] require iv
   fluid bolus to maintain.  Follow CVP= 10-12 cm H2O.
   ACUTE RENAL FAILURE -- Improving following resuscitation.  Attributed
   to ATN, possible tumor lysis syndrome, bilateral obstruction, drug
   effect.  Creatinine now at baseline.
   TUMOR LYSIS SYNDROME
  unclear etiology.  Continue Rasburicase,
   Allopurinol.  Trend electrolytes q8 hrs.  Oncology preliminary
   impression favors ALL/AML
 bone marrow results pending.  Continue
   dexamethasone.
   ACROMEGALLY
 Reportedly with evidnece for Pituitary adenoma.
   Evaluation in progresss.
   NUTRITIONAL SUPPORT
 initiate TF if no plans for procedures.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2144-7-16**] 02:23 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2144-7-13**] 10:03 AM
   Arterial Line - [**2144-7-13**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  ICU
   Total time spent: 35 minutes
   Patient remains critically ill

2144-07-17 06:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 40M with tumor lysis syndrome, being worked up for
   acromegaly and possible lymphoma, in ICU after respiratory distress
   leading to intubation and one episode hypotensive bradycardia, in the
   setting of pneumonia and respiratory/lactic acidosis.
   24 Hour Events:
   - Pt bronched, BAL sent for flow cytometry, stains, cx
   - Neurosurg feels that paraspinous mass can be biopsied--call in AM
   - propofol drip started for better sedation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2144-7-14**] 11:32 PM
   Vancomycin - [**2144-7-16**] 04:12 PM
   Ceftriaxone - [**2144-7-17**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Propofol - 30 mcg/Kg/min
   Fentanyl (Concentrate) - 325 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2144-7-16**] 11:48 AM
   Heparin Sodium (Prophylaxis) - [**2144-7-16**] 09:00 PM
   Propofol - [**2144-7-17**] 02:47 AM
   Famotidine (Pepcid) - [**2144-7-17**] 04:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-7-17**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 116 (108 - 126) bpm
   BP: 147/64(83) {118/49(66) - 147/73(90)} mmHg
   RR: 26 (20 - 27) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 81.9 kg (admission): 81.7 kg
   Height: 69 Inch
    CVP: 7 (5 - 12)mmHg
   Total In:
                                                                  2,811 mL
                                                                    582 mL
   PO:
   TF:
                                                                    704 mL
                                                                    282 mL
   IVF:
                                                                  1,186 mL
                                                                    299 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                    470 mL
   Urine:
                                                                  2,000 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    811 mL
                                                                    112 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 650 (650 - 650) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 16 cmH2O
   Compliance: 65 cmH2O/mL
   SpO2: 99%
   ABG: 7.42/47/122/28/5
   Ve: 15.4 L/min
   PaO2 / FiO2: 244
   Physical Examination:
   GENERAL: bearded male appearing older than stated age, sedated,
   intubated, opens eyes temporarily and nods to verbal stimulus
   HEENT: No scleral icterus. Pupils 1mm and sluggish bilaterally. ETT and
   OGT in place, OP otherwise clear. Prominent frontal bossing and
   maxillary/mandibular protrusion; large coarse facial features. Wasting
   noted particularly in temporal regions.  Neck supple, No LAD, trachea
   midline. Fullness of thyroid gland without distinct nodules.
   CARDIAC: Regular rate, rhythm. Normal S1, S2. No murmurs, rubs, gallops
   appreciated although barrel-shaped chest makes heart sounds distant.
   Larger amount of PVCs.
   LYMPH: No axillary, inguinal, supraclavicular LAD.
   LUNGS: diffuse wheezing on left. No crackles.
   ABDOMEN: decreased bowel sounds. Soft, ND.  Liver 1cm below costal
   margin. No appreciable splenomegaly.
   EXTREMITIES: prominent and enlarged hands/feet, LEs appear edematous,
   2+ radial/dorsalis pedis/posterior tibial pulses. No cyanosis.
   SKIN: No rashes. Small bruises on R arm, tattoo on L forearm.
   NEURO: Limited secondary to sedation. Cannot appreciate R facial droop.
   Normal tone. Patient moves both arms and legs spontaneously.
   Labs / Radiology
   140 K/uL
   7.8 g/dL
   112 mg/dL
   0.5 mg/dL
   28 mEq/L
   4.3 mEq/L
   27 mg/dL
   109 mEq/L
   149 mEq/L
   22.1 %
   5.8 K/uL
        [image002.jpg]
                             [**2144-7-15**]  03:21 PM
                             [**2144-7-15**]  04:46 PM
                             [**2144-7-15**]  06:06 PM
                             [**2144-7-15**]  10:41 PM
                             [**2144-7-16**]  02:24 AM
                             [**2144-7-16**]  03:50 AM
                             [**2144-7-16**]  04:30 AM
                             [**2144-7-16**]  03:52 PM
                             [**2144-7-17**]  04:44 AM
                             [**2144-7-17**]  05:17 AM
   WBC
   5.5
   5.5
   5.8
   Hct
   27
   23.8
   22.4
   22.1
   Plt
   144
   140
   140
   Cr
   0.5
   0.5
   TCO2
   28
   31
   31
   30
   30
   29
   32
   Glucose
   120
   112
   Other labs: PT / PTT / INR:12.9/25.9/1.1, CK / CKMB /
   Troponin-T:138/3/0.02, ALT / AST:18/31, Alk Phos / T Bili:104/0.3,
   Differential-Neuts:52.0 %, Band:4.0 %, Lymph:32.0 %, Mono:6.0 %,
   Eos:0.0 %, Lactic Acid:2.8 mmol/L, Albumin:2.9 g/dL, LDH:3020 IU/L,
   Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.2 mg/dL, Uric acid 1.1 mg/Dl
   MICROBIOLOGY:
   -BAL: negative ADENO,PARAINFLUENZA 1,2,3 INFLUENZA A,B AND, RSV
   -BAL: negative gram stain
   -Sputum cx: yeast
   PATHOLOGY:
   BM bx ([**7-13**]): c/w malignant lymphocytes possibly of B cell lineage.
   Sample compromised severely due to pre-treatment with steroids.
   Peripheral blood flow cytometry ([**7-13**]): Non-diagnostic.
   IMAGING:
   CXR ([**7-15**]): mild pulm vasc congestion, new parenchymal opacity at L lung
   apex and worsening opacity at R lung base. [**Month (only) 11**] be c/w aspiration. LLL
   opacity improved, new small R pleural effusion.
   Assessment and Plan
   40M with resolving tumor lysis syndrome, being worked up for new
   diagnoses of presumptive lymphoma and acromegaly, in ICU after
   respiratory distress leading to intubation and one episode hypotensive
   bradycardia, in the setting of pneumonia and respiratory/lactic
   acidosis. Original presenting complaint was Bell
s Palsy, urinary
   retention, and lower extremity weakness.
   Currently trying to obtain tissue for definitive lymphoma diagnosis
   from BAL, peripheral blood, and paraspinal mass.
   By system:
   Respiratory: Intubated, on assist control mode for past 36 hours after
   failed extubation secondary to copious secretions. Being treated for
   PNA, suspicion for infiltrative lymphangitic malignant process based on
   chest CT.
   -Continue ventilation and sedation with propofol/fentanyl/midazolam
   -Wean to pressure support as tolerated.
   -Daily CXR
   -Obtain better COPD history
   -Continue abx for 2 more days (7 day total)
   -Continue ABG twice daily from art line or if changes in respiratory
   status
   -f/u blood cx
   Cardiovascular: Tachycardic to 110s/120s. TSH WNL, TTE showed normal EF
   and no evidence of heart failure. EKG yesterday showed frequent PVCs,
   no signs of myocardial ischemia.
   -Start metoprolol 25mg PO TID and titrate as needed.
   -f/u other cardiology recs
   -transfuse if Hct<21
   -guaiac stool
   Heme-Onc: Labs at admission included significantly elevated LDH,
   hypercalcemia, hyperkalemia, hyperphosphatemia, hyperuricemia c/w tumor
   lysis syndrome. All trended down and now normal. Now s/p 2 doses
   rasburicase. CT also shows evidence of malignancy
 c/w lymphangitic
   spread of diffuse malignant process, thickening in stomach, ureters.
   Bone marrow biopsy inadequate secondary to necrosis, now trying to
   obtain diagnosis from alternate tissue.
   -f/u Heme/Onc recs
   -continue to trend lysis labs (uric acid, LDH, K, phos, Ca) daily
   -continue allopurinol
   -d/c dexamethasone today
   -daily differential
   -BAL flow cytometry and cytology pending
   -biopsy of paraspinal mass not possible per IR. Plan to repeat bone
   marrow bx on monday
   Renal/FEN: ARF seems to be resolving with Cre back at baseline of 0.5.
   Patient has Foley so h/o urinary retention has not been an issue. This
   will need to be monitored when Foley is eventually removed.
   -monitor BUN and Cr
   -d/c IVF, start again if CVP<8
   -avoid IV contrast, nephrotoxic meds for now
   -Electrolyte abnormalities all improving. Replete as needed
   Endocrine: New diagnosis of acromegaly; MRI/MRA shows pituitary
   macroadenoma (presumptive source). This may help explain initial
   complaints of cranial nerve palsies, LE weakness, and urinary retention
   although follow-up for these complaints will be required when patient
   is extubated and stabilized. Only endocrine lab abnormalities to date
   are an elevated [**Hospital1 **] and LH and a low testosterone. Interestingly, IGF-1
   was normal, although this is not reliable in acute illness. Free IGF-1
   level requested by endocrine was not possible at our lab. Repeat Ca and
   PTH were both normal, eliminating suspicion for parathyroid process.
   -f/u endocrine recs
   -f/u endocrine labs (IGFBP, Vit D)
   -consider OGTT in future
   -ophtho consult for visual fields when patient extubated/alert
   Neuro: MRI T-spine at OSH showed epidural enhancement concerning for
   possible masses.
   -IR to biopsy paraspinal mass
   -neurosurgery has low suspicion for cord compression and repeat MRI of
   spine not necessary.
   -Repeat MRI of pituitary eventually needed although in light of recent
   ARF, this is not a priority and can wait until patient stabilized.
   -better neuro exam as we wean sedation, particularly focused on cranial
   nerve
s V and VII and lower extremity sensation/motor
   ID: CXR on [**7-12**] showed LLL PNA, being treated with vanc (since [**7-13**])
   and CTX (since [**7-14**]). ID approval was received for vanc. CXR on [**7-15**]
   newly concerning for aspiration.
   -Continue abx for hospital-acquired PNA. Day 5 vancomycin, Day 4 CTX.
   Continue to day 7.
   -Add gram-negative coverage for suspected aspiration PNA.
   -urine cx negative; sputum cx grew yeast; blood cx from [**7-13**] pending
   -HIV test when patient alert and able to consent
   -EBV IgG negative, IgM and PCR pending
   -Legionella negative
   - negative ADENO,PARAINFLUENZA 1,2,3 INFLUENZA A,B AND, RSV
   GU:  Initial complaint was urinary retention. Possibly secondary to
   enlarged prostate from acromegaly and/or urothelial thickening on CT.
   Tender scrotal swelling also noted on admission and scrotal US
   suggested epididymitis/orchitis. No clear mass was identified and G&C
   swab was negative. [**Month (only) 11**] be related to anasarca and malignancy work-up.
   -Foley in place
   -When patient extubated/stabilized and Foley removed, close follow-up
   will be needed for h/o urinary retention as well as presumptive
   diagnosis of orchitis. No treatment currently given negative G&C swab.
   -Monitor UOP
   MSK: Patient has severe and diffuse arthralgias, most likely secondary
   to hypertrophic arthropathy from acromegaly.
   -avoiding NSAIDs
   -tylenol when awake
   -continue pain control with fentanyl
   ICU Care
   Nutrition: Tube feeds, Replete with Fiber (Full) - [**2144-7-17**] 03:50 AM
   50 mL/hour
   Glycemic Control:  ISS
   Lines:
   R IJ Multi Lumen - [**2144-7-13**] 10:03 AM
   L Arterial Line - [**2144-7-13**] 02:00 PM
   Prophylaxis:
   DVT: SCH
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL CODE
   Disposition: pending improvement in respiratory status and work-up for
   lymphoma
   ------ Protected Section ------
   I have seen and examined the patient with Ms. [**Name13 (STitle) 7068**] and agree with the
   above assesment and plan.  We have reviewed the plan with the attending
   physician and nurse.
   [**First Name4 (NamePattern1) 2021**] [**Last Name (NamePattern1) 2355**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 2021**] [**Last Name (NamePattern1) 2355**], MD
   on:[**2144-7-17**] 20:06 ------

2144-07-17 08:09:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2144-7-16**] 11:09 AM
 SPUTUM CULTURE - At [**2144-7-16**] 11:47 AM
   fungal/afb/viral/from bronch
 EKG - At [**2144-7-16**] 03:34 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2144-7-14**] 11:32 PM
   Vancomycin - [**2144-7-16**] 04:12 PM
   Ceftriaxone - [**2144-7-17**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Propofol - 30 mcg/Kg/min
   Fentanyl (Concentrate) - 325 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2144-7-16**] 11:48 AM
   Heparin Sodium (Prophylaxis) - [**2144-7-16**] 09:00 PM
   Propofol - [**2144-7-17**] 02:47 AM
   Famotidine (Pepcid) - [**2144-7-17**] 04:37 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-7-17**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.9
C (100.3
   HR: 114 (108 - 126) bpm
   BP: 133/57(77) {118/49(66) - 147/73(90)} mmHg
   RR: 23 (20 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.9 kg (admission): 81.7 kg
   Height: 69 Inch
   CVP: 6 (5 - 12)mmHg
   Total In:
                                                                  2,811 mL
                                                                    730 mL
   PO:
   TF:
                                                                    704 mL
                                                                    368 mL
   IVF:
                                                                  1,186 mL
                                                                    363 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                    470 mL
   Urine:
                                                                  2,000 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    811 mL
                                                                    260 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 650 (650 - 650) mL
   RR (Set): 22
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 16 cmH2O
   Compliance: 65 cmH2O/mL
   SpO2: 99%
   ABG: 7.42/47/122/28/5
   Ve: 13.3 L/min
   PaO2 / FiO2: 244
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.8 g/dL
   140 K/uL
   112 mg/dL
   0.5 mg/dL
   28 mEq/L
   4.3 mEq/L
   27 mg/dL
   109 mEq/L
   149 mEq/L
   22.1 %
   5.8 K/uL
        [image002.jpg]
                             [**2144-7-15**]  03:21 PM
                             [**2144-7-15**]  04:46 PM
                             [**2144-7-15**]  06:06 PM
                             [**2144-7-15**]  10:41 PM
                             [**2144-7-16**]  02:24 AM
                             [**2144-7-16**]  03:50 AM
                             [**2144-7-16**]  04:30 AM
                             [**2144-7-16**]  03:52 PM
                             [**2144-7-17**]  04:44 AM
                             [**2144-7-17**]  05:17 AM
   WBC
   5.5
   5.5
   5.8
   Hct
   27
   23.8
   22.4
   22.1
   Plt
   144
   140
   140
   Cr
   0.5
   0.5
   TCO2
   28
   31
   31
   30
   30
   29
   32
   Glucose
   120
   112
   Other labs: PT / PTT / INR:12.9/25.9/1.1, CK / CKMB /
   Troponin-T:138/3/0.02, ALT / AST:18/31, Alk Phos / T Bili:104/0.3,
   Differential-Neuts:52.0 %, Band:4.0 %, Lymph:32.0 %, Mono:6.0 %,
   Eos:0.0 %, Lactic Acid:2.8 mmol/L, Albumin:2.9 g/dL, LDH:2700 IU/L,
   Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE --  multifactorial.  Re-intubated for difficulty
   handling copious oral secretions.  Also contibution of pneumonia LLL
   (possible aspiration), diffuse bronchovascular disease with
   lymphangitic engorgement, and possible underlying COPD (tobacco abuse
   history, enlarged lung fields).   Improved on mechanical ventilation.
   Monitor ABG, maintain pH 7.35-7.40, pO2 >60 mmHg.  Continue
   antimicrobials.  Hope to work towards SBT and extubation trial.
   FEVERS
 persistent, possible underlying systemic process (such as
   symptoms from maligancy) or infection (ex. Pneumonia).  Unrevealing
   imaging.  Cultures pending.  Monitor fevers, use coolig blanket.
   Continue empiric antimicrobials (Vanco, ceftriaxone, Ciprofloxicin)
   ABN BONE MARROW -- biopsy unrevealing for specific diagnosis.  Necrosis
   and many small cells of unclear etiology.  Next plan for peripherlal
   blood sample for flow cytometry analysis.  Will also send bronchoscopy
   BAL for flow cytometry.  Consider repeat Bone Marrow Bx.
   TACHYCARDIA -- consistent with sinus tachycardia with APCs.  Monitor.
   HYPOTENSION
 concern for sepsis and component of hypovolemia.  No
   evidence for adrenal insufficiency.  Improved, and now off
   vasopressors.   Maintain = CVP 10-12 cm H2O.
   FLUIDS
 need to further assess intravascular status.  [**Month (only) 11**] require iv
   fluid bolus to maintain.  Follow CVP= 10-12 cm H2O.
   ACUTE RENAL FAILURE -- Improving following resuscitation.  Attributed
   to ATN, possible tumor lysis syndrome, bilateral obstruction, drug
   effect.  Creatinine now at baseline.
   TUMOR LYSIS SYNDROME
  unclear etiology.  Continue Rasburicase,
   Allopurinol.  Trend electrolytes q8 hrs.  Oncology preliminary
   impression favors ALL/AML
 bone marrow results pending.  Continue
   dexamethasone.
   ACROMEGALLY
 Reportedly with evidnece for Pituitary adenoma.
   Evaluation in progresss.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2144-7-17**] 03:50 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2144-7-13**] 10:03 AM
   Arterial Line - [**2144-7-13**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2144-07-18 06:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - 1 unit PRBCs, Hct 22.8-->25.7
25.2 this am
   - Recieved 1L NS bolus and 500 CC NS bolus for decreased UOP/ cards
   recs
   - Increased metoprolol to 37.5 mg tid
   - Spoke at length with family
   - Failed RISB this morning, does well on PS when more sedate, but once
   lighten sedation he develops labored breathing and fails.  Anxious.
   Secretions mostly above the cuff.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2144-7-18**] 12:01 AM
   Ceftriaxone - [**2144-7-18**] 03:45 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Propofol - 50 mcg/Kg/min
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Metoprolol - [**2144-7-17**] 12:07 PM
   Midazolam (Versed) - [**2144-7-17**] 01:44 PM
   Heparin Sodium (Prophylaxis) - [**2144-7-17**] 10:00 PM
   Famotidine (Pepcid) - [**2144-7-18**] 03:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-7-18**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.7
C (99.9
   HR: 123 (110 - 127) bpm
   BP: 167/76(103) {107/44(64) - 187/76(104)} mmHg
   RR: 23 (17 - 28) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 79.1 kg (admission): 81.7 kg
   Height: 69 Inch
    CVP: 18 (4 - 18)mmHg
   Total In:
                                                                  4,320 mL
                                                                  1,746 mL
   PO:
   TF:
                                                                    950 mL
                                                                    403 mL
   IVF:
                                                                  2,645 mL
                                                                  1,043 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,210 mL
                                                                    365 mL
   Urine:
                                                                  1,210 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,110 mL
                                                                  1,381 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 650 (650 - 650) mL
   Vt (Spontaneous): 535 (535 - 853) mL
   PS : 15 cmH2O
   RR (Set): 22
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 72
   PIP: 21 cmH2O
   Plateau: 20 cmH2O
   SpO2: 91%
   ABG: 7.41/46/101/26/3
   Ve: 14 L/min
   PaO2 / FiO2: 202
   Physical Examination
   GENERAL: bearded male appearing older than stated age, sedated,
   intubated, opens eyes temporarily and nods to verbal stimulus
   HEENT: No scleral icterus. Pupils 1mm and sluggish bilaterally. ETT and
   OGT in place, OP otherwise clear. Prominent frontal bossing and
   maxillary/mandibular protrusion; large coarse facial features. Wasting
   noted particularly in temporal regions.  Neck supple, No LAD, trachea
   midline. Fullness of thyroid gland without distinct nodules.
   CARDIAC: difficult to hear due to loud lung sounds. S1, S2, significant
   mechanical-electrical dissociation
   LYMPH: No axillary, inguinal, supraclavicular LAD.
   LUNGS: diffuse bilateral rhonchi and wheezing
   ABDOMEN: decreased bowel sounds. Soft, ND.  Liver 1cm below costal
   margin. No appreciable splenomegaly.
   GU: left testicle markedly swollen
   EXTREMITIES: prominent and enlarged hands/feet, LEs appear edematous,
   2+ radial/dorsalis pedis/posterior tibial pulses. No cyanosis.
   SKIN: No rashes. Small bruises on R arm, tattoo on L forearm.
   NEURO: Limited secondary to sedation. Cannot appreciate R facial droop.
   Normal tone. Patient moves both arms and legs spontaneously.
   Labs / Radiology
   123 K/uL
   8.8 g/dL
   87 mg/dL
   0.4 mg/dL
   26 mEq/L
   3.6 mEq/L
   22 mg/dL
   109 mEq/L
   145 mEq/L
   25.2 %
   5.8 K/uL
        [image002.jpg]
                             [**2144-7-16**]  03:52 PM
                             [**2144-7-17**]  04:44 AM
                             [**2144-7-17**]  05:17 AM
                             [**2144-7-17**]  11:55 AM
                             [**2144-7-17**]  01:59 PM
                             [**2144-7-17**]  03:01 PM
                             [**2144-7-17**]  03:22 PM
                             [**2144-7-17**]  10:09 PM
                             [**2144-7-18**]  04:31 AM
                             [**2144-7-18**]  04:53 AM
   WBC
   5.5
   5.8
   Hct
   22.4
   22.1
   22.8
   25.7
   25.2
   Plt
   140
   140
   123
   Cr
   0.5
   0.4
   TCO2
   32
   31
   30
   31
   30
   Glucose
   112
   87
   Other labs: PT / PTT / INR:12.9/25.9/1.1, CK / CKMB /
   Troponin-T:138/3/0.02, ALT / AST:18/31, Alk Phos / T Bili:104/0.3,
   Differential-Neuts:52.0 %, Band:4.0 %, Lymph:32.0 %, Mono:6.0 %,
   Eos:0.0 %, Lactic Acid:2.8 mmol/L, Albumin:2.9 g/dL, LDH:2960 IU/L,
   Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL, Uric acid 1.4
   Urine Na 23 meq/L
   Assessment and Plan
   40M with resolving tumor lysis syndrome, being worked up for new
   diagnoses of presumptive lymphoma and acromegaly, in ICU after
   respiratory distress leading to intubation and one episode hypotensive
   bradycardia, in the setting of pneumonia and respiratory/lactic
   acidosis. Original presenting complaint was Bell
s Palsy, urinary
   retention, and lower extremity weakness.
   Currently trying to obtain tissue for definitive lymphoma diagnosis
   from BAL, peripheral blood, and paraspinal mass.
   By system:
   Respiratory: Intubated, on assist control s/p 1 failed extubation
   secondary to copious secretions. Has continued to fail daily breathing
   trial. Being treated for PNA, suspicion for infiltrative lymphangitic
   malignant process based on chest CT.
   -Continue ventilation and sedation with propofol/fentanyl/midazolam
   -Wean to pressure support as tolerated
   -Daily CXR
   -Consider expanding antibiotic regimen to vanc/zosyn plus flagyl for
   anaerobes due to possibility of aspiration and opacity in RLL that is
   not resolving
   -Continue ABG twice daily from art line or if changes in respiratory
   status
   Cardiovascular: Tachycardic to 110s/120s. TSH WNL, TTE showed normal EF
   and no evidence of heart failure. Repeat EKGs have showed no signs of
   myocardial ischemia. Remains tachycardic despite fluid boluses,
   addition of metoprolol, one transfusion. Urine Na 23meq/L suggesting
   absence of hypovolemia.
   -Continue metoprolol 37.5mg TID and titrate up as needed
   -Monitor UOP (currently 30-90mL/hr) and bolus as needed
   -f/u other cardiology recs
   -transfuse again if Hct<21
   -guaiac stool
   Heme-Onc: Labs at admission included significantly elevated LDH,
   hypercalcemia, hyperkalemia, hyperphosphatemia, hyperuricemia c/w tumor
   lysis syndrome. All trended down and now normal. Now s/p 2 doses
   rasburicase. CT also shows evidence of malignancy
 c/w lymphangitic
   spread of diffuse malignant process, thickening in stomach, ureters.
   Bone marrow biopsy inadequate secondary to necrosis, now trying to
   obtain diagnosis from alternate tissue.
   -f/u Heme/Onc recs
   -continue to trend lysis labs (uric acid, LDH, K, phos, Ca) daily
   -continue allopurinol
   -daily differential
   -repeat bone marrow bx on Monday
   -f/u cytogenetics labs (Bcr-abl and FISH for 9,22 translocation)
   Renal/FEN: Cre at baseline. Patient has Foley so h/o urinary retention
   has not been an issue. This will need to be monitored when Foley is
   eventually removed. UOP 25-90 cc/hr
   -hypernatremia likely secondary to dehydration
   -monitor BUN and Cr
   -bolus IVF as needed
   -avoid IV contrast, nephrotoxic meds for now
   -Electrolyte abnormalities all improving. Replete as needed
   Endocrine: New diagnosis of acromegaly. Per endocrine, further work-up
   is of no additional value during acute illness. Labs and confirmation
   of dx as well as additional imaging can be obtained when patient is
   stabilized.
   -f/u endocrine recs
   -f/u endocrine labs (IGFBP, Vit D)
   -consider OGTT in future
   -ophtho consult for visual fields when patient extubated/alert
   Neuro: MRI T-spine at OSH showed epidural enhancement concerning for
   possible masses.
   -neurosurgery has low suspicion for cord compression and repeat MRI of
   spine not necessary.
   -Repeat MRI of pituitary eventually needed although in light of recent
   ARF, this is not a priority and can wait until patient stabilized.
   -better neuro exam as we wean sedation, particularly focused on cranial
   nerve
s V and VII and lower extremity sensation/motor
   ID: CXR on [**7-12**] showed LLL PNA, being treated with vanc (since [**7-13**])
   and CTX (since [**7-14**]). ID approval was received for vanc. CXR on [**7-15**]
   newly concerning for aspiration.
   -On abx for hospital-acquired PNA. Day 6 vancomycin, Day 5 CTX.
   Consider expanding regimen and duration.
   -Add gram-negative coverage for suspected aspiration PNA.
   -Repeat blood cx with spikes
   -urine cx negative; sputum cx grew yeast; blood cx from [**7-13**] pending
   -HIV test when patient alert and able to consent
   -EBV IgG negative, IgM and PCR pending
   GU:  Tender scrotal swelling noted on admission and scrotal US
   suggested epididymitis/orchitis. No clear mass was identified and G&C
   swab was negative. Exam today shows marked increase in testicular
   swelling, especially on the left.
   -f/u urinary retention and orchitis when patient stabilized. Orchitis
   likely secondary to infiltration.
   MSK: Patient has severe and diffuse arthralgias, most likely secondary
   to hypertrophic arthropathy from acromegaly.
   -avoiding NSAIDs
   -tylenol when awake
   -continue pain control with fentanyl
   ICU Care
   Nutrition: Tube feeds, Replete with Fiber (Full) - [**2144-7-17**] 03:50 AM
   50 mL/hour
   Glycemic Control:  ISS
   Lines:
   R IJ Multi Lumen - [**2144-7-13**] 10:03 AM
   L Arterial Line - [**2144-7-13**] 02:00 PM
   Prophylaxis:
   DVT: SCH
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL CODE
   Disposition: pending improvement in respiratory status and work-up for
   lymphoma

2144-07-18 08:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Converted to PSV
   Metoprolol increased, given IVF and PRBCs for tachy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2144-7-18**] 12:01 AM
   Ceftriaxone - [**2144-7-18**] 03:45 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2144-7-17**] 12:07 PM
   Midazolam (Versed) - [**2144-7-17**] 01:44 PM
   Heparin Sodium (Prophylaxis) - [**2144-7-17**] 10:00 PM
   Famotidine (Pepcid) - [**2144-7-18**] 03:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-7-18**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.7
C (99.9
   HR: 127 (110 - 127) bpm
   BP: 131/55(78) {107/44(64) - 187/76(104)} mmHg
   RR: 26 (17 - 28) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 79.1 kg (admission): 81.7 kg
   Height: 69 Inch
   CVP: 6 (4 - 18)mmHg
   Total In:
                                                                  4,320 mL
                                                                  1,919 mL
   PO:
   TF:
                                                                    950 mL
                                                                    507 mL
   IVF:
                                                                  2,645 mL
                                                                  1,112 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,210 mL
                                                                    395 mL
   Urine:
                                                                  1,210 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,110 mL
                                                                  1,524 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 650 (650 - 650) mL
   Vt (Spontaneous): 532 (532 - 853) mL
   PS : 15 cmH2O
   RR (Set): 22
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 72
   PIP: 21 cmH2O
   Plateau: 20 cmH2O
   SpO2: 96%
   ABG: 7.41/46/101/26/3
   Ve: 13.5 L/min
   PaO2 / FiO2: 202
   Physical Examination
   Intubated, sedated, not following commands
   Congested upper airway sounds
   Distant hrt sounds
   Abd benign, hypoactive
   Extreme no edema
   Labs / Radiology
   8.8 g/dL
   123 K/uL
   87 mg/dL
   0.4 mg/dL
   26 mEq/L
   3.6 mEq/L
   22 mg/dL
   109 mEq/L
   145 mEq/L
   25.2 %
   9.5 K/uL
        [image002.jpg]
                             [**2144-7-16**]  03:52 PM
                             [**2144-7-17**]  04:44 AM
                             [**2144-7-17**]  05:17 AM
                             [**2144-7-17**]  11:55 AM
                             [**2144-7-17**]  01:59 PM
                             [**2144-7-17**]  03:01 PM
                             [**2144-7-17**]  03:22 PM
                             [**2144-7-17**]  10:09 PM
                             [**2144-7-18**]  04:31 AM
                             [**2144-7-18**]  04:53 AM
   WBC
   5.5
   5.8
   9.5
   Hct
   22.4
   22.1
   22.8
   25.7
   25.2
   Plt
   140
   140
   123
   Cr
   0.5
   0.4
   TCO2
   32
   31
   30
   31
   30
   Glucose
   112
   87
   Other labs: PT / PTT / INR:12.9/25.9/1.1, CK / CKMB /
   Troponin-T:138/3/0.02, ALT / AST:18/31, Alk Phos / T Bili:104/0.3,
   Differential-Neuts:36.0 %, Band:13.0 %, Lymph:29.0 %, Mono:2.0 %,
   Eos:2.0 %, Lactic Acid:2.8 mmol/L, Albumin:2.9 g/dL, LDH:2960 IU/L,
   Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE --  multifactorial.  Re-intubated for difficulty
   handling copious oral secretions.  Also contibution of pneumonia,
   diffuse bronchovascular disease with lymphangitic engorgement, and
   possible underlying COPD (tobacco abuse history, enlarged lung
   fields).  Monitor ABG, maintain pH 7.35-7.40, pO2 >60 mmHg.  Continue
   antimicrobials.  Hope to work towards SBT and extubation trial.
   FEVERS, likely lymphoma, repeat BMBx in 2 days , also Pneumonia
   possibly contributing. Continue empiric antimicrobials (Vanco,
   ceftriaxone)
   ABN BONE MARROW -- biopsy suggested lymphoma, repeat Bone Marrow Bx in
   2 days, stop steroids
   TACHYCARDIA -- consistent with sinus tachycardia with APCs.  Will
   continue metoprolol, try to keep even
   TUMOR LYSIS SYNDROME
  likely lymphoma related,  labs improved
   ACROMEGALLY
 Reportedly with evidence of  Pituitary adenoma and
   elevated HGH
   Scrotal swelling
 repeat ultrasound on Monday
   Anemia - follow
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2144-7-18**] 01:51 AM 70 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2144-7-13**] 10:03 AM
   Arterial Line - [**2144-7-13**] 02:00 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer:  H2B
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  icu
   Total time spent:  38

2144-07-18 10:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 40M with recent tumor lysis syndrome, being worked up
   for new diagnoses of acromegaly and B cell lymphoma, in ICU after
   respiratory distress leading to intubation and one episode of
   hypotensive bradycardia in the setting of pneumonia and lactic acidosis
   24 Hour Events:
   -1 unit PRBCs, Hct 22.3
 25.7
 25.2 this am
   -Received 1L NS bolus and 500 cc NS bolus for decreased UOP/cards recs
   -Increased metoprolol to 37.5mg TID
   -Spoke at length with family
   -Failed RISB this morning, does well on PS when more sedate, but once
   lighten sedation he develops labored breathing and fails. Anxious.
   Secretions mostly above the cuff.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2144-7-18**] 03:45 AM
   Vancomycin - [**2144-7-18**] 09:00 AM
   Infusions:
   Fentanyl (Concentrate) - 200 mcg/hour
   Propofol - 50 mcg/Kg/min
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Metoprolol - [**2144-7-17**] 12:07 PM
   Midazolam (Versed) - [**2144-7-17**] 01:44 PM
   Heparin Sodium (Prophylaxis) - [**2144-7-17**] 10:00 PM
   Famotidine (Pepcid) - [**2144-7-18**] 03:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-7-18**] 10:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (99
   HR: 134 (110 - 134) bpm
   BP: 149/66(90) {107/44(64) - 187/76(104)} mmHg
   RR: 28 (17 - 28) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 79.1 kg (admission): 81.7 kg
   Height: 69 Inch
    CVP: 10 (4 - 18)mmHg
   Total In:
                                                                  4,320 mL
                                                                  2,446 mL
   PO:
   TF:
                                                                    950 mL
                                                                    593 mL
   IVF:
                                                                  2,645 mL
                                                                  1,403 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,210 mL
                                                                    515 mL
   Urine:
                                                                  1,210 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,110 mL
                                                                  1,931 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 650 (650 - 650) mL
   Vt (Spontaneous): 532 (532 - 853) mL
   PS : 15 cmH2O
   RR (Set): 22
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 72
   PIP: 21 cmH2O
   Plateau: 20 cmH2O
   SpO2: 91%
   ABG: 7.41/46/101/26/3
   Ve: 13.5 L/min
   PaO2 / FiO2: 202
   Physical Examination
   GENERAL: bearded male appearing older than stated age, sedated,
   intubated, does not respond to verbal stimulus
   HEENT: No scleral icterus. Pupils 1mm and sluggish bilaterally. ETT and
   OGT in place, OP otherwise clear. Prominent frontal bossing and
   maxillary/mandibular protrusion; large coarse facial features. Wasting
   noted particularly in temporal regions.  Neck supple, No LAD, trachea
   midline. Fullness of thyroid gland without distinct nodules.
   CARDIAC: difficult to hear due to lung sounds on ventilator. S1, S2
   ideentified.
   LYMPH: No axillary, inguinal, supraclavicular LAD.
   LUNGS: diffuse bilateral wheezing and coarse sounds mostly secondary to
   ventilator and upper airway
   ABDOMEN: decreased bowel sounds. Soft, ND.  Liver 1cm below costal
   margin. No appreciable splenomegaly.
   GU: testicular swelling, particularly marked on left. No redness, not
   warm to the touch.
   EXTREMITIES: prominent and enlarged hands/feet, LEs appear edematous,
   2+ radial/dorsalis pedis/posterior tibial pulses. No cyanosis.
   SKIN: No rashes. Small bruises on R arm, tattoo on L forearm.
   NEURO: Limited secondary to sedation. Cannot appreciate R facial droop.
   Normal tone. Patient moves both arms and legs spontaneously.
   Labs / Radiology
   123 K/uL
   8.8 g/dL
   87 mg/dL
   0.4 mg/dL
   26 mEq/L
   3.6 mEq/L
   22 mg/dL
   109 mEq/L
   145 mEq/L
   25.2 %
   9.5 K/uL
        [image002.jpg]
                             [**2144-7-16**]  03:52 PM
                             [**2144-7-17**]  04:44 AM
                             [**2144-7-17**]  05:17 AM
                             [**2144-7-17**]  11:55 AM
                             [**2144-7-17**]  01:59 PM
                             [**2144-7-17**]  03:01 PM
                             [**2144-7-17**]  03:22 PM
                             [**2144-7-17**]  10:09 PM
                             [**2144-7-18**]  04:31 AM
                             [**2144-7-18**]  04:53 AM
   WBC
   5.5
   5.8
   9.5
   Hct
   22.4
   22.1
   22.8
   25.7
   25.2
   Plt
   140
   140
   123
   Cr
   0.5
   0.4
   TCO2
   32
   31
   30
   31
   30
   Glucose
   112
   87
   Other labs: PT / PTT / INR:12.9/25.9/1.1, CK / CKMB /
   Troponin-T:138/3/0.02, ALT / AST:18/31, Alk Phos / T Bili:104/0.3,
   Differential-Neuts:36.0 %, Band:13.0 %, Lymph:29.0 %, Mono:2.0 %,
   Eos:2.0 %, Lactic Acid:2.8 mmol/L, Albumin:2.9 g/dL, LDH:2960 IU/L,
   Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL, Uric acid 1.4 mg/dL
   Urine Na 23 meq/L
   Assessment and Plan
   40M with resolving tumor lysis syndrome, being worked up for new
   diagnoses of presumptive lymphoma and acromegaly, in ICU after
   respiratory distress leading to intubation and one episode hypotensive
   bradycardia, in the setting of pneumonia and respiratory/lactic
   acidosis. Original presenting complaint was Bell
s Palsy, urinary
   retention, and lower extremity weakness.
   Currently trying to obtain tissue for definitive lymphoma diagnosis
   from BAL, peripheral blood, and paraspinal [**Hospital 7094**]: Intubated, one failed extubation on [**7-15**] secondary to
   copious secretions. Currently on pressure support, requiring high
   pressure but breathing spontaneously. Being treated for PNA; suspicion
   for infiltrative lymphangitic malignant process based on chest CT.
   -Continue ventilation and sedation with propofol/fentanyl/midazolam
   -Wean pressure as tolerated but likely not much change until breathing
   trial tomorrow am
   -Daily CXR
   -Continue abx for until day 10 (4 more days)
   -Continue ABG twice daily from art line or if changes in respiratory
   status
   -ETT 6.6cm from carina by CXR today, RT will check and advance if
   necessary
   Cardiovascular: Tachycardic to 110s/120s. TSH WNL, TTE showed normal EF
   and no evidence of heart failure. Repeat EKGs have showed frequent
   PVCs, no signs of myocardial ischemia.
   -Switch metoprolol to 50mg TID.
   -f/u other cardiology recs if any.
   -transfuse if Hct<21
   -no IVF necessary now, bolus as needed
   Heme-Onc: Labs at admission included significantly elevated LDH,
   hypercalcemia, hyperkalemia, hyperphosphatemia, hyperuricemia c/w tumor
   lysis syndrome. All trended down and now normal. Now s/p 2 doses
   rasburicase. CT also shows evidence of malignancy
 c/w lymphangitic
   spread of diffuse malignant process, thickening in stomach, ureters.
   Bone marrow biopsy inadequate secondary to necrosis although suspicious
   for B cell lymphoma.
   -f/u Heme/Onc recs
   -continue to trend lysis labs (uric acid, LDH, K, phos, Ca) daily
   -continue allopurinol
   -daily differential
   -repeat bone marrow bx mon am
   -f/u cytogenetics labs (Bcr-abl and FISH for 9,22 translocation)
   Renal/FEN: Cre at baseline for several days. Patient has Foley so h/o
   urinary retention has not been an issue. This will need to be monitored
   when Foley is eventually removed. UOP adequate at 29-90cc/hr. Urine Na
   of 23meq/L suggests absence of marked hypovolemia.
   -monitor BUN and Cr
   -no continuous IVF, bolus as needed.
   -avoid IV contrast, nephrotoxic meds for now
   -Electrolyte abnormalities all improving. Replete as needed
   Endocrine: New diagnosis of acromegaly. Per endocrine, further work-up
   is of no additional value during acute illness. Labs and confirmation
   of dx as well as additional imaging can be obtained when patient is
   stabilized.
   -f/u endocrine recs
   -f/u endocrine labs (IGFBP, Vit D)
   -ophtho consult for visual fields when patient extubated/alert
   Neuro: MRI T-spine at OSH showed epidural enhancement concerning for
   possible masses; MRI head showed pituitary macroadenoma.
   -neurosurgery has low suspicion for cord compression and repeat MRI of
   spine not necessary.
   -Repeat MRI of pituitary eventually needed although in light of recent
   ARF, this is not a priority and can wait until patient stabilized.
   -better neuro exam as we wean sedation, particularly focused on cranial
   nerve
s V and VII and lower extremity sensation/motor
   ID: CXR on [**7-12**] showed LLL PNA, being treated with vanc (since [**7-13**])
   and CTX (since [**7-14**]).
   -Continue abx for hospital-acquired PNA. Day 6 vancomycin, Day 5 CTX.
   Continue for 10-14 days.
   -If patient does not recover, consider anaerobic coverage for possible
   aspiration PNA.
   -urine cx negative; sputum cx grew yeast; blood cx from [**7-13**] pending
   -repeat blood cx today
   -HIV test when patient alert and able to consent
   -EBV IgM and PCR pending
   GU:  Tender scrotal swelling noted on admission and scrotal US
   suggested epididymitis/orchitis. No clear mass was identified and G&C
   swab was negative. Exam today shows marked increase in testicular
   swelling, especially on the left. Thought to be likely due to malignant
   infiltration and generalized edema.
   -f/u urinary retention and orchitis when patient stabilized
   -if testicular appearance worsens, repeat testicular u/s
   GI: Decreased bowel sounds and last bowel movement 3 days ago.
   -continue colace, senna. Dulcolax added yesterday.
   -try to wean fentanyl to help with gut motility
   -guaiac stool
   MSK: Patient has severe and diffuse arthralgias, most likely secondary
   to hypertrophic arthropathy from acromegaly.
   -avoiding NSAIDs
   -tylenol when awake
   -continue pain control with fentanyl
   ICU Care
   Nutrition: Tube feeds, Replete with Fiber (Full) - [**2144-7-17**] 03:50 AM
   50 mL/hour
   Glycemic Control:  ISS
   Lines:
   R IJ Multi Lumen - [**2144-7-13**] 10:03 AM
   L Arterial Line - [**2144-7-13**] 02:00 PM
   Prophylaxis:
   DVT: SCH
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL CODE
   Disposition: pending improvement in respiratory status and work-up for
   lymphoma

2144-07-19 05:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2144-7-18**] 11:00 AM
   taken from the left arterial line
 BLOOD CULTURED - At [**2144-7-18**] 02:41 PM
   taken from the right IJ triple lumen
 URINE CULTURE - At [**2144-7-18**] 04:41 PM
 FEVER - 103.2
F - [**2144-7-18**] 03:00 PM
   [**7-18**]
   -increased metoprolol to 75mg TID for persistent tachycardia
   - febrile to 103: switched antibiotics from ceftriaxone to ceftazidime
   for better coverage of GNR, new blood cx x 2 and urine cx
   -repeat blood cx x 2, urine cx
   - there is a family meeting with heme/onc and endocrine next week: ICU
   physicians should be involved in the discussion
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2144-7-18**] 03:45 AM
   Vancomycin - [**2144-7-19**] 12:00 AM
   Ceftazidime - [**2144-7-19**] 12:20 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-7-18**] 10:04 PM
   Propofol - [**2144-7-19**] 04:00 AM
   Midazolam (Versed) - [**2144-7-19**] 05:00 AM
   Fentanyl - [**2144-7-19**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-7-19**] 05:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.2
   Tcurrent: 38.7
C (101.7
   HR: 126 (114 - 137) bpm
   BP: 141/78(97) {110/55(74) - 149/81(97)} mmHg
   RR: 33 (25 - 33) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 79.1 kg (admission): 81.7 kg
   Height: 69 Inch
    CVP: 14 (6 - 17)mmHg
   Total In:
                                                                  4,810 mL
                                                                  1,242 mL
   PO:
   TF:
                                                                  1,632 mL
                                                                    402 mL
   IVF:
                                                                  2,218 mL
                                                                    539 mL
   Blood products:
   Total out:
                                                                  1,280 mL
                                                                    280 mL
   Urine:
                                                                  1,280 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,530 mL
                                                                    962 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 650 (650 - 650) mL
   Vt (Spontaneous): 289 (289 - 586) mL
   PS : 15 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 101
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   Compliance: 46.8 cmH2O/mL
   SpO2: 96%
   ABG: 7.43/45/76.[**Numeric Identifier 433**]/26/4
   Ve: 19.4 L/min
   PaO2 / FiO2: 152
   Physical Examination
   GENERAL: Pleasant, well appearing ..... in NAD
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**].  JVP=
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout. 5/5 strength throughout. [**1-17**]+ reflexes, equal BL. Normal
   coordination. Gait assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   117 K/uL
   9.3 g/dL
   97 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.6 mEq/L
   23 mg/dL
   109 mEq/L
   148 mEq/L
   25.9 %
   14.5 K/uL
        [image002.jpg]
                             [**2144-7-17**]  01:59 PM
                             [**2144-7-17**]  03:01 PM
                             [**2144-7-17**]  03:22 PM
                             [**2144-7-17**]  10:09 PM
                             [**2144-7-18**]  04:31 AM
                             [**2144-7-18**]  04:53 AM
                             [**2144-7-18**]  11:34 AM
                             [**2144-7-18**]  02:36 PM
                             [**2144-7-19**]  04:04 AM
                             [**2144-7-19**]  04:31 AM
   WBC
   9.5
   14.5
   Hct
   22.8
   25.7
   25.2
   25.9
   Plt
   123
   117
   Cr
   0.4
   0.5
   TCO2
   30
   31
   30
   32
   30
   31
   Glucose
   87
   97
   Other labs: PT / PTT / INR:12.9/25.9/1.1, CK / CKMB /
   Troponin-T:138/3/0.02, ALT / AST:18/31, Alk Phos / T Bili:104/0.3,
   Differential-Neuts:36.0 %, Band:13.0 %, Lymph:29.0 %, Mono:2.0 %,
   Eos:2.0 %, Lactic Acid:2.7 mmol/L, Albumin:2.9 g/dL, LDH:2960 IU/L,
   Ca++:9.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 TACHYCARDIA, OTHER
   Assessment and Plan
   40M with resolving tumor lysis syndrome, being worked up for new
   diagnoses of presumptive lymphoma and acromegaly, in ICU after
   respiratory distress leading to intubation and one episode hypotensive
   bradycardia, in the setting of pneumonia and respiratory/lactic
   acidosis. Original presenting complaint was Bell
s Palsy, urinary
   retention, and lower extremity weakness.
   Currently trying to obtain tissue for definitive lymphoma diagnosis
   from BAL, peripheral blood, and paraspinal [**Hospital 7094**]: Intubated, one failed extubation on [**7-15**] secondary to
   copious secretions. Currently on pressure support, requiring high
   pressure but breathing spontaneously. Being treated for PNA; suspicion
   for infiltrative lymphangitic malignant process based on chest CT.
   -Continue ventilation and sedation with propofol/fentanyl/midazolam
   -Wean pressure as tolerated but likely not much change until breathing
   trial tomorrow am
   -Daily CXR
   -Continue abx for until day 10 (4 more days)
   -Continue ABG twice daily from art line or if changes in respiratory
   status
   -ETT 6.6cm from carina by CXR today, RT will check and advance if
   necessary
   Cardiovascular: Tachycardic to 110s/120s. TSH WNL, TTE showed normal EF
   and no evidence of heart failure. Repeat EKGs have showed frequent
   PVCs, no signs of myocardial ischemia.
   -Switch metoprolol to 50mg TID.
   -f/u other cardiology recs if any.
   -transfuse if Hct<21
   -no IVF necessary now, bolus as needed
   Heme-Onc: Labs at admission included significantly elevated LDH,
   hypercalcemia, hyperkalemia, hyperphosphatemia, hyperuricemia c/w tumor
   lysis syndrome. All trended down and now normal. Now s/p 2 doses
   rasburicase. CT also shows evidence of malignancy
 c/w lymphangitic
   spread of diffuse malignant process, thickening in stomach, ureters.
   Bone marrow biopsy inadequate secondary to necrosis although suspicious
   for B cell lymphoma.
   -f/u Heme/Onc recs
   -continue to trend lysis labs (uric acid, LDH, K, phos, Ca) daily
   -continue allopurinol
   -daily differential
   -repeat bone marrow bx mon am
   -f/u cytogenetics labs (Bcr-abl and FISH for 9,22 translocation)
   Renal/FEN: Cre at baseline for several days. Patient has Foley so h/o
   urinary retention has not been an issue. This will need to be monitored
   when Foley is eventually removed. UOP adequate at 29-90cc/hr. Urine Na
   of 23meq/L suggests absence of marked hypovolemia.
   -monitor BUN and Cr
   -no continuous IVF, bolus as needed.
   -avoid IV contrast, nephrotoxic meds for now
   -Electrolyte abnormalities all improving. Replete as needed
   Endocrine: New diagnosis of acromegaly. Per endocrine, further work-up
   is of no additional value during acute illness. Labs and confirmation
   of dx as well as additional imaging can be obtained when patient is
   stabilized.
   -f/u endocrine recs
   -f/u endocrine labs (IGFBP, Vit D)
   -ophtho consult for visual fields when patient extubated/alert
   Neuro: MRI T-spine at OSH showed epidural enhancement concerning for
   possible masses; MRI head showed pituitary macroadenoma.
   -neurosurgery has low suspicion for cord compression and repeat MRI of
   spine not necessary.
   -Repeat MRI of pituitary eventually needed although in light of recent
   ARF, this is not a priority and can wait until patient stabilized.
   -better neuro exam as we wean sedation, particularly focused on cranial
   nerve
s V and VII and lower extremity sensation/motor
   ID: CXR on [**7-12**] showed LLL PNA, being treated with vanc (since [**7-13**])
   and CTX (since [**7-14**]).
   -Continue abx for hospital-acquired PNA. Day 6 vancomycin, Day 5 CTX.
   Continue for 10-14 days.
   -If patient does not recover, consider anaerobic coverage for possible
   aspiration PNA.
   -urine cx negative; sputum cx grew yeast; blood cx from [**7-13**] pending
   -repeat blood cx today
   -HIV test when patient alert and able to consent
   -EBV IgM and PCR pending
   GU:  Tender scrotal swelling noted on admission and scrotal US
   suggested epididymitis/orchitis. No clear mass was identified and G&C
   swab was negative. Exam today shows marked increase in testicular
   swelling, especially on the left. Thought to be likely due to malignant
   infiltration and generalized edema.
   -f/u urinary retention and orchitis when patient stabilized
   -if testicular appearance worsens, repeat testicular u/s
   GI: Decreased bowel sounds and last bowel movement 3 days ago.
   -continue colace, senna. Dulcolax added yesterday.
   -try to wean fentanyl to help with gut motility
   -guaiac stool
   MSK: Patient has severe and diffuse arthralgias, most likely secondary
   to hypertrophic arthropathy from acromegaly.
   -avoiding NSAIDs
   -tylenol when awake
   -continue pain control with fentanyl
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2144-7-18**] 11:05 PM 70 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2144-7-13**] 10:03 AM
   Arterial Line - [**2144-7-13**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2144-07-19 07:55:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2144-7-18**] 11:00 AM
   taken from the left arterial line
 BLOOD CULTURED - At [**2144-7-18**] 02:41 PM
   taken from the right IJ triple lumen
 URINE CULTURE - At [**2144-7-18**] 04:41 PM
 FEVER - 103.2
F - [**2144-7-18**] 03:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2144-7-18**] 03:45 AM
   Vancomycin - [**2144-7-19**] 12:00 AM
   Ceftazidime - [**2144-7-19**] 12:20 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-7-18**] 10:04 PM
   Propofol - [**2144-7-19**] 04:00 AM
   Midazolam (Versed) - [**2144-7-19**] 05:00 AM
   Fentanyl - [**2144-7-19**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-7-19**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.2
   Tcurrent: 38.7
C (101.7
   HR: 126 (114 - 137) bpm
   BP: 140/73(93) {110/55(74) - 149/81(97)} mmHg
   RR: 28 (28 - 33) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 79.1 kg (admission): 81.7 kg
   Height: 69 Inch
   CVP: 14 (6 - 17)mmHg
   Total In:
                                                                  4,810 mL
                                                                  1,365 mL
   PO:
   TF:
                                                                  1,632 mL
                                                                    436 mL
   IVF:
                                                                  2,218 mL
                                                                    629 mL
   Blood products:
   Total out:
                                                                  1,280 mL
                                                                    380 mL
   Urine:
                                                                  1,280 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,530 mL
                                                                    985 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 650 (650 - 650) mL
   Vt (Spontaneous): 289 (289 - 586) mL
   PS : 15 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 101
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   Compliance: 46.8 cmH2O/mL
   SpO2: 96%
   ABG: 7.43/45/76.[**Numeric Identifier 433**]/26/4
   Ve: 19.4 L/min
   PaO2 / FiO2: 152
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   117 K/uL
   97 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.6 mEq/L
   23 mg/dL
   109 mEq/L
   148 mEq/L
   25.9 %
   12.9 K/uL
        [image002.jpg]
                             [**2144-7-17**]  01:59 PM
                             [**2144-7-17**]  03:01 PM
                             [**2144-7-17**]  03:22 PM
                             [**2144-7-17**]  10:09 PM
                             [**2144-7-18**]  04:31 AM
                             [**2144-7-18**]  04:53 AM
                             [**2144-7-18**]  11:34 AM
                             [**2144-7-18**]  02:36 PM
                             [**2144-7-19**]  04:04 AM
                             [**2144-7-19**]  04:31 AM
   WBC
   9.5
   12.9
   Hct
   22.8
   25.7
   25.2
   25.9
   Plt
   123
   117
   Cr
   0.4
   0.5
   TCO2
   30
   31
   30
   32
   30
   31
   Glucose
   87
   97
   Other labs: PT / PTT / INR:12.9/25.9/1.1, CK / CKMB /
   Troponin-T:138/3/0.02, ALT / AST:18/31, Alk Phos / T Bili:104/0.3,
   Differential-Neuts:51.0 %, Band:13.0 %, Lymph:18.0 %, Mono:2.0 %,
   Eos:3.0 %, Lactic Acid:2.7 mmol/L, Albumin:2.9 g/dL, LDH:5307 IU/L,
   Ca++:9.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE --  multifactorial.  Re-intubated for difficulty
   handling copious oral secretions.  Also contibution of pneumonia,
   diffuse bronchovascular disease with lymphangitic engorgement, and
   possible underlying COPD (tobacco abuse history, enlarged lung
   fields).  Monitor ABG, maintain pH 7.35-7.40, pO2 >60 mmHg.  Continue
   antimicrobials.  Hope to work towards SBT and extubation trial.
   FEVERS, likely lymphoma, repeat BMBx in 2 days , also Pneumonia
   possibly contributing. Continue empiric antimicrobials (Vanco,
   ceftriaxone)
   ABN BONE MARROW -- biopsy suggested lymphoma, repeat Bone Marrow Bx in
   2 days, stop steroids
   TACHYCARDIA -- consistent with sinus tachycardia with APCs.  Will
   continue metoprolol, try to keep even
   TUMOR LYSIS SYNDROME
  likely lymphoma related,  labs improved
   ACROMEGALLY
 Reportedly with evidence of  Pituitary adenoma and
   elevated HGH
   Scrotal swelling
 repeat ultrasound on Monday
   Anemia - follow
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2144-7-13**] 10:03 AM
   Arterial Line - [**2144-7-13**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2144-07-20 06:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -fever, tachycardia, white count c/w SIRS over the weekend, expanded
   antibiotic coverage
   -heme/onc recs more freq tumor lysis labs (q 6-8 hrs), high dose
   steroids if LDH continues to rise (dexamethasone 40 mg IV daily)
   -repeated bronchoscopy for BAL yesterday morning
   -500cc bolus NS this morning for tachycardia
   -5mg IV lopressor this morning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2144-7-18**] 03:45 AM
   Ceftazidime - [**2144-7-20**] 12:28 AM
   Ciprofloxacin - [**2144-7-20**] 12:39 AM
   Vancomycin - [**2144-7-20**] 01:00 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2144-7-19**] 11:50 AM
   Fentanyl - [**2144-7-19**] 11:55 AM
   Midazolam (Versed) - [**2144-7-19**] 11:55 AM
   Famotidine (Pepcid) - [**2144-7-19**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2144-7-19**] 10:36 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-7-20**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.3
C (101
   HR: 129 (112 - 129) bpm
   BP: 175/114(133) {107/55(72) - 175/114(133)} mmHg
   RR: 28 (24 - 31) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 79.1 kg (admission): 81.7 kg
   Height: 69 Inch
    CVP: 7 (7 - 319)mmHg
   Total In:
                                                                  4,812 mL
                                                                  1,338 mL
   PO:
   TF:
                                                                  1,683 mL
                                                                    246 mL
   IVF:
                                                                  1,959 mL
                                                                  1,092 mL
   Blood products:
   Total out:
                                                                  1,046 mL
                                                                    520 mL
   Urine:
                                                                  1,046 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,766 mL
                                                                    818 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 650 (650 - 650) mL
   Vt (Spontaneous): 692 (692 - 692) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Sao2 < 90%
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   Compliance: 59.1 cmH2O/mL
   SpO2: 91%
   ABG: 7.36/52/76.[**Numeric Identifier 433**]/26/2
   NIF: -11 cmH2O
   Ve: 17.7 L/min
   PaO2 / FiO2: 152
   Physical Examination
   GENERAL: sedated, intubated, minimally responsive to voice. Appears
   older than stated age.
   HEENT: acromegalic features (frontal bossing, large jaw, coarse facial
   features).  No conjunctival pallor. No scleral icterus. PERRL  Neck
   Supple, No LAD. Fullness of thyroid gland without distinct nodules.
   CARDIAC: sinus tachycardia. Normal S1, S2. No murmurs, rubs or gallops
   appreciated
   LUNGS: diffuse wheezing bilaterally, mild bibasilar crackles
   ABDOMEN: distended, hypoactive BS. Soft, NT.  No HSM
   GU: marked testicular swelling, particularly on left. No heat or
   redness.
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses. Tattoo of R forearm.
   NEURO: sedated, intubated.
   Labs / Radiology
   103 K/uL
   93 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.0 mEq/L
   26 mg/dL
   112 mEq/L
   148 mEq/L
   26.0 %
   15.3 K/uL
        [image002.jpg]
                             [**2144-7-18**]  04:31 AM
                             [**2144-7-18**]  04:53 AM
                             [**2144-7-18**]  11:34 AM
                             [**2144-7-18**]  02:36 PM
                             [**2144-7-19**]  04:04 AM
                             [**2144-7-19**]  04:31 AM
                             [**2144-7-19**]  05:15 PM
                             [**2144-7-19**]  05:29 PM
                             [**2144-7-20**]  04:13 AM
                             [**2144-7-20**]  05:46 AM
   WBC
   9.5
   12.9
   15.3
   Hct
   25.2
   25.9
   26.0
   Plt
   123
   117
   103
   Cr
   0.4
   0.5
   0.5
   0.5
   TCO2
   30
   32
   30
   31
   30
   31
   Glucose
   87
   97
   100
   93
   Other labs: PT / PTT / INR:12.9/25.9/1.1, CK / CKMB /
   Troponin-T:138/3/0.02, ALT / AST:18/31, Alk Phos / T Bili:104/0.3,
   Differential-Neuts:51.0 %, Band:13.0 %, Lymph:18.0 %, Mono:2.0 %,
   Eos:3.0 %, Lactic Acid:2.7 mmol/L, Albumin:2.9 g/dL, LDH:4845 IU/L,
   Ca++:10.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL, Uric Acid 2.9mg/dL
   Assessment and Plan
   40M with resolving tumor lysis syndrome, being worked up for new
   diagnoses of presumptive lymphoma and acromegaly, in ICU after
   respiratory distress leading to intubation and one episode hypotensive
   bradycardia, in the setting of pneumonia and respiratory/lactic
   acidosis. Original presenting complaint was Bell
s Palsy, urinary
   retention, and lower extremity weakness.
   Currently trying to obtain definitive diagnosis of lymphoma to start
   treatment.
   Respiratory failure: intubated, one failed extubation on [**7-15**] secondary
   to copious secretions. Currently on AC. Contributing factors to
   respiratory failure include PNA and suspicion for infiltrative
   malignant process on CT. CXR showing worsening bibasilar infiltrates
   over the weekend.
   -Continue ventilation and sedation with propofol/fentanyl/midazolam.
   -Patient meets definition of ARDS. Thus, try ventilator at lower tidal
   volume (6cc/kg) with respiratory
s input.
   -Daily breathing trials in the morning to work toward extubation.
   Limiting factors now include mental status, gag/secretions/resolution
   of PNA.
   -Daily CXR
   -Abx: Continue vanco (day 8, start [**7-13**]) and cipro (day 2,start [**7-19**]).
   d/c ceftazidime and start meropenem for possible ESBL (need ID
   approval)
   -f/u BAL results and blood cx
   -ABG twice daily or if changes in respiratory status
   -ethics consult for possibly doing HIV test w/o consent in setting of
   acute lymphoma, ARDS
   Tachycardia: Consistently tachycardic to 110s/120s. TSH WNL, TTE showed
   normal EF and no evidence of heart failure. Repeat EKGs have shown
   frequent PVCs, no signs of myocardial ischemia. Likely physiologic
   tachycardia secondary to infection, lymphoma, anemia, high [**Hospital1 **].
   -change metoprolol 100mg to dose Q6H to try to avoid spikes in HR
   -bolus IVF as needed
   -repeat EKG today
   Tumor lysis/lymphoma: : Labs at admission included significantly
   elevated LDH, hypercalcemia, hyperkalemia, hyperphosphatemia,
   hyperuricemia c/w tumor lysis syndrome. All trended down for several
   days until LDH bumped again startng [**7-17**]. s/p 2 doses rasburicase. CT
   shows diffuse evidence of malignancy - /w lymphangitic spread of
   diffuse malignant process, thickening in stomach, ureters. First bone
   marrow biopsy inadequate secondary to necrosis although suspicious for
   B cell lymphoma.
   -f/u heme/onc recs
   -f/u results of second bone marrow bx
   -continue allopurinol
   -trend tumor lysis labs Q8H
   -dexamethasone 40mg daily
   -add PCP [**Name9 (PRE) 1694**]
 daily bactrim
   -daily differential
   -f/u cytogenetics labs (Bcr-abl and FISH for 9,22 translocation)
 call
   lab to make sure sample was received
   -EBV IgM and PCR pending
   -explore possibility of testicular bx if bone marrow inconclusive
   Anemia: Most likely secondary to bone marrow crowding from lymphoma.
   s/p 1 unit PRBCs on [**7-16**]
   -transfuse at Hct<21
   Acromegaly: New presumptive diagnosis based on clinical features.
   Definitive work-up postponed until patient stabilized.
   -f/u endocrine recs
   -f/u endocrine labs (IGFBP, Vit D)
   -ophtho consult for visual fields when patient extubated/alert
   ARF, resolved: Cre bumped early in admission from 0.6 baseline to peak
   1.6. Trended down and now stable at 0.5. Thought to be secondary to ATN
   from tumor lysis with a possible contribution from presenting symptom
   of urinary retention.
   -monitor BUN and Cr
   -no continuous IVF, bolus as needed.
   -avoid IV contrast, nephrotoxic meds for now
   Orchitis:  Tender scrotal swelling on admission, scrotal US suggested
   epididymitis/orchitis. No clear masses. G&C swab negative. Exam
   starting [**7-17**] shows marked increase in testicular swelling, particularly
   on the left. Thought to be secondary to malignant infiltration and
   generalized edema.
   -f/u when patient stabilized
   -call urology to discuss possibility of bx if second bone marrow does
   not provide definitive dx
   Distended abdomen: Increasing abdominal distention noted with
   hypoactive bowel sounds. One small stool in last 24 hrs.
   -Colace, senna, dulcolax
   -Try to wean fentanyl as possible
   -guaiac stool
   Neurologic abnormalities: Initial patient complaints included R Bell
   palsy, loss of R facial sensation, weakness/decreased sensation of
   lower extremities. MRI T-spine at OSH showed epidural enhancement of
   thoracic spine; MRI head showed pituitary macroadenoma.
   -neurosurgery has low suspicion for cord compression and repeat MRI of
   spine not necessary.
   -Repeat MRI of pituitary eventually needed although in light of recent
   ARF, this is not a priority and can wait until patient stabilized.
   -better neuro exam as we wean sedation, particularly focused on cranial
   nerve
s V and VII and lower extremity sensation/motor
   Joint pain: Patient has severe and diffuse arthralgias, most likely
   secondary to hypertrophic arthropathy from acromegaly.
   -avoiding NSAIDs
   -tylenol when awake
   -continue pain control with fentanyl
   Social:
   -social work consult
   -schedule family meeting with onc and endocrine to address family
   concerns and explain suspicion for lymphoma. Family currently focused
   on the pituitary adenoma and further explanation of lymphoma concerns
   likely are warranted.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2144-7-18**] 11:05 PM 70 mL/hour
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2144-7-13**] 10:03 AM
   Arterial Line - [**2144-7-13**] 02:00 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer:  famotidine
   VAP:
   Comments:
   Communication:  Comments: [**Location (un) 1068**] is health care proxy. Family [**Name2 (NI) 7130**]
   should be scheduled this week with onc and endocrine present.
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I have examined the patient myself and agree with the assessment and
   plan as written above with the following addition:
   CXR: Worsening left perihilar consolidation consistent with pneumonia.
   Right lower lobe collapse now indistinguishable from additional
   pneumonia.
   MICRO:  EBV IgM negative,  BAL results pending.
   We have discussed the plan with the ICU team.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2021**] [**Last Name (NamePattern1) 2355**], MD
   on:[**2144-7-20**] 18:00 ------

2144-07-20 10:43:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, tumor lysis, lymphoma
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2144-7-19**] 11:50 AM
 FEVER - 102.0
F - [**2144-7-19**] 04:00 PM
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2144-7-18**] 03:45 AM
   Ciprofloxacin - [**2144-7-20**] 12:39 AM
   Ceftazidime - [**2144-7-20**] 08:00 AM
   Vancomycin - [**2144-7-20**] 08:17 AM
   Infusions:
   Fentanyl (Concentrate) - 150 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2144-7-19**] 11:50 AM
   Metoprolol - [**2144-7-20**] 07:58 AM
   Midazolam (Versed) - [**2144-7-20**] 08:08 AM
   Fentanyl - [**2144-7-20**] 08:08 AM
   Heparin Sodium (Prophylaxis) - [**2144-7-20**] 08:17 AM
   Famotidine (Pepcid) - [**2144-7-20**] 08:17 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-7-20**] 10:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.9
C (103.8
   Tcurrent: 39.9
C (103.8
   HR: 124 (114 - 133) bpm
   BP: 112/57(76) {107/55(72) - 175/114(133)} mmHg
   RR: 33 (24 - 35) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 79.1 kg (admission): 81.7 kg
   Height: 69 Inch
   CVP: 9 ()mmHg
   Total In:
                                                                  4,832 mL
                                                                  2,505 mL
   PO:
   TF:
                                                                  1,703 mL
                                                                    725 mL
   IVF:
                                                                  1,959 mL
                                                                  1,550 mL
   Blood products:
   Total out:
                                                                  1,046 mL
                                                                    710 mL
   Urine:
                                                                  1,046 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,786 mL
                                                                  1,795 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 650 (650 - 650) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Sao2 < 90%
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 96%
   ABG: 7.36/52/76.[**Numeric Identifier 433**]/26/2
   NIF: -11 cmH2O
   Ve: 20.2 L/min
   PaO2 / FiO2: 152
   Physical Examination
   Eyes / Conjunctiva: PERRL, small pupils
   Head, Ears, Nose, Throat: temporal wasting
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : , Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 3+ edema, Left: 3+ edema, thick fingers
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Sedated, Tone: Normal
   Labs / Radiology
   0.0 g/dL
   103 K/uL
   93 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.0 mEq/L
   26 mg/dL
   112 mEq/L
   148 mEq/L
   26.0 %
   15.3 K/uL
        [image002.jpg]
                             [**2144-7-18**]  04:31 AM
                             [**2144-7-18**]  04:53 AM
                             [**2144-7-18**]  11:34 AM
                             [**2144-7-18**]  02:36 PM
                             [**2144-7-19**]  04:04 AM
                             [**2144-7-19**]  04:31 AM
                             [**2144-7-19**]  05:15 PM
                             [**2144-7-19**]  05:29 PM
                             [**2144-7-20**]  04:13 AM
                             [**2144-7-20**]  05:46 AM
   WBC
   9.5
   12.9
   15.3
   Hct
   25.2
   25.9
   26.0
   Plt
   123
   117
   103
   Cr
   0.4
   0.5
   0.5
   0.5
   TCO2
   30
   32
   30
   31
   30
   31
   Glucose
   87
   97
   100
   93
   Other labs: PT / PTT / INR:12.9/25.9/1.1, CK / CKMB /
   Troponin-T:138/3/0.02, ALT / AST:18/31, Alk Phos / T Bili:104/0.3,
   Differential-Neuts:51.0 %, Band:13.0 %, Lymph:18.0 %, Mono:2.0 %,
   Eos:3.0 %, Lactic Acid:2.7 mmol/L, Albumin:2.9 g/dL, LDH:4845 IU/L,
   Ca++:10.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Fluid analysis / Other labs: Await BAL cytology and repeat BM Bx
   Imaging: CXR with substantial bilateral infiltrates
   Microbiology: No new diagnostic micro
   Assessment and Plan
   40-year-old man with
          Respiratory failure
   o         Now meets criteria for ARDS. Move to low tidal volume
   ventilation
   o         Follow BAL cytology
          Fever
   o         Potential VAP
          Cx obtained after ABX so will continued ABX for 8 days until
   GNRs
          Vanco / quinolone for now.  Change ceftaz to carbapenem
   given risk of ESBL.  If cx negative and not better after 48
 72 hours,
   consider d/c ABX.
          Follow cx
   o         Follow BCx
   o         Follow EBV serologies
   o         Check C diff
   o         Investigate ability to check HIV
   o         [**Month (only) 11**] be immunologic or oncologic
          Probable lymphoma
   o         Appreciate heme/onc help
   o         Await BMBx results
   o         Tumor lysis syndrome
  likely lymphoma related,  labs
   improved, cont allopurinol
          Acromegaly
   o          Reportedly with evidence of  Pituitary adenoma and elevated
   HGH, work-up and treatment deferred
          Scrotal swelling
   o         Discuss with onc whether repeat ultrasound today would be
   useful
          Anemia
   o         Follow.  Transfuse <= 21
   Social work following.  Family meeting this week.
   Other issues as per ICU team note.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2144-7-20**] 03:00 AM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2144-7-13**] 10:03 AM
   Arterial Line - [**2144-7-13**] 02:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:  H2B
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 75 minutes
   Patient is critically ill

2144-07-21 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -ongoing fevers
   -decreased tidal volumes to 450cc (6cc/kg). ABG showed: 7.29/58/94
   Then increased PEEP and volumes to 500cc, but ABG showed increasing
   carbon dioxide and acidemia. (7.24/68/92). With further sedation,
   patient stabilized on 500cc tidal volume with last ABG  this am at
   7.35/52/92.
   -starting chemo today. bone marrow w/o necrosis, CD20+, TDT- malignancy
   with further stains pending. start hyper CVAD this morning. [**Location (un) 1068**], his
   HCP was consented over the phone for chemo.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2144-7-20**] 08:00 AM
   Ciprofloxacin - [**2144-7-20**] 12:31 PM
   Bactrim (SMX/TMP) - [**2144-7-20**] 04:15 PM
   Vancomycin - [**2144-7-21**] 12:25 AM
   Meropenem - [**2144-7-21**] 04:05 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2144-7-20**] 07:58 AM
   Famotidine (Pepcid) - [**2144-7-20**] 08:17 AM
   Heparin Sodium (Prophylaxis) - [**2144-7-20**] 04:15 PM
   Fentanyl - [**2144-7-20**] 08:51 PM
   Midazolam (Versed) - [**2144-7-21**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-7-21**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.9
C (103.8
   Tcurrent: 36.2
C (97.2
   HR: 101 (98 - 133) bpm
   BP: 119/69(84) {112/57(74) - 146/80(100)} mmHg
   RR: 32 (23 - 33) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 84.4 kg (admission): 81.7 kg
   Height: 69 Inch
    CVP: 13 (6 - 13)mmHg
   Total In:
                                                                  4,493 mL
                                                                    551 mL
   PO:
   TF:
                                                                    926 mL
   IVF:
                                                                  2,852 mL
                                                                    551 mL
   Blood products:
   Total out:
                                                                  1,645 mL
                                                                    790 mL
   Urine:
                                                                  1,645 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,848 mL
                                                                   -239 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (460 - 650) mL
   RR (Set): 28
   RR (Spontaneous): 1
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 19 cmH2O
   Compliance: 62.5 cmH2O/mL
   SpO2: 97%
   ABG: 7.35/52/91.[**Numeric Identifier **]/26/1
   Ve: 16.6 L/min
   PaO2 / FiO2: 184
   Physical Examination
   GENERAL: sedated, intubated, minimally responsive to voice. Appears
   older than stated age.
   HEENT: acromegalic features (frontal bossing, large jaw, coarse facial
   features).  No conjunctival pallor. No scleral icterus. PERRL  Neck
   Supple, No LAD. Fullness of thyroid gland without distinct nodules.
   CARDIAC: sinus tachycardia. Normal S1, S2. No murmurs, rubs or gallops
   appreciated
   LUNGS: mild bibasilar crackles
   ABDOMEN: distended, hypoactive BS. Soft, NT.  No HSM
   GU: marked testicular swelling. No heat or redness.
   EXTREMITIES: 2+ dorsalis pedis/ posterior tibial/radial pulses. No
   pitting edema
   SKIN: No rashes/lesions, ecchymoses. Tattoo of R forearm.
   NEURO: sedated, intubated.
   Labs / Radiology
   91 K/uL
   8.6 g/dL
   125 mg/dL
   0.4 mg/dL
   26 mEq/L
   4.7 mEq/L
   36 mg/dL
   111 mEq/L
   145 mEq/L
   24.1 %
   6.7 K/uL
        [image002.jpg]
                             [**2144-7-20**]  05:46 AM
                             [**2144-7-20**]  01:51 PM
                             [**2144-7-20**]  04:38 PM
                             [**2144-7-20**]  06:30 PM
                             [**2144-7-20**]  08:20 PM
                             [**2144-7-20**]  08:59 PM
                             [**2144-7-20**]  10:17 PM
                             [**2144-7-21**]  12:55 AM
                             [**2144-7-21**]  04:26 AM
                             [**2144-7-21**]  04:44 AM
   WBC
   11.5
   11.5
   6.7
   Hct
   24.6
   25.0
   24.1
   Plt
   81
   85
   91
   Cr
   0.6
   0.6
   0.4
   TCO2
   31
   29
   29
   31
   28
   28
   30
   Glucose
   111
   104
   109
   125
   Other labs: PT / PTT / INR:13.2/26.5/1.1, CK / CKMB /
   Troponin-T:138/3/0.02, ALT / AST:15/33, Alk Phos / T Bili:148/0.3,
   Amylase / Lipase:39/132, Differential-Neuts:52.0 %, Band:4.0 %,
   Lymph:34.0 %, Mono:3.0 %, Eos:2.0 %, Lactic Acid:2.7 mmol/L,
   Albumin:2.9 g/dL, LDH:3500 IU/L, Ca++:9.3 mg/dL, Mg++:2.4 mg/dL,
   PO4:4.1 mg/dL, Uric acid 3.7 mg/dL, free Ca 1.33
   Assessment and Plan
   40M with resolving tumor lysis syndrome, being worked up for new
   diagnoses of presumptive lymphoma and acromegaly, in ICU after
   respiratory distress leading to intubation and one episode hypotensive
   bradycardia, in the setting of pneumonia and respiratory/lactic
   acidosis. Original presenting complaint was Bell
s Palsy, urinary
   retention, and lower extremity weakness.
   Currently trying to obtain definitive diagnosis of lymphoma to start
   treatment.
   Respiratory failure: intubated, one failed extubation on [**7-15**] secondary
   to copious secretions. Currently on AC. Contributing factors to
   respiratory failure include PNA and suspicion for infiltrative
   malignant process on CT. CXR showing worsening bibasilar infiltrates
   over the weekend.
   -switch to Pressure-support to see how it is tolerated. Goal with
   ventilatory today is improve his comfort level in order to be able to
   lift the sedation a little. Wean back propofol.
   -Due to ARDS, keep ventilation at lower tidal volume of 500cc (just
   over 6cc/kg). Hopefully PSV will help with that today.
   -Daily breathing trials in the morning to work toward extubation.
   Limiting factors now include mental status, gag/secretions/resolution
   of PNA.
   -Daily CXR
   -Abx: Continue vanco (day 9, start [**7-13**]) and cipro (day 3,start [**7-19**])
   and meropenem (day 2, start [**7-20**])
   -f/u BAL results and blood cx
   -ABG twice daily or if changes in respiratory status
   -ethics consult for possibly doing HIV test w/o consent in setting of
   acute lymphoma, ARDS
   Tachycardia: Consistently tachycardic to 110s/120s. TSH WNL, TTE showed
   normal EF and no evidence of heart failure. Repeat EKGs have shown
   frequent PVCs, no signs of myocardial ischemia. Likely physiologic
   tachycardia secondary to infection, lymphoma, anemia, high [**Hospital1 **].
   -increase comfort on ventilator with PSV which will hopefully lessen
   tachycardia
   -metoprolol 100mg Q6H
   -bolus IVF as needed
   -repeat EKG showed
   Tumor lysis/lymphoma: : Labs at admission included significantly
   elevated LDH, hypercalcemia, hyperkalemia, hyperphosphatemia,
   hyperuricemia c/w tumor lysis syndrome. All trended down for several
   days until LDH bumped again startng [**7-17**]. s/p 2 doses rasburicase. CT
   shows diffuse evidence of malignancy - /w lymphangitic spread of
   diffuse malignant process, thickening in stomach, ureters. First bone
   marrow biopsy inadequate secondary to necrosis although suspicious for
   B cell lymphoma.
   -to start chemo this afternoon for B cell lymphoma
   -f/u heme/onc recs
   -continue allopurinol
   -trend tumor lysis labs Q8H
   -dexamethasone 40mg daily
   -PCP [**Name9 (PRE) 1694**]
 daily bactrim
   -daily differential
   -f/u cytogenetics labs (Bcr-abl and FISH for 9,22 translocation)
 call
   lab to make sure sample was received
   -EBV IgM was negative. PCR pending.
   Anemia: Most likely secondary to bone marrow crowding from lymphoma.
   s/p 1 unit PRBCs on [**7-16**]
   -transfuse at Hct<21
   Acromegaly: New presumptive diagnosis based on clinical features.
   Definitive work-up postponed until patient stabilized.
   -f/u endocrine recs
   -f/u endocrine labs (IGFBP, Vit D)
   -ophtho consult for visual fields when patient extubated/alert
   ARF, resolved: Cre bumped early in admission from 0.6 baseline to peak
   1.6. Trended down and now stable at 0.5. Thought to be secondary to ATN
   from tumor lysis with a possible contribution from presenting symptom
   of urinary retention.
   -monitor BUN and Cr
   -maintain 100cc/hr of urine output while on chemo
   -no continuous IVF, bolus as needed.
   -avoid IV contrast, nephrotoxic meds for now
   Orchitis:  Tender scrotal swelling on admission, scrotal US suggested
   epididymitis/orchitis. No clear masses. G&C swab negative. Exam
   starting [**7-17**] shows marked increase in testicular swelling, particularly
   on the left. Thought to be secondary to malignant infiltration and
   generalized edema.
   -f/u when patient stabilized, likely due to lymphoma
   Distended abdomen: Increasing abdominal distention noted with
   hypoactive bowel sounds. One small stool in last 24 hrs.
   -check residuals on tube feeds
   -Colace, senna, dulcolax
   -Try to wean fentanyl as possible
   -guaiac stool
   -consider PO narcan if worsens
   Neurologic abnormalities: Initial patient complaints included R Bell
   palsy, loss of R facial sensation, weakness/decreased sensation of
   lower extremities. MRI T-spine at OSH showed epidural enhancement of
   thoracic spine; MRI head showed pituitary macroadenoma.
   -neurosurgery has low suspicion for cord compression and repeat MRI of
   spine not necessary.
   -Repeat MRI of pituitary eventually needed although in light of recent
   ARF, this is not a priority and can wait until patient stabilized.
   -better neuro exam as we wean sedation, particularly focused on cranial
   nerve
s V and VII and lower extremity sensation/motor
   Joint pain: Patient has severe and diffuse arthralgias, most likely
   secondary to hypertrophic arthropathy from acromegaly.
   -avoiding NSAIDs
   -tylenol when awake
   -continue pain control with fentanyl
   Social:
   -social work consult
   -schedule family meeting with onc and endocrine to address family
   concerns and explain suspicion for lymphoma. Family currently focused
   on the pituitary adenoma and further explanation of lymphoma concerns
   likely are warranted. Family meeting to be Friday pm.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2144-7-18**] 11:05 PM 70 mL/hour
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2144-7-13**] 10:03 AM
   Arterial Line - [**2144-7-13**] 02:00 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer:  famotidine
   VAP:
   Comments:
   Communication:  Comments: [**Location (un) 1068**] is health care proxy. Family meeting
   will hopefully be Friday this week with onc and endocrine present.
   Code status: Full code
   Disposition:

2144-07-22 06:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - breathing dysynchronous with ventilator on AC yesterday, patient on
   trial of PS with higher tidal volumes than indicated by ARDS protocol;
   had rising CO2 yesterday afternoon and had to be placed back on ACV .
   Early this morning he was back on pressure support [**12-24**], was pulling
   tidal volumes around 600cc, and had an ABG of 7.32/60/113. However,
   patient appeared dyspneic with retractions and nasal flaring and
   admitted to having difficulty breathing. So sedation was increased and
   he was placed back on AC.
   - BMT following for chemotherapy, keep urine output > 100 cc/hr
   - confirmed Burkitt's lymphoma per bone marrow biopsy
   -head CT w/o contrast to evaluate for pituitary hemorrhage in setting
   of respiratory status change planned for tomorrow; NPO after midnight
   -ID saw and placed on fluconazole, f/u needed for issue of consent for
   HIV test
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2144-7-20**] 08:00 AM
   Ciprofloxacin - [**2144-7-21**] 12:00 PM
   Bactrim (SMX/TMP) - [**2144-7-21**] 04:00 PM
   Fluconazole - [**2144-7-21**] 10:08 PM
   Meropenem - [**2144-7-21**] 11:55 PM
   Vancomycin - [**2144-7-22**] 12:31 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-7-21**] 11:55 PM
   Furosemide (Lasix) - [**2144-7-22**] 03:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-7-22**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.1
C (98.8
   HR: 103 (92 - 114) bpm
   BP: 127/59(78) {101/51(66) - 144/77(96)} mmHg
   RR: 20 (14 - 34) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 84.4 kg (admission): 81.7 kg
   Height: 69 Inch
    CVP: 16 (5 - 25)mmHg
   Total In:
                                                                  7,473 mL
                                                                  1,837 mL
   PO:
   TF:
                                                                  1,505 mL
   IVF:
                                                                  4,208 mL
                                                                  1,807 mL
   Blood products:
   Total out:
                                                                  2,213 mL
                                                                    800 mL
   Urine:
                                                                  2,213 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,260 mL
                                                                  1,041 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 574 (550 - 732) mL
   PS : 12 cmH2O
   RR (Set): 28
   RR (Spontaneous): 21
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 23 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 96%
   ABG: 7.32/60/113/29/3
   Ve: 12.3 L/min
   PaO2 / FiO2: 226
   Physical Examination
   GENERAL: opens eyes to voice, nods appropriately to questions and
   follows commands. Appears older than stated age.
   HEENT: acromegalic features (frontal bossing, large jaw, coarse facial
   features).  No conjunctival pallor. No scleral icterus. PERRL  Neck
   Supple, No LAD. Fullness of thyroid gland without distinct nodules.
   CARDIAC: sinus tachycardia. Normal S1, S2. No murmurs, rubs or gallops
   appreciated
   LUNGS: mild wheezing throughout both lungs
   ABDOMEN: distended, hypoactive BS. Soft, NT.  No HSM
   GU: marked testicular swelling. No heat or redness.
   EXTREMITIES: 2+ dorsalis pedis/ posterior tibial/radial pulses. No
   pitting edema
   SKIN: No rashes/lesions, ecchymoses. Tattoo of R forearm.
   NEURO: nods head, squeezes hands but weak, moves feet bilaterally to
   command
   Labs / Radiology
   72 K/uL
   8.5 g/dL
   107 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.9 mEq/L
   41 mg/dL
   107 mEq/L
   140 mEq/L
   23.9 %
   3.1 K/uL
        [image002.jpg]
                             [**2144-7-21**]  04:44 AM
                             [**2144-7-21**]  02:10 PM
                             [**2144-7-21**]  02:28 PM
                             [**2144-7-21**]  03:50 PM
                             [**2144-7-21**]  06:26 PM
                             [**2144-7-21**]  09:33 PM
                             [**2144-7-21**]  10:06 PM
                             [**2144-7-22**]  04:18 AM
                             [**2144-7-22**]  04:58 AM
                             [**2144-7-22**]  05:19 AM
   WBC
   3.1
   Hct
   23.9
   Plt
   72
   Cr
   0.5
   0.5
   0.5
   TCO2
   30
   32
   31
   31
   31
   31
   32
   Glucose
   124
   117
   107
   Other labs: PT / PTT / INR:13.0/27.0/1.1, CK / CKMB /
   Troponin-T:138/3/0.02, ALT / AST:14/21, Alk Phos / T Bili:101/0.3,
   Amylase / Lipase:39/132, Differential-Neuts:52.0 %, Band:4.0 %,
   Lymph:34.0 %, Mono:3.0 %, Eos:2.0 %, Lactic Acid:2.3 mmol/L,
   Albumin:2.8 g/dL, LDH:2295 IU/L, Ca++:9.2 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.2 mg/dL
   Assessment and Plan
   40M with recent h/o tumor lysis syndrome, starting chemotherapy for
   Burkitt
s lymphoma. New diagnosis of acromegaly, in ICU with
   respiratory failure in setting of pneumonia, possible ARDS. Original
   presenting complaint was Bell
s Palsy, urinary retention, and lower
   extremity weakness.
   Respiratory failure: intubated since [**7-12**], one failed extubation on [**7-15**]
   secondary to copious secretions. Dysonchronous with vent on AC
   requiring significant sedation. PS trials have resulted in either
   acidemia down to 7.12 or dyspnea as patient is requiring minute
   ventilations around 13-15. Contributing factors to respiratory status
   include PNA and suspicion for infiltrative malignant process on CT, as
   well as meeting ARDS criteria starting [**7-18**].
   -continue trials of pressure support to see how it is tolerated. Goal
   is to maximize comfort level and minimize dysynchrony while keeping
   ph>7.20, C02<70.
   -Despite meeting ARDS definition, lung compliance has remained high, so
   large tidal volumes ok to maximize comfort and achieve the high minute
   ventilation he is requiring.
   -leave propofol off if possible
   -follow ABGs when changes in ventilator settings or respiratory status
   -Daily breathing trials in the morning to work toward extubation.
   Limiting factors now include mental status, gag/secretions/resolution
   of PNA and will be ok to wait as he is receiving high dose chemotherapy
   right now.
   -Daily CXR
   -Abx: Continue vanco (day 10, start [**7-13**]) and cipro (day 4,start [**7-19**]).
   meropenem (day 3, start [**7-20**]) to be discussed with ID (see below)
   -per ID, added fluconazole 400mg IV daily for ppx given
   immunosuppression
   - cryptococcal serology negative
   -f/u final BAL results and blood cx
   -per ethics, ok to proceed with HIV test/CD4 count
   -CXR today indicates possible volume overload, plan to diurese to
   maintain UOP
   Tumor lysis/lymphoma: : Labs at admission included significantly
   elevated LDH, hypercalcemia, hyperkalemia,
   hyperphosphatemia, hyperuricemia c/w tumor lysis syndrome. All trended
   down for several days until LDH bumped again startng [**7-17**]. s/p 2 doses
   rasburicase. CT shows diffuse evidence of malignancy - c/w lymphangitic
   spread of diffuse malignant process, thickening in stomach, ureters.
   Bone marrow bx c/w Burkitt
s lymphoma and hyper-CVAD started on [**7-21**]
   beginning with cyclophosphamide.
   -f/u with heme/onc regarding recs, safety of methotrexate today in
   light of bilateral pleural effusions
   -new thrombocytopenia and leukopenia today, unlikely to be a side
   effect of chemo this early. Talk to ID regarding stopping meropenem
   and/or bactrim as a possible cause. Allopurinol also a potential
   suspect.
   -maintain UOP of 100cc/hr, touch base with onc to see if this is ok if
   we achieve it with lasix drip in place of IVF
   -continue allopurinol for now, although could consider stopping in
   light of low platelets, WBC
   -trend tumor lysis labs Q8H
   -dexamethasone 40mg daily
   -PCP [**Name Initial (PRE) 1694**]
 ?switch from bactrim in light of pancytopenia
   -daily differential
   -EBV PCR pending
   Tachycardia: Consistently tachycardic to 110s/120s. TSH WNL, TTE showed
   normal EF and no evidence of heart failure. Repeat EKGs have shown
   frequent PVCs, no signs of myocardial ischemia. Likely physiologic
   tachycardia secondary to infection, lymphoma, anemia, high [**Hospital1 **].
   -increased comfort on PS yesterday showed less tachycardia, HR in 90s.
   has persisted around 100 even back on AC
   -decrease metoprolol to 50mg Q6H
   Anemia: Most likely secondary to bone marrow crowding from lymphoma.
   s/p 1 unit PRBCs on [**7-16**]. Hct stable around 24.
   -transfuse at Hct<21
   Acromegaly: New presumptive diagnosis based on clinical features.
   Definitive work-up postponed until patient stabilized.
   -f/u endocrine recs
   -f/u endocrine labs (IGFBP, Vit D)
   -ophtho consult for visual fields when patient extubated/alert
   ARF, resolved: Cre bumped early in admission from 0.6 baseline to peak
   1.6. Trended down and now stable at 0.5. Thought to be secondary to ATN
   from tumor lysis with a possible contribution from presenting symptom
   of urinary retention.
   -monitor BUN and Cr
   -maintain 100cc/hr of urine output while on chemo
   -avoid IV contrast, nephrotoxic meds for now
   Orchitis:  Tender scrotal swelling on admission, scrotal US suggested
   epididymitis/orchitis. No clear masses. G&C swab negative. Exam
   starting [**7-17**] shows marked increase in testicular swelling, particularly
   on the left. Thought to be secondary to malignant infiltration and
   generalized edema.
   -f/u when patient stabilized, likely due to lymphoma
   Distended abdomen: abdominal distention is stable with hypoactive bowel
   sounds. One small stool in last 48 hrs.
   -residuals on tube feeds about 60
   -Colace, senna, dulcolax
   -Try to wean fentanyl as possible
   -consider PO narcan if worsens
   Neurologic abnormalities: Initial patient complaints included R Bell
   palsy, loss of R facial sensation, weakness/decreased sensation of
   lower extremities. MRI T-spine at OSH showed epidural enhancement of
   thoracic spine; MRI head showed pituitary macroadenoma.
   -neurosurgery has low suspicion for cord compression and repeat MRI of
   spine not necessary.
   -Repeat MRI of pituitary eventually needed although in light of recent
   ARF, this is not a priority and can wait until patient stabilized.
   -better neuro exam as we wean sedation, particularly focused on cranial
   nerve
s V and VII and lower extremity sensation/motor
   Joint pain: Patient has severe and diffuse arthralgias, most likely
   secondary to hypertrophic arthropathy from acromegaly.
   -avoiding NSAIDs
   -tylenol when awake
   -continue pain control with fentanyl
   Social:
   -social work consulted
   -family meeting Friday pm (endocrine available between 12 and 2pm),
   contact family to ensure their presence and request onc
s presence as
   well
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2144-7-13**] 10:03 AM
   Arterial Line - [**2144-7-13**] 02:00 PM
   18 Gauge - [**2144-7-21**] 02:00 PM
   Prophylaxis:
   DVT: SCH
   Stress ulcer:  famotidine
   VAP:
   Comments:
   Communication:  Comments: ?family meeting Friday pm. Endocrine can come
   between 12 and 2pm, so family should be contact[**Name (NI) **] to try to be here
   between those hours. Will request today if onc can come as well.
   Code status: Full code
   Disposition: pending resolution of respiratory failure, high dose chemo
   and risk for tumor lysis

2144-07-24 07:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -will need intrathecal chemotherapy twice a week
   -Onc requesting Rad Onc consult in am for possible radiation to base of
   skull for CN palsy
   -bicarb drip + lasix to excrete tumor lysis byproducts, decreased lasix
   due to hypernatremia to 148
   -trasfused 1 unit in am, 2 units overnight for Hct<21
   -remaining comfortable on PSV 10/10 with high tidal volumes. Last ABG
   7.33/56/108
   -renal consulted but have not seen him yet
   -family meeting today at noontime
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2144-7-22**] 04:00 PM
   Bactrim (SMX/TMP) - [**2144-7-22**] 04:00 PM
   Meropenem - [**2144-7-23**] 12:00 PM
   Acyclovir - [**2144-7-23**] 08:00 PM
   Doxycycline - [**2144-7-23**] 09:00 PM
   Fluconazole - [**2144-7-23**] 10:00 PM
   Metronidazole - [**2144-7-23**] 11:54 PM
   Ciprofloxacin - [**2144-7-23**] 11:55 PM
   Cefipime - [**2144-7-24**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Furosemide (Lasix) - 2 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2144-7-23**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-7-24**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.4
C (99.4
   HR: 100 (86 - 117) bpm
   BP: 112/56(73) {100/49(64) - 127/65(84)} mmHg
   RR: 10 (8 - 21) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 90.8 kg (admission): 81.7 kg
   Height: 69 Inch
    CVP: 5 (5 - 15)mmHg
           Total In:
                                                                  6,549 mL
                                                                  2,254 mL
   PO:
           TF:
                                                                  1,592 mL
                                                                    496 mL
   IVF:
                                                                  3,347 mL
                                                                  1,408 mL
   Blood products:
                                                                    900 mL
                                                                    350 mL
   Total out:
                                                                  5,080 mL
                                                                  1,800 mL
   Urine:
                                                                  5,080 mL
                                                                  1,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,469 mL
                                                                    454 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 834 (571 - 2,352) mL
   PS : 10 cmH2O
   RR (Spontaneous): 13
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 94%
   ABG: 7.33/56/108/28/1
   Ve: 9.4 L/min
   PaO2 / FiO2: 216
   Physical Examination
   GENERAL: intubated. Opens eyes to voice, follows commands, in no pain
   HEENT: Intubated, ETT, OG tube in place. acromegalic features (frontal
   bossing, large jaw, coarse facial features).  No conjunctival pallor.
   No scleral icterus. PERRL  Neck Supple, No LAD. Fullness of thyroid
   gland without distinct nodules.
   CARDIAC: Normal S1, S2. No murmurs, rubs or gallops appreciated
   LUNGS: CTAB
   ABDOMEN: mildly distended, + BS although hypoactive. Soft, NT.  No HSM
   GU: marked testicular swelling. No heat or redness.
   EXTREMITIES: 2+ dorsalis pedis/ posterior tibial/radial pulses. No
   pitting edema
   SKIN: No rashes/lesions, ecchymoses. Tattoo of R forearm.
   NEURO: responds to commands, nods heads, moves hands/feet bilaterally.
   No cranial nerve palsies appreciated.
   Labs / Radiology
   34 K/uL
   8.3 g/dL
   275 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.4 mEq/L
   73 mg/dL
   111 mEq/L
   148 mEq/L
   24.6 %
   0.3 K/uL
        [image002.jpg]
                             [**2144-7-23**]  05:10 AM
                             [**2144-7-23**]  11:09 AM
                             [**2144-7-23**]  12:05 PM
                             [**2144-7-23**]  12:26 PM
                             [**2144-7-23**]  05:32 PM
                             [**2144-7-23**]  07:44 PM
                             [**2144-7-24**]  12:59 AM
                             [**2144-7-24**]  02:45 AM
                             [**2144-7-24**]  05:54 AM
                             [**2144-7-24**]  06:25 AM
   WBC
   0.4
   0.3
   0.3
   Hct
   22.4
   21.1
   20.5
   23.5
   24.6
   Plt
   50
   40
   34
   Cr
   0.7
   0.7
   0.7
   0.6
   TCO2
   27
   26
   28
   31
   Glucose
   [**Telephone/Fax (3) 7206**]75
   Other labs: PT / PTT / INR:13.2/23.4/1.1, CK / CKMB /
   Troponin-T:138/3/0.02, ALT / AST:15/21, Alk Phos / T Bili:79/0.4,
   Amylase / Lipase:39/132, Differential-Neuts:5.0 %, Band:0.0 %,
   Lymph:85.0 %, Mono:5.0 %, Eos:0.0 %, D-dimer:6637 ng/mL, Fibrinogen:361
   mg/dL, Lactic Acid:2.3 mmol/L, Albumin:2.8 g/dL, LDH:1787L, Ca++:7.0
   mg/dL, Mg++:2.9 mg/dL, PO4:6.8 mg/dL, Uric acid 6.6 mg/dL, urine pH
   5.0, EBV PCR 40 EBV genomes/10^5 lymphocytes (positive result, normal
   is non-detectable)
   Assessment and Plan
   40M with recent h/o tumor lysis syndrome, started chemotherapy on [**7-21**]
   for Burkitt
s lymphoma. New diagnosis of acromegaly, in ICU with
   respiratory failure in setting of pneumonia, possible ARDS. Original
   presenting complaint was Bell
s Palsy, urinary retention, and lower
   extremity weakness.
   Respiratory failure: intubated since [**7-12**], one failed extubation on [**7-15**]
   secondary to copious secretions. Intermittent dysynchrony with vent,
   PSV has increased his comfort level.  Contributing factors to
   respiratory status include PNA and suspicion for infiltrative malignant
   process on CT, as well as meeting ARDS criteria starting [**7-18**]. However,
   compliance has remained normal so tolerating large tidal volumes on
   PSV.
   -Continue PSV, wean pressures as tolerated to [**5-19**] today.
   -Breathing trial today, follow RISB when weaned toward [**5-19**]. (RISB today
   15 on PSV 10/10, Vt 800, Rate 12)
   -Wean sedation with fentanyl/midazolam
   -Continue diuresis to at least 100-200cc/hr as it is improving his
   respiratory status and as his Na level tolerates
   -follow ABGs when changes in ventilator settings or respiratory status
   (Goal is ph>7.20, C02<70)
   -Daily CXR
   Pneumonia/Infection: ongoing fevers with persistent infiltrates at R
   base on CXR. WBC elevated on [**7-18**], now precipitously dropped in setting
   of chemotherapy. Patient is now neutropenic (ANC<<500)
   -Vanco and meropenem d/c
ed yesterday (10 days vanco, 3 days [**Last Name (un) **]
   total)
   -cipro (day 6,start [**7-19**])
   -cefepime 2gm IV q8h (day 2)
   -flagyl 500mg IV TID (day 2)
   -touch base with ID regarding stopping flagyl today, cipro tomorrow to
   increase number of abx
   -doxycycline 100mg [**Hospital1 **] for mycoplasma coverage (day 3)
   -fluconazole for ppx  (day 4, start [**7-21**])
   -Start acyclovir for ppx (day 3)
   -Bactrim d/c
ed, continue atovaquone for PCP [**Name Initial (PRE) 1694**] (day 2)
   -check G6PD for above, if negative, switch to dapsone
   -urine cx for Mycoplasma hominsis pending
   -f/u final BAL results, blood cx, CSF fungal, AFB, and viral cx, CSF
   EBV PCR, serum EBV, CMV, HHV-6 PCR, and galactomannan and B-glucan
   Tumor lysis syndrome: Labs at admission were significant for elevated
   LDH, hyperkalemia, hyperphosphatemia, hyperuricemia which all resolved
   to baseline. Patient s/p 2 doses rasburicase. Tumor lysis labs started
   to rise again on [**7-21**]. Today they are trending down.
   -f/u tumor lysis labs Q8H
   -keep UOP at least 100cc/hr with lasix gtt
   -check urine pH tomorrow
   -stop HC03 as respiratory status better with less IVF and tumor lysis
   labs stable (could consider oral HC03)
   -s/p 3^rd dose rasburicase
   -continue allopurinol
   -low phos tube feeds
   -aluminum hydroxide for PO phos binding
   -continue kaexelate
   -f/u renal recs
   Burkitt
s lymphoma: CT shows diffuse evidence of malignancy - c/w
   lymphangitic spread of diffuse malignant process, thickening in
   stomach, ureters. Bone marrow bx c/w Burkitt
s lymphoma. Hyper-CVAD
   started on [**7-21**]. now s/p [**3-20**] doses cyclophosphamide, cytarabine
   intrathecal x 1, m
   -f/u onc recs
   -vincristine and doxorubicin today
   -consult rad-onc for possibility of radiation to skull in light of
   cranial nerve palsies. Likely will need imaging first. (Hold off on
   this for now)
   -intrathecal methotrexate today
   -dexamethasone daily 40mg
   Pancytopenia: Platelets following throughout this admission,
   precipitous drop in WBC on day 1 of chemo, Hct in low 20s throughout
   most of admission.
   -s/p 3 units of PRBCs over last 48 hours
   -transfuse again if needed (Hct<21)
   -give platelets if needed (<15)
   -CBC Q8H
   -start neupogen today
   -neutropenic precautions
   Tachycardia: Consistently tachycardic to 110s/120s. TSH WNL, TTE showed
   normal EF and no evidence of heart failure. Repeat EKGs have shown
   frequent PVCs, no signs of myocardial ischemia. Likely physiologic
   tachycardia secondary to infection, lymphoma, anemia, high [**Hospital1 **].
   -maximize comfort on ventilator
   -EKG on [**7-23**] at baseline
   -continue metoprolol 50mg Q6H
   Distended abdomen: abdominal distention is stable with hypoactive bowel
   sounds. No stool for 4 days.
   -Colace increased, receiving senna, dulcolax, and lactulose
   -s/p methylnaltrexone x1. repeat if no stool in 24h
   -Try to wean fentanyl as possible
   -add PO narcan
   Hyperglycemia: blood glucose in the 200s starting [**7-23**]. likely largely
   due to the dexamethasone.
   -increase ISS. If persists in the 200s add insulin drip.
   Social:
   -social work consulted
   -family meeting today for providing more information about diagnoses
   The following issues are not acute or active but left on the note to be
   followed up on when Mr. [**Known lastname 7019**] is awake and stabilized:
   Acromegaly: New presumptive diagnosis based on clinical features.
   Definitive work-up postponed until patient stabilized.
   -f/u with endocrine
   -f/u endocrine labs (IGFBP, Vit D)
   -ophtho consult for visual fields when patient extubated/alert
   Orchitis:  Tender scrotal swelling on admission, scrotal US suggested
   epididymitis/orchitis. No clear masses. G&C swab negative. Exam
   starting [**7-17**] shows marked increase in testicular swelling, particularly
   on the left. Thought to be secondary to malignant infiltration and
   generalized edema.
   -f/u when patient stabilized, likely due to lymphoma
   Neurologic abnormalities: Initial patient complaints included R Bell
   palsy, loss of R facial sensation, weakness/decreased sensation of
   lower extremities. MRI T-spine at OSH showed epidural enhancement of
   thoracic spine; MRI head showed pituitary macroadenoma.
   -neurosurgery has low suspicion for cord compression and repeat MRI of
   spine not necessary.
   -Repeat MRI of pituitary eventually needed although in light of recent
   ARF, this is not a priority and can wait until patient stabilized.
   -better neuro exam as we wean sedation, particularly focused on cranial
   nerve
s V and VII and lower extremity sensation/motor
   Joint pain: Patient has severe and diffuse arthralgias, most likely
   secondary to hypertrophic arthropathy from acromegaly.
   -avoiding NSAIDs
   -tylenol when awake
   -continue pain control with fentanyl
   ICU Care
   Nutrition: hold feeds for now pending possible extubation today
   NovaSource Renal (Full) - [**2144-7-23**] 06:33 PM 70 mL/hour
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2144-7-13**] 10:03 AM
   Arterial Line - [**2144-7-13**] 02:00 PM
   18 Gauge - [**2144-7-21**] 02:00 PM
   Prophylaxis:
   DVT: pneumoboots. No SCH due to low plts
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments: family meetin- today. Endocrine spoke with
   mother on the phone and oncology to call her this-afternoon. HCP is
   friend [**Name (NI) 1068**] [**Name (NI) 7003**], cell [**Telephone/Fax (1) 7209**]
   Code status: Full code
   Disposition: pending respiratory status and tumor lysis resolution as
   well as aggressive chemotherapy.

2144-07-25 05:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2144-7-24**] 04:10 PM
 FEVER - 101.5
F - [**2144-7-24**] 03:00 PM
   [**7-24**]
   - added PO narcan to bowel regimen
   - stopped bicarb drip although urine pH only 5
   - extubated
   - checking with ID on antibiotic regimen: will d/c flagyl today and
   cipro tomorrow
   - started neupogen today
   - continued hyperglycemia, increased HSSI; started on insulin drip
   - d/c furosemide drip [**2-17**] metabolic alkalosis
   - reintubated for hypercapnic respiratory distress
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2144-7-22**] 04:00 PM
   Bactrim (SMX/TMP) - [**2144-7-22**] 04:00 PM
   Meropenem - [**2144-7-23**] 12:00 PM
   Metronidazole - [**2144-7-24**] 07:47 AM
   Acyclovir - [**2144-7-24**] 09:00 PM
   Doxycycline - [**2144-7-24**] 09:20 PM
   Fluconazole - [**2144-7-24**] 09:22 PM
   Ciprofloxacin - [**2144-7-24**] 11:56 PM
   Cefipime - [**2144-7-25**] 04:48 AM
   Infusions:
   Insulin - Regular - 8 units/hour
   Other ICU medications:
   Fentanyl - [**2144-7-24**] 01:00 PM
   Furosemide (Lasix) - [**2144-7-24**] 04:45 PM
   Famotidine (Pepcid) - [**2144-7-24**] 07:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-7-25**] 05:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 36.7
C (98
   HR: 94 (94 - 118) bpm
   BP: 112/64(78) {99/55(70) - 149/90(107)} mmHg
   RR: 29 (10 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93 kg (admission): 81.7 kg
   Height: 69 Inch
    CVP: 4 (-1 - 12)mmHg
   Total In:
                                                                  5,641 mL
                                                                    409 mL
   PO:
   TF:
                                                                    780 mL
   IVF:
                                                                  4,151 mL
                                                                    409 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  6,410 mL
                                                                    890 mL
   Urine:
                                                                  6,410 mL
                                                                    890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -769 mL
                                                                   -481 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 531 (507 - 873) mL
   PS : 5 cmH2O
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI: 29
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 24 cmH2O
   SpO2: 97%
   ABG: 7.33/61/167/31/4
   Ve: 13.9 L/min
   PaO2 / FiO2: 239
   Physical Examination
   GENERAL: intubated. Opens eyes to voice, follows commands, denies pain
   HEENT: Intubated, ETT, OG tube in place. acromegalic features (frontal
   bossing, large jaw, coarse facial features).  No conjunctival pallor.
   No scleral icterus. PERRL  Left facial droop.  Neck Supple, No LAD.
   Fullness of thyroid gland without distinct nodules.
   CARDIAC: Normal S1, S2. No murmurs, rubs or gallops appreciated
   LUNGS: CTAB
   ABDOMEN: mildly distended, + BS although hypoactive. Soft, NT.  No HSM
   GU: somewhat diminished testicular swelling. No heat or redness.
   EXTREMITIES: 2+ dorsalis pedis/ posterior tibial/radial pulses. +2
   pitting edema
   SKIN: No rashes/lesions, ecchymoses. Tattoo of R forearm.
   NEURO: responds to commands, nods heads, moves hands/feet bilaterally.
   Left facial droop
   Labs / Radiology
   21 K/uL
   8.4 g/dL
   177 mg/dL
   0.5 mg/dL
   31 mEq/L
   4.4 mEq/L
   48 mg/dL
   114 mEq/L
   151 mEq/L
   23.4 %
   0.1 K/uL
        [image002.jpg]
                             [**2144-7-24**]  05:54 AM
                             [**2144-7-24**]  06:25 AM
                             [**2144-7-24**]  01:28 PM
                             [**2144-7-24**]  03:22 PM
                             [**2144-7-24**]  05:10 PM
                             [**2144-7-24**]  09:23 PM
                             [**2144-7-24**]  09:36 PM
                             [**2144-7-25**]  02:07 AM
                             [**2144-7-25**]  04:08 AM
                             [**2144-7-25**]  04:27 AM
   WBC
   0.3
   0.2
   0.3
   0.1
   Hct
   24.6
   23.0
   22.9
   23.4
   Plt
   34
   31
   22
   21
   Cr
   0.6
   0.6
   0.6
   0.5
   TCO2
   31
   32
   31
   33
   35
   34
   Glucose
   275
   296
   215
   177
   Other labs: PT / PTT / INR:14.4/25.5/1.3, CK / CKMB /
   Troponin-T:138/3/0.02, ALT / AST:27/35, Alk Phos / T Bili:82/0.6,
   Amylase / Lipase:39/132, Differential-Neuts:8.0 %, Band:0.0 %,
   Lymph:92.0 %, Mono:0.0 %, Eos:0.0 %, D-dimer:6179 ng/mL, Fibrinogen:384
   mg/dL, Lactic Acid:2.3 mmol/L, Albumin:2.8 g/dL, LDH:1530 IU/L,
   Ca++:7.0 mg/dL, Mg++:2.7 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O HYPOTENSION (NOT SHOCK)
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 TACHYCARDIA, OTHER
   40M with recent h/o tumor lysis syndrome, started chemotherapy on [**7-21**]
   for Burkitt
s lymphoma. New diagnosis of acromegaly, in ICU with
   respiratory failure in setting of pneumonia, possible ARDS. Original
   presenting complaint was Bell
s Palsy, urinary retention, and lower
   extremity weakness.
   Respiratory failure: intubated since [**7-12**], s/p 2 failed extubations on
   [**7-15**] secondary to copious secretions and [**7-25**] due to work of breathing.
   Intermittent dysynchrony with vent, currently comfortable on AC.
   Contributing factors to respiratory status include PNA and suspicion
   for infiltrative malignant process on CT, as well as meeting ARDS
   criteria starting [**7-18**]. However, compliance has remained normal so
   tolerating large tidal volumes on PSV.
   -Continue CMV/ PS as per patient comfort, wean FiO2 and PEEP as
   tolerated
   -Wean sedation with fentanyl/midazolam
   -Patient autodiuresis to at least 100-200cc/hr, do not restart lasix
   gtt now in setting of metabolic alkalosis prior to extubation
   -follow ABGs when changes in ventilator settings or respiratory status
   (Goal is ph>7.20, C02<70)
   -Daily CXR
   -patient will likely need tracheostomy in the future when condition has
   stabilized
   Pneumonia/Infection: ongoing fevers with persistent infiltrates at R
   base on CXR. WBC elevated on [**7-18**], now precipitously dropped in setting
   of chemotherapy. Patient is now neutropenic (ANC<<500)
   -s/p 10day course Vanco (d/ced [**7-24**]) and 3 days meropenem (d/c
ed 3
   [**7-24**]), 2 dys flaygl (d/ced [**7-25**])
   -cipro (day 7,start [**7-19**])
   -cefepime 2gm IV q8h (day 3)
   -touch base with ID regarding stopping flagyl today, cipro tomorrow to
   increase number of abx
   -doxycycline 100mg [**Hospital1 **] for mycoplasma coverage (day 4)
   -prophylaxis with fluconazole (day 5, start [**7-21**]), acyclovir (day 4),
   atovaquone for PCP [**Name Initial (PRE) 1694**] (day 3: d/ced Bactrim)
   -check G6PD if negative, will switch atovaquone to dapsone for better
   efficacy
   -urine cx for Mycoplasma hominsis pending
   -f/u final BAL results, blood cx, CSF fungal, AFB, and viral cx, CSF
   EBV PCR, serum EBV, CMV, HHV-6 PCR, and galactomannan and B-glucan
   Tumor lysis syndrome: Labs at admission were significant for elevated
   LDH, hyperkalemia, hyperphosphatemia, hyperuricemia which all resolved
   to baseline. Patient s/p 3 doses rasburicase. Tumor lysis labs started
   to rise again on [**7-21**]. Today they are relatively stable.
   -f/u tumor lysis labs Q8H
   -keep UOP at least 100cc/hr; currently autodiuresing
   -stop HC03 as respiratory status better with less IVF and tumor lysis
   labs stable (could consider oral HC03)
   -s/p 3^rd dose rasburicase
   -continue allopurinol
   -low phos tube feeds
   -continue kaexelate
   -f/u renal recs
   Burkitt
s lymphoma: CT shows diffuse evidence of malignancy - c/w
   lymphangitic spread of diffuse malignant process, thickening in
   stomach, ureters. Bone marrow bx c/w Burkitt
s lymphoma. Hyper-CVAD
   started on [**7-21**]. now s/p [**3-20**] doses cyclophosphamide, cytarabine
   intrathecal x 1, s/p vincristine and doxorubicin yesterday, s/p
   intrathecal methotrexate
   -f/u onc recs
   -consult rad-onc for possibility of radiation to skull in light of
   cranial nerve palsies. Likely will need imaging first. (Hold off on
   this for now)
   - continue chemotherapeutic regimen as outlined by onc
   Pancytopenia: Platelets following throughout this admission,
   precipitous drop in WBC on day 1 of chemo, Hct in low 20s throughout
   most of admission.  Neutropenic fever today
   -s/p 3 units of PRBCs over last 48 hours
   -transfuse again if needed (Hct<21)
   -give platelets if needed (<15)
   -CBC Q8H
   -neupogen started yesterday
   -neutropenic precautions
   Tachycardia: Consistently tachycardic to 110s/120s. TSH WNL, TTE showed
   normal EF and no evidence of heart failure. Repeat EKGs have shown
   frequent PVCs, no signs of myocardial ischemia. Likely physiologic
   tachycardia secondary to infection, lymphoma, anemia, high [**Hospital1 **].
   -maximize comfort on ventilator
   -EKG on [**7-23**] at baseline
   -continue metoprolol 50mg Q6H
   Distended abdomen: abdominal distention is stable with hypoactive bowel
   sounds. No stool for 5 days.
   -Colace increased, receiving senna, dulcolax, and lactulose
   -s/p methylnaltrexone x1. repeat if no stool in 24h
   -Try to wean fentanyl as possible
   -add PO narcan
   - restart tube feeds with free water flushes to improve hypernatremia
   - D51/2NS at 75cc/L to help resolve hypernatremia
   Hyperglycemia: blood glucose in the 200- 300s starting [**7-23**] largely due
   to the dexamethasone, antibiotics in D50W and acromegaly.
   -started insulin drip with goal BG 100-150mg/dL
   - may be able to transition to less intensive insulin protocol when
   patient is no longer receiving steriods
   Social:
   -social work consulted
   -family meeting yesterday for providing more information about
   diagnoses
   The following issues are not acute or active but left on the note to be
   followed up on when Mr. [**Known lastname 7019**] is awake and stabilized:
   Acromegaly: New presumptive diagnosis based on clinical features.
   Definitive work-up postponed until patient stabilized.
   -f/u with endocrine
   -f/u endocrine labs (IGFBP, Vit D)
   -ophtho consult for visual fields when patient extubated/alert
   Orchitis:  Tender scrotal swelling on admission, scrotal US suggested
   epididymitis/orchitis. No clear masses. G&C swab negative. Exam
   starting [**7-17**] shows marked increase in testicular swelling, particularly
   on the left. Thought to be secondary to malignant infiltration and
   generalized edema.
   -f/u when patient stabilized, likely due to lymphoma
   Neurologic abnormalities: Initial patient complaints included R Bell
   palsy, loss of R facial sensation, weakness/decreased sensation of
   lower extremities. MRI T-spine at OSH showed epidural enhancement of
   thoracic spine; MRI head showed pituitary macroadenoma.
   -neurosurgery has low suspicion for cord compression and repeat MRI of
   spine not necessary.
   -Repeat MRI of pituitary eventually needed although in light of recent
   ARF, this is not a priority and can wait until patient stabilized.
   -better neuro exam as we wean sedation, particularly focused on cranial
   nerve
s V and VII and lower extremity sensation/motor
   Joint pain: Patient has severe and diffuse arthralgias, most likely
   secondary to hypertrophic arthropathy from acromegaly.
   -avoiding NSAIDs
   -tylenol when awake
   -continue pain control with fentanyl
   ICU Care
   Nutrition: restart tube feeds
   Glycemic Control:  insulin drip
   Lines:
   Multi Lumen - [**2144-7-13**] 10:03 AM
   Arterial Line - [**2144-7-13**] 02:00 PM
   18 Gauge - [**2144-7-21**] 02:00 PM
   Prophylaxis:
   DVT:  Heparin
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: critical

2144-07-26 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - switched to pressure support
   - pt to get intrathecal chemo on [**7-26**]
   - hypophos
   - crit trending down, 1 unit given
   -platelets given yesterday x 2
   - id recs to add vanco if fevers persist
   -blood cx x2
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2144-7-23**] 12:00 PM
   Metronidazole - [**2144-7-24**] 07:47 AM
   Doxycycline - [**2144-7-25**] 08:41 PM
   Acyclovir - [**2144-7-25**] 09:06 PM
   Fluconazole - [**2144-7-25**] 10:05 PM
   Ciprofloxacin - [**2144-7-26**] 12:15 AM
   Cefipime - [**2144-7-26**] 03:56 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Insulin - Regular - 5 units/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Fentanyl - [**2144-7-25**] 06:40 PM
   Metoprolol - [**2144-7-25**] 08:30 PM
   Famotidine (Pepcid) - [**2144-7-25**] 08:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-7-26**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.9
C (100.2
   HR: 98 (84 - 117) bpm
   BP: 107/52(69) {105/52(69) - 143/82(98)} mmHg
   RR: 18 (16 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88 kg (admission): 81.7 kg
   Height: 69 Inch
    CVP: 298 (1 - 298)mmHg
   Total In:
                                                                  4,497 mL
                                                                  1,592 mL
   PO:
   TF:
                                                                    146 mL
                                                                    143 mL
   IVF:
                                                                  3,277 mL
                                                                  1,168 mL
   Blood products:
                                                                    394 mL
   Total out:
                                                                  3,060 mL
                                                                    770 mL
   Urine:
                                                                  3,060 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,437 mL
                                                                    822 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 570 (536 - 766) mL
   PS : 8 cmH2O
   RR (Set): 28
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 19 cmH2O
   Plateau: 18 cmH2O
   SpO2: 98%
   ABG: 7.51/41/111/30/9
   Ve: 13.2 L/min
   PaO2 / FiO2: 222
   Physical Examination
   GENERAL: intubated. Opens eyes to voice, follows commands
   HEENT: Intubated, ETT, NG tube in place. acromegalic features (frontal
   bossing, large jaw, coarse facial features).  No conjunctival pallor.
   No scleral icterus. PERRL. Neck Supple, No LAD. Fullness of thyroid
   gland without distinct nodules.
   CARDIAC: Normal S1, S2. No murmurs, rubs or gallops appreciated
   LUNGS: CTAB
   ABDOMEN: mildly distended, TTP in RUQ. + BS although hypoactive. No HSM
   GU: somewhat diminished testicular swelling. No heat or redness.
   EXTREMITIES: 2+ dorsalis pedis/ posterior tibial/radial pulses. +2
   pitting edema
   SKIN: Diffuse petechiae. Tattoo of R forearm.
   NEURO: responds to commands, nods heads, moves hands/feet bilaterally.
   Left facial droop
   Labs / Radiology
   19 K/uL
   7.3 g/dL
   108 mg/dL
   0.4 mg/dL
   30 mEq/L
   3.9 mEq/L
   30 mg/dL
   114 mEq/L
   148 mEq/L
   21.5 %
   0.1 K/uL
        [image002.jpg]
                             [**2144-7-25**]  04:08 AM
                             [**2144-7-25**]  04:27 AM
                             [**2144-7-25**]  06:30 AM
                             [**2144-7-25**]  11:51 AM
                             [**2144-7-25**]  12:42 PM
                             [**2144-7-25**]  02:25 PM
                             [**2144-7-25**]  08:49 PM
                             [**2144-7-25**]  09:14 PM
                             [**2144-7-26**]  03:35 AM
                             [**2144-7-26**]  03:57 AM
   WBC
   0.1
   0.1
   0.1
   0.1
   Hct
   23.4
   23.5
   22.3
   21.5
   Plt
   21
   22
   23
   22
   19
   Cr
   0.5
   0.4
   0.4
   0.4
   TCO2
   34
   35
   33
   33
   34
   Glucose
   177
   123
   117
   123
   108
   Other labs: PT / PTT / INR:14.4/25.5/1.3, CK / CKMB /
   Troponin-T:138/3/0.02, ALT / AST:27/35, Alk Phos / T Bili:82/0.6,
   Amylase / Lipase:39/132, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:100.0 %, Mono:0.0 %, Eos:0.0 %, D-dimer:6179 ng/mL,
   Fibrinogen:384 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.8 g/dL,
   LDH:1149 IU/L, Ca++:7.3 mg/dL, Mg++:2.4 mg/dL, PO4:1.9 mg/dL, Uric acid
   1.4 mg/dL, Urine cx negative
   Assessment and Plan
   40M with recent h/o tumor lysis syndrome, started chemotherapy on [**7-21**]
   for Burkitt
s lymphoma. New diagnosis of acromegaly, in ICU with
   respiratory failure in setting of pneumonia, possible ARDS. Original
   presenting complaint was Bell
s Palsy, urinary retention, and lower
   extremity weakness.
   Respiratory failure: intubated since [**7-12**], s/p 2 failed extubations on
   [**7-15**] secondary to copious secretions and [**7-25**] due to work of breathing.
   Intermittent dysynchrony with vent, currently comfortable on AC.
   Contributing factors to respiratory status include PNA and suspicion
   for infiltrative malignant process on CT, as well as meeting ARDS
   criteria starting [**7-18**]. However, compliance has remained normal so
   tolerating large tidal volumes on PSV.
   -Continue CMV/PS as per patient comfort, wean FiO2 and PEEP as
   tolerated
   -Wean sedation with fentanyl/midazolam
   -Continue autodiuresis to at least 100-200cc/hr. Start lasix gtt if
   needed but monitor metabolic alkalosis
   -follow ABGs when changes in ventilator settings or respiratory status
   (Goal is ph>7.20, C02<70)
   -Daily CXR
   -patient will likely need tracheostomy. Contact IP tomorrow. Call HCP
   today to set up a meeting to discuss that early this week.
   Pneumonia/Infection: ongoing fevers with persistent infiltrates at R
   base on CXR. WBC elevated on [**7-18**], now precipitously dropped in setting
   of chemotherapy. Patient is now neutropenic (ANC<<500)
   -s/p 10day course Vanco (d/ced [**7-24**]) and 3 days meropenem (d/c
ed 3
   [**7-24**]), 2 dys flaygl (d/ced [**7-25**])
   -cipro (day 8,start [**7-19**])
   -cefepime 2gm IV q8h (day 4)
   -doxycycline 100mg [**Hospital1 **] for mycoplasma coverage (day 5)
   -Start vanco again today for fever, neutropenia.
   -Sputum cx from [**7-23**] positive for coag+ staph, repeat sputum cx if
   possible
   -prophylaxis with fluconazole (day 6, start [**7-21**]), acyclovir (day 5),
   atovaquone for PCP [**Name Initial (PRE) 1694**] (day 4: d/ced Bactrim)
   -check G6PD if negative, will switch atovaquone to dapsone for better
   efficacy
   -urine cx for Mycoplasma hominsis negative
   -f/u final BAL results, blood cx, CSF fungal, AFB, and viral cx, CSF
   EBV PCR, serum EBV, CMV, HHV-6 PCR, and galactomannan and B-glucan
   Tumor lysis syndrome: Labs at admission were significant for elevated
   LDH, hyperkalemia, hyperphosphatemia, hyperuricemia which all resolved
   to baseline. Patient s/p 3 doses rasburicase, last dose 7/10. Tumor
   lysis labs started to rise again on [**7-21**]. Today they are relatively
   stable.
   -f/u tumor lysis labs Q8H
   -keep UOP at least 100cc/hr; currently autodiuresing
   -continue allopurinol
   -increase phos in tube feeds in setting of phos back to normal/low
   today
   -renal following in case of tumor lysis induced ATN again. Cre
   currently stable.
   Burkitt
s lymphoma: CT shows diffuse evidence of malignancy - c/w
   lymphangitic spread of diffuse malignant process, thickening in
   stomach, ureters. Bone marrow bx c/w Burkitt
s lymphoma. Hyper-CVAD
   started on [**7-21**]. now s/p [**3-20**] doses cyclophosphamide, cytarabine
   intrathecal x 1, s/p vincristine and doxorubicin [**7-23**], s/p intrathecal
   methotrexate
   -f/u onc recs
   -IT chemo today, give platelets first
   - continue chemotherapeutic regimen as outlined by onc
   -gadolinium-enhanced head MRI when patient stabilized to investigate
   extent of lymphoma and possible need for radiation to head
   Pancytopenia: Platelets following throughout this admission,
   precipitous drop in WBC on day 1 of chemo, Hct in low 20s throughout
   most of admission.  Neutropenic fever today
   -s/p 1 units of PRBC over last 24 hours
   -transfuse again if needed (Hct<21)
   -give platelets if needed (<15)
   -CBC Q8H
   -neupogen started yesterday
   -neutropenic precautions
   Tachycardia: Consistently tachycardic to 110s/120s. TSH WNL, TTE showed
   normal EF and no evidence of heart failure. Repeat EKGs have shown
   frequent PVCs, no signs of myocardial ischemia. Likely physiologic
   tachycardia secondary to infection, lymphoma, anemia, high [**Hospital1 **].
   -maximize comfort on ventilator
   -EKG on [**7-23**] at baseline
   -continue metoprolol
   Distended abdomen: abdominal distention is stable with hypoactive bowel
   sounds. No stool for 6 days.
   -Colace, senna, dulcolax, and lactulose
   -s/p methylnaltrexone x1 and PO narcan.
   -Try to wean fentanyl as possible
   -restart tube feeds with free water flushes to improve hypernatremia
   -repeat LFTs
   -KUB
   Hyperglycemia: blood glucose in the 200- 300s starting [**7-23**] largely due
   to the dexamethasone, antibiotics in D50W and acromegaly.
   -started insulin drip with goal BG 100-150mg/dL
   -may be able to transition to less intensive insulin protocol when
   patient is no longer receiving steriods
   Social:
   -in touch with family as well as HCP [**Name (NI) 1068**] (friend), will contact today
   regarding possibility of trach.
   The following issues are not acute or active but left on the note to be
   followed up on when Mr. [**Known lastname 7019**] is awake and stabilized:
   Acromegaly: New presumptive diagnosis based on clinical features.
   Definitive work-up postponed until patient stabilized.
   -f/u with endocrine
   -f/u endocrine labs (IGFBP, Vit D)
   -ophtho consult for visual fields when patient extubated/alert
   Orchitis:  Tender scrotal swelling on admission, scrotal US suggested
   epididymitis/orchitis. No clear masses. G&C swab negative. Exam
   starting [**7-17**] shows marked increase in testicular swelling, particularly
   on the left. Thought to be secondary to malignant infiltration and
   generalized edema.
   -f/u when patient stabilized, likely due to lymphoma
   Neurologic abnormalities: Initial patient complaints included R Bell
   palsy, loss of R facial sensation, weakness/decreased sensation of
   lower extremities. MRI T-spine at OSH showed epidural enhancement of
   thoracic spine; MRI head showed pituitary macroadenoma.
   -neurosurgery has low suspicion for cord compression and repeat MRI of
   spine not necessary.
   -Repeat MRI of pituitary eventually needed although in light of recent
   ARF, this is not a priority and can wait until patient stabilized.
   -better neuro exam as we wean sedation, particularly focused on cranial
   nerve
s V and VII and lower extremity sensation/motor
   Joint pain: Patient has severe and diffuse arthralgias, most likely
   secondary to hypertrophic arthropathy from acromegaly.
   -avoiding NSAIDs
   -tylenol when awake
   -continue pain control with fentanyl
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2144-7-26**] 05:07 AM 20 mL/hour
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2144-7-13**] 10:03 AM
   Arterial Line - [**2144-7-13**] 02:00 PM
   18 Gauge - [**2144-7-21**] 02:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: pending stabilization of respiratory status,
   administration of high dose chemotherapy

2144-07-26 09:03:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   40M ARDS, lymphoma, acromegaly, Bell's palsy, with tumor lysis syndrome
   24 Hour Events:
 BLOOD CULTURED - At [**2144-7-25**] 11:11 AM
 BLOOD CULTURED - At [**2144-7-25**] 11:16 AM
   Reintubated 2 nights ago, Vent weaned to PSV 8/8, FiO2 50%
   Transfused plat x 2 units
   Tm <101
   Day 6 no bowel movements
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2144-7-23**] 12:00 PM
   Metronidazole - [**2144-7-24**] 07:47 AM
   Acyclovir - [**2144-7-25**] 09:06 PM
   Fluconazole - [**2144-7-25**] 10:05 PM
   Ciprofloxacin - [**2144-7-26**] 12:15 AM
   Cefipime - [**2144-7-26**] 03:56 AM
   Doxycycline - [**2144-7-26**] 07:49 AM
   Infusions:
   Insulin - Regular - 5 units/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2144-7-26**] 07:49 AM
   Fentanyl - [**2144-7-26**] 07:58 AM
   Metoprolol - [**2144-7-26**] 07:58 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-7-26**] 09:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.3
C (100.9
   HR: 98 (84 - 117) bpm
   BP: 107/52(69) {105/52(69) - 143/82(98)} mmHg
   RR: 18 (16 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88 kg (admission): 81.7 kg
   Height: 69 Inch
   CVP: 298 (5 - 298)mmHg
   Total In:
                                                                  4,521 mL
                                                                  2,152 mL
   PO:
   TF:
                                                                    146 mL
                                                                    173 mL
   IVF:
                                                                  3,301 mL
                                                                  1,569 mL
   Blood products:
                                                                    394 mL
   Total out:
                                                                  3,060 mL
                                                                  1,020 mL
   Urine:
                                                                  3,060 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,461 mL
                                                                  1,132 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 633 (536 - 766) mL
   PS : 8 cmH2O
   RR (Set): 28
   RR (Spontaneous): 17
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 19 cmH2O
   Plateau: 18 cmH2O
   SpO2: 98%
   ABG: 7.51/41/111/30/9
   Ve: 11.7 L/min
   PaO2 / FiO2: 222
   Physical Examination
   General Appearance: Well nourished, Central line looks intact, no
   evidence of erythema
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube, acromegalic
   features (face/feet)
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant/lat)
   Abdominal: Soft, Bowel sounds present, Distended, RUQ mild tenderness
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, intubated
   Labs / Radiology
   7.3 g/dL
   19 K/uL
   108 mg/dL
   0.4 mg/dL
   30 mEq/L
   3.9 mEq/L
   30 mg/dL
   114 mEq/L
   148 mEq/L
   21.5 %
   0.1 K/uL
        [image002.jpg]
                             [**2144-7-25**]  04:08 AM
                             [**2144-7-25**]  04:27 AM
                             [**2144-7-25**]  06:30 AM
                             [**2144-7-25**]  11:51 AM
                             [**2144-7-25**]  12:42 PM
                             [**2144-7-25**]  02:25 PM
                             [**2144-7-25**]  08:49 PM
                             [**2144-7-25**]  09:14 PM
                             [**2144-7-26**]  03:35 AM
                             [**2144-7-26**]  03:57 AM
   WBC
   0.1
   0.1
   0.1
   0.1
   Hct
   23.4
   23.5
   22.3
   21.5
   Plt
   21
   22
   23
   22
   19
   Cr
   0.5
   0.4
   0.4
   0.4
   TCO2
   34
   35
   33
   33
   34
   Glucose
   177
   123
   117
   123
   108
   Other labs: PT / PTT / INR:14.4/25.5/1.3, CK / CKMB /
   Troponin-T:138/3/0.02, ALT / AST:27/35, Alk Phos / T Bili:82/0.6,
   Amylase / Lipase:39/132, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:100.0 %, Mono:0.0 %, Eos:0.0 %, D-dimer:6179 ng/mL,
   Fibrinogen:384 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.8 g/dL,
   LDH:1149 IU/L, Ca++:7.3 mg/dL, Mg++:2.4 mg/dL, PO4:1.9 mg/dL
   Fluid analysis / Other labs: LDH slightly decreased from 1227
   Microbiology: Sputum - coag pos staph from [**7-23**]
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O HYPOTENSION (NOT SHOCK)
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 TACHYCARDIA, OTHER
   Attending Note: I saw and examined the patient, and was physically
   present with the ICU team for the key portions of the services
   provided. I agree with the note above, including the assessment and
   plan. I would emphasize and add the following points: 40M ARDS,
   lymphoma, acromegaly, Bell's palsy, with tumor lysis syndrome
   Impression: complicated case. Currently neutropenic and febrile, and
   s/p second re-intubation.
   Agree with plan to wean FiO2/peep as tolerated. From a respiratory
   perspective, once he is more stable, afebrile and pancytopenia
   improving, he will almost certainly require a tracheostomy. This was
   discussed briefly with Mr [**Known lastname 7019**] again this morning but a meeting
   should be set up with HCP.
   Febrile/neutropenia - would restart Vancomycin. Continue other Abx -
   cipro d8, cefepime d 4, doxy d5. Will continue broad antibiotic
   coverage for M. hominis / nosocomial aspiration / VAP and prophylaxis
   for neutropenia / fever.
   Lymphoma/Tumor lysis syndrome - labs relatively stable. IT chemo to be
   given today. C/w allopurinol. Continue chemo for Burkitt's lymphoma;
   will continue to treat tumor lysis with dex and allopurinol - numbers
   are improving s/p rasburicase. WBC and plts appear to be at nadir -
   continue to monitor, on neupogen and continue with blood product
   support.
   Endocrine following for acromegaly / macroadenoma, no immediate plans
   for treatment; no evidence of pituitary hypofunction at this point.
   Will continue PCP prophylaxis while on high dose steroids. On insulin
   drip for hyperglycemia. Continue TFs.
   On PPI, SCH and remains full code. HCP is friend [**Name (NI) **].
   Remainder of plan as outlined in resident's note.
   ICU Care
   Nutrition: NovaSource Renal (Full) - [**2144-7-26**] 05:07 AM 20 mL/hour
   Glycemic Control:  Insulin infusion
   Lines: RIJ from [**7-14**], no evidence of infection
   Multi Lumen - [**2144-7-13**] 10:03 AM
   Arterial Line - [**2144-7-13**] 02:00 PM
   18 Gauge - [**2144-7-21**] 02:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2144-07-27 06:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - given 1 unit platelets, 1 unit PRBCs
   - LP done and IT methotrexate given at 5pm
   - per onc, stop neupogen on days 10 and 11
   - renal signed off
   - patient pulled NGT, OGT put in place
   - started D5 1/2NS to maintain UOP>100cc/hr, gave lasix 20mg x1 last
   night and x1 this am
   - A-line culture from [**7-25**] grew gram-positive cocci in clusters (vanc
   started yesterday)
   - discussed trach with HCP who gave permission and informed family that
   this is a possibility
   -Mr. [**Known lastname 7019**] reporting significant back pain last night and this
   morning, mostly in the lower back but radiating up and down. Also
   reporting significant joint pain in knees, ankles. Also reporting
   dyspnea
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2144-7-24**] 07:47 AM
   Vancomycin - [**2144-7-26**] 09:31 AM
   Doxycycline - [**2144-7-26**] 10:13 PM
   Acyclovir - [**2144-7-26**] 11:14 PM
   Ciprofloxacin - [**2144-7-27**] 12:20 AM
   Fluconazole - [**2144-7-27**] 12:30 AM
   Cefipime - [**2144-7-27**] 03:57 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2144-7-26**] 04:33 PM
   Famotidine (Pepcid) - [**2144-7-26**] 08:15 PM
   Fentanyl - [**2144-7-27**] 01:57 AM
   Metoprolol - [**2144-7-27**] 02:00 AM
   Furosemide (Lasix) - [**2144-7-27**] 02:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-7-27**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.7
C (99.8
   HR: 108 (94 - 112) bpm
   BP: 118/63(79) {102/54(71) - 142/77(96)} mmHg
   RR: 18 (13 - 23) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 92.4 kg (admission): 81.7 kg
   Height: 69 Inch
    CVP: 6 (3 - 289)mmHg
   Total In:
                                                                  5,257 mL
                                                                  1,504 mL
   PO:
   TF:
                                                                    209 mL
   IVF:
                                                                  3,224 mL
                                                                  1,014 mL
   Blood products:
                                                                  1,354 mL
   Total out:
                                                                  2,765 mL
                                                                  1,540 mL
   Urine:
                                                                  2,765 mL
                                                                  1,540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,492 mL
                                                                    -36 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 682 (513 - 906) mL
   PS : 8 cmH2O
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 34
   PIP: 17 cmH2O
   SpO2: 98%
   ABG: 7.52/32/110/28/4
   Ve: 10.2 L/min
   PaO2 / FiO2: 220
   Aa gradient 206
   Physical Examination
   GENERAL: intubated. Alert, opens eyes to voice, follows commands, nods
   to questions appropriately
   HEENT: Intubated, ETT, OG tube in place. acromegalic features (frontal
   bossing, large jaw, coarse facial features).  No conjunctival pallor.
   No scleral icterus. PERRL. Neck Supple, No LAD. Fullness of thyroid
   gland without distinct nodules.
   CARDIAC: Normal S1, S2. No murmurs, rubs or gallops appreciated
   LUNGS: CTAB
   ABDOMEN: mildly distended, nontender. + BS. No HSM
   GU: somewhat diminished testicular swelling. No heat or redness.
   EXTREMITIES: 2+ dorsalis pedis/ posterior tibial/radial pulses. 3+
   pitting edema
   SKIN: Diffuse petechiae. Tattoo of R forearm.
   NEURO: responds to commands, nods head appropriately to questions.
   Sensation and motor intact in all 4 extremities. Reflexes 2+
   bilaterally in upper extremities, 0-1+ bilaterally in lower
   extremities, neutral to Babinski.
   Labs / Radiology
   23 K/uL
   8.1 g/dL
   138 mg/dL
   0.3 mg/dL
   28 mEq/L
   3.2 mEq/L
   20 mg/dL
   111 mEq/L
   144 mEq/L
   23.0 %
   0.1 K/uL
        [image002.jpg]
                             [**2144-7-25**]  12:42 PM
                             [**2144-7-25**]  02:25 PM
                             [**2144-7-25**]  08:49 PM
                             [**2144-7-25**]  09:14 PM
                             [**2144-7-26**]  03:35 AM
                             [**2144-7-26**]  03:57 AM
                             [**2144-7-26**]  12:03 PM
                             [**2144-7-26**]  08:00 PM
                             [**2144-7-27**]  03:28 AM
                             [**2144-7-27**]  05:57 AM
   WBC
   0.1
   0.1
   0.1
   0.1
   0.1
   Hct
   22.3
   21.5
   20.6
   24.1
   23.0
   Plt
   23
   22
   19
   24
   26
   23
   Cr
   0.4
   0.4
   0.3
   0.3
   0.3
   TCO2
   33
   33
   34
   27
   Glucose
   117
   123
   108
   110
   83
   138
   Other labs: PT / PTT / INR:14.0/26.3/1.2, CK / CKMB /
   Troponin-T:138/3/0.02, ALT / AST:38/25, Alk Phos / T Bili:68/0.8,
   Amylase / Lipase:39/132, Differential-Neuts:25.0 %, Band:0.0 %,
   Lymph:75.0 %, Mono:0.0 %, Eos:0.0 %, D-dimer:6179 ng/mL, Fibrinogen:537
   mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.6 g/dL, LDH:864 IU/L, Ca++:7.4
   mg/dL, Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   40M with recent h/o tumor lysis syndrome, started chemotherapy on [**7-21**]
   for Burkitt
s lymphoma. New diagnosis of acromegaly, in ICU with
   respiratory failure in setting of pneumonia, possible ARDS. Original
   presenting complaint was Bell
s Palsy, urinary retention, and lower
   extremity weakness.
   Respiratory failure: intubated since [**7-12**], s/p 2 failed extubations on
   [**7-15**] secondary to copious secretions and [**7-25**] due to work of breathing.
   Intermittent dysynchrony with vent, currently comfortable on AC.
   Contributing factors to respiratory status include PNA and suspicion
   for infiltrative malignant process on CT, as well as meeting ARDS
   criteria starting [**7-18**]. However, compliance has remained normal so
   tolerating large tidal volumes on PSV.
   -CXR this morning worse and patient reporting subjective dyspnea.
   Possibly related to IVF overload.
   -Increase PEEP to 10 for increased comfort, continue CMV on [**8-24**]
   changing for patient comfort. Consider weaning FiO2 and PEEP as
   tolerated but this is not a priority as patient has failed 2
   extubations and we are not planning imminent extubation in his state of
   critical illness, fever, immunocompromise, and chemotherapy.
   -Keep sedation off as long as patient as comfortable with bolus IV
   fentanyl for pain control.
   -Continue autodiuresis to at least 100-200cc/hr. Start lasix gtt.
   -monitor mixed alkalosis with ABG in hopes increased PEEP will help.
   Start acetazolamide and give K+ to help with metabolic portion of
   alkalosis
   -follow ABGs when changes in ventilator settings or respiratory status
   (Goal is ph>7.20, C02<70)
   -Daily CXR
   -patient will likely need tracheostomy, which was addressed with HCP
   and family over the weekend and they support it if needed. He is not a
   candidate now given fevers, low platelets, but keep in mind as a goal
   toward the end of the week.
   Pneumonia/Infection: ongoing fevers with persistent infiltrates at R
   base on CXR. WBC elevated on [**7-18**], now precipitously dropped in setting
   of chemotherapy. Patient is now neutropenic (ANC<<500).
   -s/p 10day course Vanco (d/ced [**7-24**]) and 3 days meropenem (d/c
ed 3
   [**7-24**]), 2 dys flaygl (d/ced [**7-25**])
   -Pneumonia, presumed mycoplasma hominis: doxycycline 100mg [**Hospital1 **] (day 6)
   and cipro (day 9,start [**7-19**]).
   -Neutropenic, febrile: vanco started again (day 2); cefepime 2gm IV q8h
   (day 5)
   -Sputum cx from [**7-23**] positive for coag+ staph, repeat sputum pending,
   covered by vanc
   -A-line grew gram positive cocci in clusters. Covered with vanc
   -resite A-line, pull IJ for line holiday with onc permission
   -prophylaxis with fluconazole (day 7, start [**7-21**]), acyclovir (day 6),
   atovaquone for PCP [**Name Initial (PRE) 1694**] (day 5: d/ced Bactrim)
   -check G6PD if negative, will switch atovaquone to dapsone for better
   efficacy
   -f/u final BAL results, blood cx, CSF fungal, AFB, and viral cx, CSF
   EBV PCR, serum EBV, CMV, HHV-6 PCR, and galactomannan and B-glucan
   Tumor lysis syndrome: Labs at admission were significant for elevated
   LDH, hyperkalemia, hyperphosphatemia, hyperuricemia which all resolved
   to baseline. Patient s/p 3 doses rasburicase, last dose 7/10. Tumor
   lysis labs started to rise again on [**7-21**]. Today they are relatively
   stable.
   -f/u tumor lysis labs Q8H
   -keep UOP at least 100cc/hr; currently autodiuresing. Start lasix gtt
   again.
   -continue allopurinol
   -phos low/normal, monitor as return to normal tube feeds
   -replete K as needed
   Burkitt
s lymphoma: CT shows diffuse evidence of malignancy - c/w
   lymphangitic spread of diffuse malignant process, thickening in
   stomach, ureters. Bone marrow bx c/w Burkitt
s lymphoma. Hyper-CVAD
   started on [**7-21**]. now s/p [**3-20**] doses cyclophosphamide, cytarabine
   intrathecal x 1, s/p vincristine and doxorubicin [**7-23**], s/p intrathecal
   methotrexate
   -continue chemotherapeutic regimen as outlined by onc. Request detailed
   plan for chemo over next few weeks to plan accordingly with access,
   dexamethasone, LPs, etc.
   -touch base with onc regarding back pain and if is expected in setting
   of IT MTX yesterday
   -gadolinium-enhanced head MRI when patient stabilized to investigate
   extent of lymphoma and possible need for radiation to head. This is
   only necessary if medical treatment fails and is not an urgent issue.
   Pancytopenia: Platelets following throughout this admission,
   precipitous drop in WBC on day 1 of chemo, Hct in low 20s throughout
   most of admission.  Neutropenic fever today
   -s/p 1 units of PRBC over last 24 hours
   -transfuse again if needed (Hct<21)
   -give platelets if needed (<15)
   -CBC Q8H
   -neupogen day 3 (hold day 10 and 11, [**7-30**] and [**7-31**])
   -DIC labs Q24H, per onc
   -neutropenic precautions
   Tachycardia: Consistently tachycardic to 110s/120s. TSH WNL, TTE showed
   normal EF and no evidence of heart failure. Repeat EKGs have shown
   frequent PVCs, no signs of myocardial ischemia. Likely physiologic
   tachycardia secondary to infection, lymphoma, anemia, high [**Hospital1 **].
   -maximize comfort on ventilator
   -EKG on [**7-23**] at baseline
   -continue metoprolol
   Distended abdomen: abdominal distention is stable with hypoactive bowel
   sounds. No stool for 7 days but now passing gas.
   -Colace, senna, dulcolax, and lactulose
   - continue PO narcan but monitor for increased pain
   -Try to wean fentanyl as possible
   -tube feeds with free water flushes to improve hypernatremia
   -repeat LFTs normal
   -KUB showed large amount of stool, likely impaction
   Hyperglycemia: blood glucose in the 200- 300s starting [**7-23**] largely due
   to the dexamethasone, antibiotics in D5W and acromegaly.
   -on ISS with goal BG 100-150mg/dL. Switch to drip if needed
   Pain control: significant back and joint pain today in setting of
   sedation weaned.
   -bolus fentanyl as needed
   Social:
   -in touch with family as well as HCP [**Name (NI) 1068**] (friend). They support a
   trach if that becomes necessary/possible.
   -social work consult
   The following issues are not acute or active but left on the note to be
   followed up on when Mr. [**Known lastname 7019**] is awake and stabilized:
   Acromegaly: New presumptive diagnosis based on clinical features.
   Definitive work-up postponed until patient stabilized.
   -f/u with endocrine
   -f/u endocrine labs (IGFBP, Vit D)
   -ophtho consult for visual fields when patient extubated/alert
   Orchitis:  Tender scrotal swelling on admission, scrotal US suggested
   epididymitis/orchitis. No clear masses. G&C swab negative. Exam
   starting [**7-17**] shows marked increase in testicular swelling, particularly
   on the left. Thought to be secondary to malignant infiltration and
   generalized edema.
   -f/u when patient stabilized, likely due to lymphoma
   Neurologic abnormalities: Initial patient complaints included R Bell
   palsy, loss of R facial sensation, weakness/decreased sensation of
   lower extremities. MRI T-spine at OSH showed epidural enhancement of
   thoracic spine; MRI head showed pituitary macroadenoma.
   -neurosurgery has low suspicion for cord compression and repeat MRI of
   spine not necessary.
   -Repeat MRI of pituitary eventually needed although in light of recent
   ARF, this is not a priority and can wait until patient stabilized.
   -better neuro exam as we wean sedation, particularly focused on cranial
   nerve
s V and VII and lower extremity sensation/motor
   Joint pain: Patient has severe and diffuse arthralgias, most likely
   secondary to hypertrophic arthropathy from acromegaly.
   -avoiding NSAIDs
   -tylenol when awake
   -continue pain control with fentanyl
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  ISS
   Lines: (to resite A-line today and pull IJ for line holiday)
   Multi Lumen - [**2144-7-13**] 10:03 AM
   Arterial Line - [**2144-7-13**] 02:00 PM
   Prophylaxis:
   DVT: pneumoboots, anticoagulation held due to thrombocytopenia
   Stress ulcer: famotidine
   VAP:  mouth care, abx coverage
   Comments:
   Communication:  Comments: [**Location (un) 1068**] is HCP, he gave permission for trach if
   we need it.
   Code status: Full code
   Disposition: Pending resolution of respiratory failure, administration
   of high dose chemo

2144-07-28 06:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - sacral ulcer seen: necrotic area that was unstageable because do not
   know the extent of the necrotic area. Wound care said plastics would
   unlikely intervene because of neutropenia.
   -A line placed on right ([**2144-7-27**]), IJ pulled for line holiday
   -TTE done, no change, no vegetations
   -many secretions requiring suction of ETT every
-1 hour
   -stopped tube feed this morning because residuals > 200cc
   -ABG at 11pm 7.46/37/84 on PSV 8/10. Unclear why oxygenation wasn
   optimal but repeat ABG at 5am was 7.47/36/183
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2144-7-27**] 08:34 PM
   Doxycycline - [**2144-7-27**] 08:34 PM
   Acyclovir - [**2144-7-27**] 09:30 PM
   Fluconazole - [**2144-7-27**] 10:12 PM
   Ciprofloxacin - [**2144-7-28**] 12:30 AM
   Cefipime - [**2144-7-28**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2144-7-27**] 08:00 AM
   Furosemide (Lasix) - [**2144-7-27**] 08:05 AM
   Fentanyl - [**2144-7-27**] 03:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-7-28**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.8
C (100.1
   HR: 100 (95 - 116) bpm
   BP: 119/61(77) {109/50(70) - 139/73(92)} mmHg
   RR: 14 (13 - 24) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 94.7 kg (admission): 81.7 kg
   Height: 69 Inch
             Total In:
                                                                  5,139 mL
                                                                  1,028 mL
   PO:
             TF:
                                                                    734 mL
                                                                    185 mL
   IVF:
                                                                  2,896 mL
                                                                    413 mL
   Blood products:
   Total out:
                                                                  4,830 mL
                                                                  1,860 mL
   Urine:
                                                                  4,815 mL
                                                                  1,630 mL
   NG:
   230 mL
   Stool:
                                                                     15 mL
   Drains:
   Balance:
                                                                    309 mL
                                                                   -832 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 676 (443 - 796) mL
   PS : 8 cmH2O
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: 7.47/36/183/24/3 (Aa gradient = 129)
   Ve: 13.5 L/min
   PaO2 / FiO2: 366
   Physical Examination
   GENERAL: intubated. Drowsy, opens eyes to voice, follows commands, nods
   to questions appropriately
   HEENT: Intubated, ETT, OG tube in place. acromegalic features (frontal
   bossing, large jaw, coarse facial features).  No conjunctival pallor.
   No scleral icterus. PERRL. Neck Supple, No LAD.
   CARDIAC: Normal S1, S2. No murmurs, rubs or gallops appreciated
   LUNGS: CTAB
   ABDOMEN: mildly distended, nontender. Minimal BS. No HSM
   GU: somewhat diminished testicular swelling. No heat or redness. Small
   bullae on the testicle.
   EXTREMITIES: 2+ dorsalis pedis/ posterior tibial/radial pulses. 3+
   pitting edema
   SKIN: Diffuse petechiae. Tattoo of R forearm.
   NEURO: responds to commands, nods head appropriately to questions.
   Sensation and motor intact in all 4 extremities.
   Labs / Radiology
   15 K/uL
   8.5 g/dL
   129 mg/dL
   0.2 mg/dL
   24 mEq/L
   4.0 mEq/L
   16 mg/dL
   109 mEq/L
   138 mEq/L
   24.1 %
   0.1 K/uL
        [image002.jpg]
                             [**2144-7-26**]  03:57 AM
                             [**2144-7-26**]  12:03 PM
                             [**2144-7-26**]  08:00 PM
                             [**2144-7-27**]  03:28 AM
                             [**2144-7-27**]  05:57 AM
                             [**2144-7-27**]  03:11 PM
                             [**2144-7-27**]  11:05 PM
                             [**2144-7-27**]  11:08 PM
                             [**2144-7-28**]  05:14 AM
                             [**2144-7-28**]  05:26 AM
   WBC
   0.1
   0.1
   0.1
   0.1
   0.1
   0.1
   Hct
   20.6
   24.1
   23.0
   23.5
   23.3
   24.1
   Plt
   24
   26
   23
   20
   22
   15
   Cr
   0.3
   0.3
   0.3
   0.3
   0.2
   TCO2
   34
   27
   27
   27
   Glucose
   110
   83
   138
   163
   129
   Other labs: PT / PTT / INR:13.9/29.4/1.2, CK / CKMB /
   Troponin-T:138/3/0.02, ALT / AST:38/25, Alk Phos / T Bili:68/0.8,
   Amylase / Lipase:39/132, Differential-Neuts:3.0 %, Band:0.0 %,
   Lymph:87.0 %, Mono:6.0 %, Eos:3.0 %, D-dimer:6179 ng/mL, Fibrinogen:668
   mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.6 g/dL, LDH:728 IU/L, Ca++:7.8
   mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL, Uric acid 0.7 mg/dL
   EBV PCR from CSF negative
   Vanco level 7.4 (sub-therapeutic)
   TTE: EF 65-70%, moderate LA enlargement, No vegetations on mitral,
   tricuspid, aortic valves, small effusion
   CXR: small pneumothorax of LUL.
   Assessment and Plan
   40M with recent h/o tumor lysis syndrome, started chemotherapy on [**7-21**]
   for Burkitt
s lymphoma. New diagnosis of acromegaly, in ICU with
   respiratory failure in setting of pneumonia, possible ARDS. Original
   presenting complaint was Bell
s Palsy, urinary retention, and lower
   extremity weakness.
   Respiratory failure: intubated since [**7-12**], s/p 2 failed extubations on
   [**7-15**] secondary to copious secretions and [**7-25**] due to work of breathing.
   Contributing factors to respiratory status include PNA and suspicion
   for infiltrative malignant process on CT, as well as meeting ARDS
   criteria starting [**7-18**]. However, compliance has remained normal so
   tolerating large tidal volumes on PSV.
   -Patient subjectively comfortable this morning on PSV 8/10. Increased
   PEEP likely helps him.
   -Large amount of secretions. Lasix drip not ameliorating this. Continue
   suction.
   -Small pneumothorax on CXR: repeat to see if it is real. Consider u/s
   as it is more sensitive than CXR.  If real, consider CT to accurately
   assess size. Would like to avoid chest tube in setting of low
   platelets, neutropenia.
   -Consider weaning FiO2 and PEEP as tolerated but this is not a priority
   as patient has failed 2 extubations and we are not planning imminent
   extubation in his state of critical illness, fever, immunocompromise,
   and chemotherapy.
   -Minimal sedation with midazolam, bolus IV fentanyl for pain control.
   -Continue autodiuresis to at least 100-200cc/hr. Increased lasix gtt to
   4mg.
   -Continue acetazolamide and give K+ to help with metabolic portion of
   alkalosis
   -follow ABGs when changes in ventilator settings or respiratory status
   (Goal is ph>7.20, C02<70)
   -Daily CXR
   -patient will likely need tracheostomy eventually, which was addressed
   with HCP and family over the weekend and they support it if needed. He
   is not a candidate now given fevers, low platelets, but keep in mind as
   a goal if cannot wean ventilator.
   Pneumonia/Infection: ongoing fevers with persistent infiltrates at R
   base on CXR. WBC elevated on [**7-18**], now precipitously dropped in setting
   of chemotherapy. Patient is now neutropenic (ANC<<500). No fevers >100F
   since [**7-24**].
   -s/p 10day course Vanco (d/ced [**7-24**]) and 3 days meropenem (d/c
ed 3
   [**7-24**]), 2 days flaygl (d/ced [**7-25**])
   -Pneumonia, presumed mycoplasma hominis: doxycycline 100mg [**Hospital1 **] (day 7)
   and cipro (day 10,start [**7-19**]).
   -Neutropenic, febrile: vanco started again (day 3); cefepime 2gm IV q8h
   (day 6)
   -Increase vanco dose to 1g Q8H, repeat trough in the am
   -Sputum cx from [**7-23**] positive for coag+ staph, repeat sputum pending,
   covered by vanc
   -speciation of gram + cocci from A line pending
   -prophylaxis with fluconazole (day 8, start [**7-21**]), acyclovir (day 7),
   atovaquone for PCP [**Name Initial (PRE) 1694**] (day 6: d/ced Bactrim)
   -check G6PD if negative, will switch atovaquone to dapsone for better
   efficacy
   -f/u final blood cx, CSF fungal, AFB, and viral cx, serum EBV, CMV,
   HHV-6 PCR, and galactomannan and B-glucan
   Tumor lysis syndrome: Labs at admission were significant for elevated
   LDH, hyperkalemia, hyperphosphatemia, hyperuricemia which all resolved
   to baseline. Patient s/p 3 doses rasburicase, last dose 7/10. Tumor
   lysis labs started to rise again on [**7-21**]. Today they are relatively
   stable.
   -f/u tumor lysis labs Q8H
   -keep UOP at least 100cc/hr; currently autodiuresing. Start lasix gtt
   again.
   -continue allopurinol
   -phos low, replete today
   -replete K as needed
   Burkitt
s lymphoma: CT shows diffuse evidence of malignancy - c/w
   lymphangitic spread of diffuse malignant process, thickening in
   stomach, ureters. Bone marrow bx c/w Burkitt
s lymphoma. Hyper-CVAD
   started on [**7-21**], now day 8.
   -continue chemotherapeutic regimen as outlined by onc.
   -Day 8 of HyperCVAD
   -IT chemo 2x/week, next on [**7-29**]
   -vincristine on [**7-31**]
   -back pain improved, attributed to LP
   -gadolinium-enhanced head MRI when patient stabilized to investigate
   extent of lymphoma and possible need for radiation to head. This is
   only necessary if medical treatment fails and is not an urgent issue.
   Pancytopenia: Platelets following throughout this admission,
   precipitous drop in WBC on day 1 of chemo, Hct in low 20s throughout
   most of admission.  Neutropenic fever today
   -s/p 1 units of PRBC over last 24 hours
   -transfuse again if needed (Hct<21)
   -give platelets if needed (<15)
   -CBC Q8H
   -neupogen-> Stop and start it Day 12 ([**8-1**]), confirmed with onc
   -DIC labs Q24H, per onc
   -neutropenic precautions
   Tachycardia: Consistently tachycardic to 110s/120s. TSH WNL, TTE showed
   normal EF and no evidence of heart failure. Repeat EKGs have shown
   frequent PVCs, no signs of myocardial ischemia. Likely physiologic
   tachycardia secondary to infection, lymphoma, anemia, high [**Hospital1 **]. Repeat
   TTE normal today.
   -maximize comfort on ventilator
   -EKG on [**7-23**] at baseline
   -continue metoprolol
   Distended abdomen: abdominal distention is stable with hypoactive bowel
   sounds. Stool yesterday/today after 7 days without stool.
   -Colace, senna, dulcolax, and lactulose
   - stop PO narcan
   -Try to wean fentanyl as possible
   -decrease free water flushes to 100cc q6h
   -nutrition following, check recs if there is a change due to high
   residuals today
   Hyperglycemia: blood glucose in the 200- 300s starting [**7-23**] largely due
   to the dexamethasone, antibiotics in D5W and acromegaly.
   -on ISS with goal BG 100-150mg/dL. Switch to drip if needed
   Social:
   -in touch with family as well as HCP [**Name (NI) 1068**] (friend). They support a
   trach if that becomes necessary/possible.
   -social work following
   The following issues are not acute or active but left on the note to be
   followed up on when Mr. [**Known lastname 7019**] is awake and stabilized:
   Acromegaly: New presumptive diagnosis based on clinical features.
   Definitive work-up postponed until patient stabilized.
   -f/u with endocrine
   -f/u endocrine labs (IGFBP, Vit D)
   -ophtho consult for visual fields when patient extubated/alert
   Orchitis:  Tender scrotal swelling on admission, scrotal US suggested
   epididymitis/orchitis. No clear masses. G&C swab negative. Exam
   starting [**7-17**] shows marked increase in testicular swelling, particularly
   on the left. Thought to be secondary to malignant infiltration and
   generalized edema.
   -f/u when patient stabilized, likely due to lymphoma
   Neurologic abnormalities: Initial patient complaints included R Bell
   palsy, loss of R facial sensation, weakness/decreased sensation of
   lower extremities. MRI T-spine at OSH showed epidural enhancement of
   thoracic spine; MRI head showed pituitary macroadenoma.
   -neurosurgery has low suspicion for cord compression and repeat MRI of
   spine not necessary.
   -Repeat MRI of pituitary eventually needed although in light of recent
   ARF, this is not a priority and can wait until patient stabilized.
   -better neuro exam as we wean sedation, particularly focused on cranial
   nerve
s V and VII and lower extremity sensation/motor
   Joint pain: Patient has severe and diffuse arthralgias, most likely
   secondary to hypertrophic arthropathy from acromegaly.
   -avoiding NSAIDs
   -tylenol when awake
   -continue pain control with fentanyl
   ICU Care
   Nutrition:  tube feeds, f/u with nutrition regarding high residuals
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2144-7-27**] 10:18 AM
   Arterial Line - [**2144-7-27**] 06:58 PM
   Call for PICC line placement
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  famotidine
   VAP:
   Comments:
   Communication:  Comments: Friend [**Name (NI) 1068**] is HCP
   [**Name (NI) 129**] status: Full code
   Disposition: pending respiratory status, pancytopenia, high dose chemo

2144-07-29 06:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Heme-onc note:
   1.Day 8 of HyperCVAD
   --Stop Neupogen and start it Day 12 per heme onc
   --cont abx for febrile neutropenia
   --repeat neuro imaging to assess response therapy.
   2.GPC bacteremia: increased vanco to 1g q8h.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Doxycycline - [**2144-7-28**] 08:00 PM
   Acyclovir - [**2144-7-28**] 09:00 PM
   Fluconazole - [**2144-7-28**] 10:00 PM
   Vancomycin - [**2144-7-29**] 12:00 AM
   Ciprofloxacin - [**2144-7-29**] 12:00 AM
   Cefipime - [**2144-7-29**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2144-7-28**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-7-29**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.1
C (98.7
   HR: 108 (93 - 108) bpm
   BP: 133/69(88) {104/49(69) - 140/90(300)} mmHg
   RR: 16 (9 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 94.7 kg (admission): 81.7 kg
   Height: 69 Inch
             Total In:
                                                                  3,901 mL
                                                                  1,004 mL
   PO:
             TF:
                                                                    819 mL
                                                                    262 mL
   IVF:
                                                                  1,941 mL
                                                                    592 mL
   Blood products:
   Total out:
                                                                  5,320 mL
                                                                  1,420 mL
   Urine:
                                                                  5,090 mL
                                                                  1,420 mL
   NG:
                                                                    230 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,419 mL
                                                                   -416 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,020 (554 - 1,020) mL
   PS : 8 cmH2O
   RR (Spontaneous): 17
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   SpO2: 100%
   ABG: 7.45/37/185/23/2
   Ve: 13 L/min
   PaO2 / FiO2: 370
   Physical Examination
   Physical Examination
   GENERAL: intubated. Alert, opens eyes to voice, follows commands, nods
   to questions appropriately
   HEENT: Intubated, ETT, OG tube in place. acromegalic features (frontal
   bossing, large jaw, coarse facial features).  No conjunctival pallor.
   No scleral icterus. PERRL. Neck Supple, No LAD.
   CARDIAC: Normal S1, S2. No murmurs, rubs or gallops appreciated
   LUNGS: CTAB
   ABDOMEN: mildly distended,diffuse tenderness. Minimal BS. No HSM
   GU: somewhat diminished testicular swelling. No heat or redness. Small
   bullae on the testicle.
   EXTREMITIES: 2+ dorsalis pedis/ posterior tibial/radial pulses. 3+
   pitting edema
   SKIN: Diffuse petechiae. Tattoo of R forearm.
   NEURO: responds to commands, nods head appropriately to questions.
   Sensation and motor intact in all 4 extremities.
   Labs / Radiology
   15 K/uL
   8.5 g/dL
   149 mg/dL
   0.3 mg/dL
   23 mEq/L
   3.5 mEq/L
   15 mg/dL
   108 mEq/L
   138 mEq/L
   24.1 %
   0.1 K/uL
        [image002.jpg]
                             [**2144-7-27**]  03:28 AM
                             [**2144-7-27**]  05:57 AM
                             [**2144-7-27**]  03:11 PM
                             [**2144-7-27**]  11:05 PM
                             [**2144-7-27**]  11:08 PM
                             [**2144-7-28**]  05:14 AM
                             [**2144-7-28**]  05:26 AM
                             [**2144-7-28**]  01:46 PM
                             [**2144-7-28**]  10:01 PM
                             [**2144-7-29**]  06:16 AM
   WBC
   0.1
   0.1
   0.1
   0.1
   Hct
   23.0
   23.5
   23.3
   24.1
   Plt
   23
   20
   22
   15
   Cr
   0.3
   0.3
   0.2
   0.2
   0.3
   TCO2
   27
   27
   27
   27
   Glucose
   138
   163
   129
   149
   149
   Other labs: PT / PTT / INR:13.9/29.4/1.2, CK / CKMB /
   Troponin-T:138/3/0.02, ALT / AST:38/25, Alk Phos / T Bili:68/0.8,
   Amylase / Lipase:39/132, Differential-Neuts:3.0 %, Band:0.0 %,
   Lymph:87.0 %, Mono:6.0 %, Eos:3.0 %, D-dimer:2552 ng/mL, Fibrinogen:668
   mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.6 g/dL, LDH:728 IU/L, Ca++:7.6
   mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   40M with recent h/o tumor lysis syndrome, started chemotherapy on [**7-21**]
   for Burkitt
s lymphoma. New diagnosis of acromegaly, in ICU with
   respiratory failure in setting of pneumonia, possible ARDS. Original
   presenting complaint was Bell
s Palsy, urinary retention, and lower
   extremity weakness.
   Respiratory failure: intubated since [**7-12**], s/p 2 failed extubations on
   [**7-15**] secondary to copious secretions and [**7-25**] due to work of breathing.
   Contributing factors to respiratory status include PNA and suspicion
   for infiltrative malignant process on CT, as well as meeting ARDS
   criteria starting [**7-18**]. However, compliance has remained normal so
   tolerating large tidal volumes on PSV.
   -Patient subjectively comfortable this morning on PSV 8/10. Increased
   PEEP likely helps him.
   -Large amount of secretions. Lasix drip not ameliorating this. Continue
   suction.
   -Small pneumothorax on CXR: repeat to see if it is real. Consider u/s
   as it is more sensitive than CXR.  If real, consider CT to accurately
   assess size. Would like to avoid chest tube in setting of low
   platelets, neutropenia.
   -Consider weaning FiO2 and PEEP as tolerated but this is not a priority
   as patient has failed 2 extubations and we are not planning imminent
   extubation in his state of critical illness, fever, immunocompromise,
   and chemotherapy.
   -Minimal sedation with midazolam, bolus IV fentanyl for pain control.
   -Continue autodiuresis to at least 100-200cc/hr. Increased lasix gtt to
   4mg.
   -Continue acetazolamide and give K+ to help with metabolic portion of
   alkalosis
   -follow ABGs when changes in ventilator settings or respiratory status
   (Goal is ph>7.20, C02<70)
   -Daily CXR
   -patient will likely need tracheostomy eventually, which was addressed
   with HCP and family over the weekend and they support it if needed. He
   is not a candidate now given fevers, low platelets, but keep in mind as
   a goal if cannot wean ventilator.
   Pneumonia/Infection: ongoing fevers with persistent infiltrates at R
   base on CXR. WBC elevated on [**7-18**], now precipitously dropped in setting
   of chemotherapy. Patient is now neutropenic (ANC<<500). No fevers >100F
   since [**7-24**].
   -s/p 10day course Vanco (d/ced [**7-24**]) and 3 days meropenem (d/c
ed 3
   [**7-24**]), 2 days flaygl (d/ced [**7-25**])
   -Pneumonia, presumed mycoplasma hominis: doxycycline 100mg [**Hospital1 **] (day 7)
   and cipro (day 10,start [**7-19**]).
   -Neutropenic, febrile: vanco started again (day 3); cefepime 2gm IV q8h
   (day 6)
   -Increase vanco dose to 1g Q8H, repeat trough in the am
   -Sputum cx from [**7-23**] positive for coag+ staph, repeat sputum pending,
   covered by vanc
   -speciation of gram + cocci from A line pending
   -prophylaxis with fluconazole (day 8, start [**7-21**]), acyclovir (day 7),
   atovaquone for PCP [**Name Initial (PRE) 1694**] (day 6: d/ced Bactrim)
   -check G6PD if negative, will switch atovaquone to dapsone for better
   efficacy
   -f/u final blood cx, CSF fungal, AFB, and viral cx, serum EBV, CMV,
   HHV-6 PCR, and galactomannan and B-glucan
   Tumor lysis syndrome: Labs at admission were significant for elevated
   LDH, hyperkalemia, hyperphosphatemia, hyperuricemia which all resolved
   to baseline. Patient s/p 3 doses rasburicase, last dose 7/10. Tumor
   lysis labs started to rise again on [**7-21**]. Today they are relatively
   stable.
   -f/u tumor lysis labs Q8H
   -keep UOP at least 100cc/hr; currently autodiuresing. Start lasix gtt
   again.
   -continue allopurinol
   -phos low, replete today
   -replete K as needed
   Burkitt
s lymphoma: CT shows diffuse evidence of malignancy - c/w
   lymphangitic spread of diffuse malignant process, thickening in
   stomach, ureters. Bone marrow bx c/w Burkitt
s lymphoma. Hyper-CVAD
   started on [**7-21**], now day 8.
   -continue chemotherapeutic regimen as outlined by onc.
   -Day 8 of HyperCVAD
   -IT chemo 2x/week, next on [**7-29**]
   -vincristine on [**7-31**]
   -back pain improved, attributed to LP
   -gadolinium-enhanced head MRI when patient stabilized to investigate
   extent of lymphoma and possible need for radiation to head. This is
   only necessary if medical treatment fails and is not an urgent issue.
   Pancytopenia: Platelets following throughout this admission,
   precipitous drop in WBC on day 1 of chemo, Hct in low 20s throughout
   most of admission.  Neutropenic fever today
   -s/p 1 units of PRBC over last 24 hours
   -transfuse again if needed (Hct<21)
   -give platelets if needed (<15)
   -CBC Q8H
   -neupogen-> Stop and start it Day 12 ([**8-1**]), confirmed with onc
   -DIC labs Q24H, per onc
   -neutropenic precautions
   Tachycardia: Consistently tachycardic to 110s/120s. TSH WNL, TTE showed
   normal EF and no evidence of heart failure. Repeat EKGs have shown
   frequent PVCs, no signs of myocardial ischemia. Likely physiologic
   tachycardia secondary to infection, lymphoma, anemia, high [**Hospital1 **]. Repeat
   TTE normal today.
   -maximize comfort on ventilator
   -EKG on [**7-23**] at baseline
   -continue metoprolol
   Distended abdomen: abdominal distention is stable with hypoactive bowel
   sounds. Stool yesterday/today after 7 days without stool.
   -Colace, senna, dulcolax, and lactulose
   - stop PO narcan
   -Try to wean fentanyl as possible
   -decrease free water flushes to 100cc q6h
   -nutrition following, check recs if there is a change due to high
   residuals today
   Hyperglycemia: blood glucose in the 200- 300s starting [**7-23**] largely due
   to the dexamethasone, antibiotics in D5W and acromegaly.
   -on ISS with goal BG 100-150mg/dL. Switch to drip if needed
   Social:
   -in touch with family as well as HCP [**Name (NI) 1068**] (friend). They support a
   trach if that becomes necessary/possible.
   -social work following
   The following issues are not acute or active but left on the note to be
   followed up on when Mr. [**Known lastname 7019**] is awake and stabilized:
   Acromegaly: New presumptive diagnosis based on clinical features.
   Definitive work-up postponed until patient stabilized.
   -f/u with endocrine
   -f/u endocrine labs (IGFBP, Vit D)
   -ophtho consult for visual fields when patient extubated/alert
   Orchitis:  Tender scrotal swelling on admission, scrotal US suggested
   epididymitis/orchitis. No clear masses. G&C swab negative. Exam
   starting [**7-17**] shows marked increase in testicular swelling, particularly
   on the left. Thought to be secondary to malignant infiltration and
   generalized edema.
   -f/u when patient stabilized, likely due to lymphoma
   Neurologic abnormalities: Initial patient complaints included R Bell
   palsy, loss of R facial sensation, weakness/decreased sensation of
   lower extremities. MRI T-spine at OSH showed epidural enhancement of
   thoracic spine; MRI head showed pituitary macroadenoma.
   -neurosurgery has low suspicion for cord compression and repeat MRI of
   spine not necessary.
   -Repeat MRI of pituitary eventually needed although in light of recent
   ARF, this is not a priority and can wait until patient stabilized.
   -better neuro exam as we wean sedation, particularly focused on cranial
   nerve
s V and VII and lower extremity sensation/motor
   Joint pain: Patient has severe and diffuse arthralgias, most likely
   secondary to hypertrophic arthropathy from acromegaly.
   -avoiding NSAIDs
   -tylenol when awake
   -continue pain control with fentanyl
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2144-7-29**] 12:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2144-7-27**] 10:18 AM
   Arterial Line - [**2144-7-27**] 06:58 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2144-07-30 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -PICC line placed
   -Onc requested platelets >100 (at least 50) before IT chemo.
   -placed for a HLA labs
   -Per Blood Bank, HLA labs will take another day or two and they do not
   believe we can get the platelets over 50. They suggest giving 2 bags
   back to back immediately followed by the LP.
   - given 2U plts at 5am (Plts 12 -> 22)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Doxycycline - [**2144-7-29**] 08:16 PM
   Acyclovir - [**2144-7-29**] 09:23 PM
   Fluconazole - [**2144-7-29**] 10:46 PM
   Vancomycin - [**2144-7-30**] 12:00 AM
   Ciprofloxacin - [**2144-7-30**] 01:05 AM
   Cefipime - [**2144-7-30**] 04:26 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2144-7-29**] 08:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-7-30**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.3
C (99.1
   HR: 106 (91 - 109) bpm
   BP: 116/45(68) {99/45(67) - 151/78(93)} mmHg
   RR: 18 (9 - 22) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 94.7 kg (admission): 81.7 kg
   Height: 69 Inch
           Total In:
                                                                  4,202 mL
                                                                  1,715 mL
   PO:
           TF:
                                                                    861 mL
                                                                    143 mL
   IVF:
                                                                  2,702 mL
                                                                  1,047 mL
   Blood products:
                                                                    299 mL
                                                                    435 mL
   Total out:
                                                                  4,520 mL
                                                                    805 mL
   Urine:
                                                                  4,520 mL
                                                                    805 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -318 mL
                                                                    910 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 773 (618 - 915) mL
   PS : 8 cmH2O
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 18
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.39/52/168/24/5
   Ve: 12.4 L/min
   PaO2 / FiO2: 336
   Physical Examination
   GENERAL: intubated. Alert, opens eyes to voice, follows commands, nods
   to questions appropriately
   HEENT: Intubated, ETT, OG tube in place. acromegalic features (frontal
   bossing, large jaw, coarse facial features).  No conjunctival pallor.
   No scleral icterus. PERRL. Neck Supple, No LAD.
   CARDIAC: Normal S1, S2. No murmurs, rubs or gallops appreciated
   LUNGS: CTAB
   ABDOMEN: mildly distended,no tenderness. No BS. No HSM
   GU: somewhat diminished testicular swelling. No heat or redness. Small
   bullae on testicle appears to have resolved.
   EXTREMITIES: 2+ dorsalis pedis/ posterior tibial/radial pulses. 3+
   pitting edema
   SKIN: Diffuse petechiae. Tattoo of R forearm.
   NEURO: responds to commands, nods head appropriately to questions.
   Sensation and motor intact in all 4 extremities.
   Labs / Radiology
   12 K/uL
   6.9 g/dL
   140 mg/dL
   0.2 mg/dL
   24 mEq/L
   3.5 mEq/L
   14 mg/dL
   108 mEq/L
   139 mEq/L
   19.6 %
   0.1 K/uL
                             [**2144-7-28**]  05:14 AM
                             [**2144-7-28**]  05:26 AM
                             [**2144-7-28**]  01:46 PM
                             [**2144-7-28**]  10:01 PM
                             [**2144-7-29**]  05:59 AM
                             [**2144-7-29**]  06:16 AM
                             [**2144-7-29**]  11:53 AM
                             [**2144-7-29**]  03:10 PM
                             [**2144-7-29**]  03:43 PM
                             [**2144-7-30**]  04:46 AM
   WBC
   0.1
   0.1
   0.1
   0.1
   Hct
   24.1
   24.3
   22.3
   19.6
   Plt
   15
   18
   19
   21
   12
   Cr
   0.2
   0.2
   0.3
   0.2
   0.2
   0.2
   TCO2
   27
   27
   33
   Glucose
   129
   149
   149
   141
   134
   140
   Other labs: PT / PTT / INR:13.1/27.0/1.1, CK / CKMB /
   Troponin-T:138/3/0.02, ALT / AST:30/15, Alk Phos / T Bili:67/0.5,
   Amylase / Lipase:39/132, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:100.0 %, Mono:0.0 %, Eos:0.0 %, D-dimer:2552 ng/mL,
   Fibrinogen:665 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.6 g/dL, LDH:491
   IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.5 mg/dL, Uric acid 0.7
   mg/dL
   Vanco trough (5am today) 15.1
   CSF no growth to date for fungal, viral AFB
   CMV PCR negative
   HHV-6 IgG +, IgM neg
   Parvovirus IgG +, IgM neg, PCR neg
   Assessment and Plan
   40M with recent h/o tumor lysis syndrome, started chemotherapy on [**7-21**]
   for Burkitt
s lymphoma. New diagnosis of acromegaly, in ICU with
   respiratory failure in setting of pneumonia, lymphoma, possible ARDS.
   Original presenting complaint was Bell
s Palsy, urinary retention, and
   lower extremity weakness.
   Respiratory failure: intubated since [**7-12**], s/p 2 failed extubations on
   [**7-15**] secondary to copious secretions and [**7-25**] due to work of breathing.
   -Patient on PSV 8/8, reporting feels comfortable on these settings.
   Wean PEEP and pressure as tolerated, Long SBT when he reaches [**5-19**]
   comfortably. However, we will use caution due to 2 failed extubations
   and his state of critical illness, fever, immunocompromise, and
   chemotherapy.
   -Minimal sedation with midazolam, bolus IV fentanyl for pain control.
   -Continue autodiuresis to at least >100cc/hr with lasix gtt, increase
   to 4 this morning.
   -Consider increasing midazolam a little as move toward extubation.
   -follow ABGs as wean pressure support
   -CXR today
   Pneumonia/Infection: persistent infiltrates at R base on CXR.  WBC
   elevated on [**7-18**], now precipitously dropped in setting of chemotherapy.
   Patient is now neutropenic (ANC<<500). No fevers >101F since [**7-24**].
   -s/p 10day course Vanco (d/ced [**7-24**]) and 3 days meropenem (d/c
ed 3
   [**7-24**]), 2 days flaygl (d/ced [**7-25**])
   -Pneumonia, presumed mycoplasma hominis: doxycycline 100mg [**Hospital1 **] (day 9)
   and cipro (day 10,start [**7-19**]). Check with ID on the length of this
   course.
   -Neutropenic, febrile: vanco started again (day 5); cefepime 2gm IV q8h
   (day 8)
   -Vanco trough 15.1 this am. Continue current dose.
   -Sputum cx from [**7-23**]  and [**7-27**] positive for coag+ staph, covered by vanc
   -IJ catheter trip grew coag neg staph on [**7-27**], covered by vanc
   -prophylaxis with fluconazole (day 10, start [**7-21**]), acyclovir (day 9),
   atovaquone for PCP [**Name Initial (PRE) 1694**] (day 8)
   -G6PD normal, however not switching to dapsone given its bone marrow
   effects
   -f/u blood cx, serum EBV, HHV-6 PCR
   Tumor lysis syndrome: Labs at admission were significant for elevated
   LDH, hyperkalemia, hyperphosphatemia, hyperuricemia which all resolved
   to baseline. Patient s/p 3 doses rasburicase, last dose 7/10. Tumor
   lysis labs started to rise again on [**7-21**]. They have been stable for
   several days.
   -f/u tumor lysis labs Q8H
   -keep UOP at least 100cc/hr with lasix gtt
   -continue allopurinol
   -replete K and phos as needed
   Burkitt
s lymphoma: CT shows diffuse evidence of malignancy - c/w
   lymphangitic spread of diffuse malignant process, thickening in
   stomach, ureters. Bone marrow bx c/w Burkitt
s lymphoma. Hyper-CVAD
   started on [**7-21**], now day 10.
   -continue chemotherapeutic regimen as outlined by onc
   -talk to onc regarding IT chemo today: cannot get platelets over 50 per
   blood bank, suggest giving 2 bags back to back, check platelets
   immediately, then followed by LP immediately
   -vincristine tomorrow ([**7-31**])
   -onc waiting on any further neuroimaging until chemo course is finished
   -gadolinium-enhanced head MRI when patient stabilized to investigate
   extent of lymphoma and possible need for radiation to head. This is
   only necessary if medical treatment fails and is not an urgent issue.
   -onc wants to hold off on neuroimaging until he has completed this
   course of chemo
   Pancytopenia: Platelets following throughout this admission,
   precipitous drop in WBC on day 1 of chemo, Hct in low 20s throughout
   most of admission.  ANC today is zero.
   -transfuse PRBCs this morning for Hct < 21
   -resolve platelet issue with onc and blood bank. Other than setting of
   LP, keep platelets >15.
   -CBC Q8H
   -neupogen-> Stopped, will start it Day 12 ([**8-1**]), confirmed with onc
   -DIC labs Q24H, per onc
   -neutropenic precautions
   Tachycardia: Consistently tachycardic to 110s/120s. TSH WNL, TTE showed
   normal EF and no evidence of heart failure. Repeat EKGs have shown
   frequent PVCs, no signs of myocardial ischemia. Likely physiologic
   tachycardia secondary to infection, lymphoma, anemia, high [**Hospital1 **]. Repeat
   TTE normal today.
   -maximize comfort on ventilator
   -EKG on [**7-23**] at baseline
   -continue metoprolol 50mg q6h
   Distended abdomen: abdominal distention is stable with hypoactive bowel
   sounds. No stool in past 48 hours
   -KUB today
   -Colace, senna, dulcolax, and lactulose
   -PO narcan 6mg PO TID, increase dose
   -Try to wean fentanyl as possible
   -free water flushes to 100cc q6h
   Hyperglycemia: blood glucose in the 200- 300s starting [**7-23**] largely due
   to the dexamethasone, antibiotics in D5W and acromegaly.
   -on ISS with goal BG 100-150mg/dL.
   -Likely will switch to drip again when start dex on [**7-31**]
   The following issues are not acute or active but left on the note to be
   followed up on when Mr. [**Known lastname 7019**] is awake and stabilized:
   Acromegaly: New presumptive diagnosis based on clinical features.
   Definitive work-up postponed until patient stabilized.
   -f/u with endocrine
   -f/u endocrine labs (IGFBP, Vit D)
   -ophtho consult for visual fields when patient extubated/alert
   Orchitis:  Tender scrotal swelling on admission, scrotal US suggested
   epididymitis/orchitis. No clear masses. G&C swab negative. Exam
   starting [**7-17**] shows marked increase in testicular swelling, particularly
   on the left. Thought to be secondary to malignant infiltration and
   generalized edema.
   -f/u when patient stabilized, likely due to lymphoma
   Neurologic abnormalities: Initial patient complaints included R Bell
   palsy, loss of R facial sensation, weakness/decreased sensation of
   lower extremities. MRI T-spine at OSH showed epidural enhancement of
   thoracic spine; MRI head showed pituitary macroadenoma. In the [**Hospital Unit Name 10**],
   his lower extremity weakness has been constant and severe
 patient can
   wiggle his toes but nothing else. Reflexes depressed bilaterally.
   Neutral Babinskis.
   -neurosurgery has low suspicion for cord compression and repeat MRI of
   spine not necessary urgently. [**Month (only) 11**] consider for response to treatment,
   explanation for LE weakness
   -Repeat MRI of pituitary eventually needed although in light of recent
   ARF, this is not a priority and can wait until patient stabilized.
   -better neuro exam when extubated, particularly focused on cranial
   nerve
s V and VII and lower extremity sensation/motor
   Joint pain: Patient has severe and diffuse arthralgias, most likely
   secondary to hypertrophic arthropathy from acromegaly.
   -avoiding NSAIDs
   -tylenol when awake
   -continue pain control with fentanyl
   ICU Care
   Nutrition:  Nutren 2.0 (Full) - [**2144-7-29**] 11:38 AM 20 mL/hour
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2144-7-27**] 10:18 AM
   Arterial Line - [**2144-7-27**] 06:58 PM
   PICC Line - [**2144-7-29**] 01:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments: Friend [**Name (NI) 1068**] is HCP
   [**Name (NI) 129**] status: Full code
   Disposition: pending resolution of respiratory failure, pancytopenia,
   high dose chemo. ICU level of care.

2144-08-01 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - failed s+s trial
   - ID wants antibiotics PO when he is able to take them
   - needs Bactrim IV for ppx
   - completed chemo yesterday per BMT (vincristine/dex) w/o complications
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2144-7-31**] 12:18 PM
   Doxycycline - [**2144-7-31**] 09:15 PM
   Acyclovir - [**2144-7-31**] 10:00 PM
   Fluconazole - [**2144-7-31**] 10:59 PM
   Vancomycin - [**2144-8-1**] 01:00 AM
   Cefipime - [**2144-8-1**] 04:00 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2144-7-31**] 08:18 PM
   Metoprolol - [**2144-8-1**] 02:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-8-1**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 103 (92 - 118) bpm
   BP: 152/70(97) {127/63(85) - 152/84(100)} mmHg
   RR: 19 (15 - 21) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 96.4 kg (admission): 81.7 kg
   Height: 69 Inch
             Total In:
                                                                  2,384 mL
                                                                    368 mL
   PO:
             TF:
   IVF:
                                                                  2,384 mL
                                                                    368 mL
   Blood products:
   Total out:
                                                                  4,810 mL
                                                                    440 mL
   Urine:
                                                                  4,810 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,426 mL
                                                                    -72 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: 7.56/31/65/24/5 (yesterday 1pm)
   Physical Examination
   GENERAL: Alert, talking, follows commands, pleasant, NAD
   HEENT: On shovel mask. acromegalic features (frontal bossing, large
   jaw, coarse facial features).  No conjunctival pallor. No scleral
   icterus. PERRL. Neck Supple, No LAD.
   CARDIAC: Normal S1, S2. No murmurs, rubs or gallops appreciated
   LUNGS: coarse breath sounds bilaterally, many upper airway sounds
   ABDOMEN: mildly distended,no tenderness. + BS. No HSM
   GU: somewhat diminished testicular swelling. No heat or redness.
   EXTREMITIES: 2+ dorsalis pedis/ posterior tibial/radial pulses. 2+
   pitting edema
   SKIN: Diffuse petechiae. Tattoo of R forearm.
   NEURO: alert and oriented, no focal motor or sensory deficits
   Labs / Radiology
   17 K/uL
   9.0 g/dL
   155 mg/dL
   0.3 mg/dL
   24 mEq/L
   3.6 mEq/L
   18 mg/dL
   103 mEq/L
   137 mEq/L
   24.6 %
   0.1 K/uL
        [image002.jpg]
                             [**2144-7-30**]  11:46 AM
                             [**2144-7-30**]  05:11 PM
                             [**2144-7-30**]  05:24 PM
                             [**2144-7-30**]  06:29 PM
                             [**2144-7-31**]  04:10 AM
                             [**2144-7-31**]  04:23 AM
                             [**2144-7-31**]  12:48 PM
                             [**2144-7-31**]  01:21 PM
                             [**2144-7-31**]  09:02 PM
                             [**2144-8-1**]  04:09 AM
   WBC
   0.1
   0.1
   0.2
   0.1
   0.1
   Hct
   21.2
   22.5
   22.9
   24.2
   24.6
   Plt
   18
   18
   17
   17
   17
   Cr
   0.2
   0.2
   0.2
   0.3
   0.3
   TCO2
   27
   27
   26
   29
   29
   Glucose
   146
   141
   130
   138
   155
   Other labs: PT / PTT / INR:14.0/28.4/1.2, CK / CKMB /
   Troponin-T:138/3/0.02, ALT / AST:37/16, Alk Phos / T Bili:69/0.6,
   Amylase / Lipase:39/132, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:100.0 %, Mono:0.0 %, Eos:0.0 %, D-dimer:2552 ng/mL,
   Fibrinogen:698 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.6 g/dL, LDH:478
   IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O HYPOTENSION (NOT SHOCK)
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 TACHYCARDIA, OTHER
   40M with recent h/o tumor lysis syndrome, started chemotherapy on [**7-21**]
   for Burkitt
s lymphoma. New diagnosis of acromegaly, in ICU with
   respiratory failure in setting of pneumonia, lymphoma, possible ARDS.
   Original presenting complaint was Bell
s Palsy, urinary retention, and
   lower extremity weakness.
   Respiratory failure: intubated on [**7-12**], s/p 2 failed extubations on [**7-15**]
   secondary to copious secretions and [**7-25**] due to work of breathing.
   Extubated for 3^rd time on, [**7-30**]. This morning weaned from 50% 02 by
   shovel mask down to room air and reporting no dyspnea. Frequent suction
   needed, much of which patient can do himself. Pt continues to be on
   room air.
   -Transition from lasix gtt to 40 IV BID bolus. Minimum UOP 100 cc/hr.
   -Suction as needed
   -Wean 02 as tolerated
   -ABGs if change in respiratory status
   Pneumonia/Infection: persistent infiltrates at R base on CXR.  WBC
   elevated on [**7-18**], now precipitously dropped in setting of chemotherapy.
   Patient is now neutropenic (ANC<<500). No fevers >101F since [**7-24**].
   Today he is afebrile. s/p 10day course Vanco (d/ced [**7-24**]) and 3 days
   meropenem (d/c
ed 3 [**7-24**]), 2 days flaygl (d/ced [**7-25**])
   -Failed speech/[**Last Name (LF) 2626**], [**First Name3 (LF) **] will change atovaquone to bactrim IV today
   -Mycoplasma hominis:  continue doxycycline 100mg [**Hospital1 **] (day 10) and cipro
   (day 11,start [**7-19**]).
   -Neutropenia, coag neg staph grown from A line ([**7-25**]), IJ tip ([**7-27**]):
   vanco started again (day 6); cefepime 2gm IV q8h (day 9)
   -prophylaxis with fluconazole (day 11, start [**7-21**]), acyclovir (day 10),
   atovaquone for PCP [**Name Initial (PRE) 1694**] (day 9)
   -f/u blood cx
   -Touch base with ID: for treatment length for mycoplasm, plan for
   neutropenia going forward and what to do with vanc and cefipime. Vanc
   is for neutropenia as well as coag neg staph from blood. [**Month (only) 11**] consider
   peeling back cipro vs cefepime first but ID will touch base with us
   about this. Additionally, in the future may consider another echo due
   to the bacteremia.
   Tumor lysis syndrome: Labs at admission were significant for elevated
   LDH, hyperkalemia, hyperphosphatemia, hyperuricemia which all resolved
   to baseline. Patient s/p 3 doses rasburicase, last dose 7/10. Tumor
   lysis labs started to rise again on [**7-21**]. They have been stable for
   several days.
   -f/u tumor lysis labs Q8H
   -UOP > 100cc/hr with lasix gtt
   -d/c allopurinol until PO access -> inform onc about this
   Burkitt
s lymphoma: CT shows diffuse evidence of malignancy - c/w
   lymphangitic spread of diffuse malignant process, thickening in
   stomach, ureters. Bone marrow bx c/w Burkitt
s lymphoma. Hyper-CVAD
   started on [**7-21**], now day 11. Had vincristine/dex w/o complications on
   [**7-31**]
   -continue chemotherapeutic regimen as outlined by onc
   -onc deferred LP yesterday due to low platelets. f/u regarding IT chemo
   plans for future
   -waiting on any further neuroimaging until chemo course is finished
   Pancytopenia: Platelets following throughout this admission,
   precipitous drop in WBC on day 1 of chemo, Hct in low 20s throughout
   most of admission.
   -CBC Q8H
   -transfuse PRBCs for keeping Hct > 25
   -give platelets as needed to keep platelets >15
   -f/u HLA labs in case HLA matched platelets needed in future
   -neupogen-> Stopped, will start it Day 12 ([**8-1**])
   -DIC labs Q24H, per onc
   -neutropenic precautions
   GI/Distended abdomen: abdominal distention with minimal BS and little
   stool over last 2 weeks. Yesterday/last night stool x2.  Repeat KUB
   showed possible impaction, no obstruction. Currently he is NPO with no
   NGT/OGT.
   -failed bedside speech and [**Month/Year (2) 2626**] consult, will repeat on Monday
   -encourage sitting up, possibly in a chair to work toward being able to
   take PO
   -When he can take PO, restart Colace, senna, dulcolax, lactulose, PO
   narcan
   - SC methylnaltrexone if needed for constipation
   -wean narcotics as possible
   Tachycardia: Consistently tachycardic to 110s/120s. TSH WNL, TTE showed
   normal EF and no evidence of heart failure. Repeat EKGs have shown
   frequent PVCs, no signs of myocardial ischemia. Likely physiologic
   tachycardia secondary to infection, lymphoma, anemia, high [**Hospital1 **].
   -EKG on [**7-23**] at baseline
   -continue metoprolol 12.5mg PO Q6H
   FEN: Alkalotic in setting of large amount of diuresis due to lasix gtt.
   -Stay current with KCl repletion
   -Check pH again later today
   -Wean lasix if patient can adequately autodiurese
   Hyperglycemia: blood glucose in the 200- 300s starting [**7-23**] largely due
   to the dexamethasone, antibiotics in D5W and acromegaly.
   -on ISS with goal BG 100-150mg/dL.
   - Resumed dex for chemo on [**7-31**], but FSBG well controlled, can switch
   to drip or increase ISS if necessary.
   Joint pain: Patient has severe and diffuse arthralgias, most likely
   secondary to hypertrophic arthropathy from acromegaly.
   -pain control with morphine, tylenol PRN
   PT: f/u recs
   .
   The following issues are not acute or active but left on the note to be
   followed up on when Mr. [**Known lastname 7019**] is awake and stabilized:
   Acromegaly: New presumptive diagnosis based on clinical features.
   Definitive work-up postponed until patient stabilized.
   -f/u with endocrine
   -f/u endocrine labs (IGFBP, Vit D)
   -ophtho consult for visual fields when patient extubated/alert
   Orchitis:  Tender scrotal swelling on admission, scrotal US suggested
   epididymitis/orchitis. No clear masses. G&C swab negative. Exam
   starting [**7-17**] shows marked increase in testicular swelling, particularly
   on the left. Thought to be secondary to malignant infiltration and
   generalized edema.
   -f/u when patient stabilized, likely due to lymphoma
   Neurologic abnormalities: Initial patient complaints included R Bell
   palsy, loss of R facial sensation, weakness/decreased sensation of
   lower extremities. MRI T-spine at OSH showed epidural enhancement of
   thoracic spine; MRI head showed pituitary macroadenoma. In the [**Hospital Unit Name 10**],
   his lower extremity weakness has been constant and severe
 patient can
   wiggle his toes but nothing else. Reflexes depressed bilaterally.
   Neutral Babinskis.
   -neurosurgery has low suspicion for cord compression and repeat MRI of
   spine not necessary urgently. [**Month (only) 11**] consider for response to treatment,
   explanation for LE weakness
   -Repeat MRI of pituitary eventually needed although in light of recent
   ARF, this is not a priority and can wait until patient stabilized.
   -better neuro exam when extubated, particularly focused on cranial
   nerve
s V and VII and lower extremity sensation/motor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   2 PIVs
   D/C A-line today
   PICC Line - [**2144-7-29**] 01:00 PM
   Prophylaxis:
   DVT: pneumoboots, (no SQH since plts low)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: BMT callout today

2144-08-01 11:13:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient failed speech and swallow
   Returned to npo status
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2144-7-31**] 12:18 PM
   Fluconazole - [**2144-7-31**] 10:59 PM
   Cefipime - [**2144-8-1**] 04:00 AM
   Doxycycline - [**2144-8-1**] 08:00 AM
   Vancomycin - [**2144-8-1**] 08:00 AM
   Acyclovir - [**2144-8-1**] 09:00 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2144-7-31**] 08:18 PM
   Metoprolol - [**2144-8-1**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth
   Respiratory: Cough
   Flowsheet Data as of  [**2144-8-1**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.3
   HR: 97 (90 - 118) bpm
   BP: 130/59(82) {127/59(82) - 152/84(100)} mmHg
   RR: 26 (15 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.4 kg (admission): 81.7 kg
   Height: 69 Inch
             Total In:
                                                                  2,384 mL
                                                                    810 mL
   PO:
             TF:
   IVF:
                                                                  2,384 mL
                                                                    810 mL
   Blood products:
   Total out:
                                                                  4,810 mL
                                                                    880 mL
   Urine:
                                                                  4,810 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,426 mL
                                                                    -70 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: 7.56/31/65/24/5
   Physical Examination
   Cardiovascular: (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   17 K/uL
   155 mg/dL
   0.3 mg/dL
   24 mEq/L
   3.6 mEq/L
   18 mg/dL
   103 mEq/L
   137 mEq/L
   24.6 %
   0.1 K/uL
        [image002.jpg]
                             [**2144-7-30**]  11:46 AM
                             [**2144-7-30**]  05:11 PM
                             [**2144-7-30**]  05:24 PM
                             [**2144-7-30**]  06:29 PM
                             [**2144-7-31**]  04:10 AM
                             [**2144-7-31**]  04:23 AM
                             [**2144-7-31**]  12:48 PM
                             [**2144-7-31**]  01:21 PM
                             [**2144-7-31**]  09:02 PM
                             [**2144-8-1**]  04:09 AM
   WBC
   0.1
   0.1
   0.2
   0.1
   0.1
   Hct
   21.2
   22.5
   22.9
   24.2
   24.6
   Plt
   18
   18
   17
   17
   17
   Cr
   0.2
   0.2
   0.2
   0.3
   0.3
   TCO2
   27
   27
   26
   29
   29
   Glucose
   146
   141
   130
   138
   155
   Other labs: PT / PTT / INR:14.0/28.4/1.2, CK / CKMB /
   Troponin-T:138/3/0.02, ALT / AST:37/16, Alk Phos / T Bili:69/0.6,
   Amylase / Lipase:39/132, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:100.0 %, Mono:0.0 %, Eos:0.0 %, D-dimer:2552 ng/mL,
   Fibrinogen:698 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.6 g/dL, LDH:478
   IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   40 yo male with Burkitt's Lymphoma complicated by tumor lysis and with
   recurrent respiratory failure secondary to multifocal pneumonia and
   lymphomatous infiltration of airways.
   1)Resipratory Failure-Patient with multifactorial sources of
   respiratory failure now with excellent stability following extubation
   and now maintained on room air.
   -OOB to chair
   -Continue negative fluid balance today but guided by Lasix delivered
   IV.  Respiratory status has improved, peripheral edema is modest at
   worst
   -Continue with antibiotics certainly during neutropenic time period
   2)Tumor Lysis-may be less severe than with initial chemotherapy Rx but
   will need to be monitored
   -Ease on rate of diuresis
   -Follow Labs
   3)Neutropenia-
   Cefepime
   Vanco
   Cipro
   Doxycycline
   Acyclovir
   Fluconazole
   4)Bukitt's Lymphoma-
   -Chemo given yesterday (Vincristine/Dex)
   -Follow for lysis
   -Will transfuse per oncology guidelines
   Additional issues to be addressed as defined in the housestaff note of
   this date, including
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O HYPOTENSION (NOT SHOCK)
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 TACHYCARDIA, OTHER
   ICU Care
   Nutrition: PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2144-7-27**] 10:18 AM
   Arterial Line - [**2144-7-27**] 06:58 PM
   PICC Line - [**2144-7-29**] 01:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45